2169-09-24 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2169-9-23**] 07:05 PM
   proceedure finished at [**2084**]
   - gen [**Doctor First Name 91**] following w patient; pt under gen [**Doctor First Name 91**] attending
   - ERCP done overnight and stent placed in common bile duct
   - Renal consult called, will see pt [**9-24**] AM
   - cannot get pt to oxygenate well (pre- and post-ERCP), 86% O2sat even
   on Fi02 100%, PEEP increased to 20 and tried decreased to 12; pt in
   reverse trendelenberg, attempted alveolar recruitment maneuver,
   paralyzed pt w cyscuronium
   - esophageal balloon placed
   - afib w RVR w rate 120s with bursts into 150s-190s
   - LR boluses, vasopressin and levophed
   - repleted lots of Ca w calcium gluconate --> due to saponification, Ca
   keeps going down, so keep repleting (so that pressors can still work,
   etc)
   - albumin 5% given w LR over 2hrs
   - 2:30am: ventricular rates more frequently in 170s-190s, hitting 200s
   occasionally but occasionally comes back down to 110s on its own; gave
   IV lopressor 5mg push, pressures dropped to 70s systolic
   - levophed maxed, vasopressin continued, added phenylephrine
   - started amiodarone bolus + drip (hung at 0330)
   - started dilt drip b/c responded well to 5mg IV dilt-->  HR in 90s
   this AM
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-9-23**] 09:45 PM
   Piperacillin - [**2169-9-23**] 11:21 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Amiodarone - 1 mg/min
   Norepinephrine - 0.4 mcg/Kg/min
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-9-23**] 11:56 PM
   Metoprolol - [**2169-9-24**] 02:50 AM
   Diltiazem - [**2169-9-24**] 05:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-24**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 170 (110 - 172) bpm
   BP: 112/72(86) {78/47(56) - 146/83(101)} mmHg
   RR: 35 (16 - 35) insp/min
   SpO2: 83%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 20 (20 - 21)mmHg
   Bladder pressure: 25 (16 - 25) mmHg
   Total In:
                                                                  3,000 mL
                                                                  4,016 mL
   PO:
   TF:
   IVF:
                                                                  3,000 mL
                                                                  3,516 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                     10 mL
                                                                     37 mL
   Urine:
                                                                     10 mL
                                                                     37 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,990 mL
                                                                  3,979 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 330 (330 - 400) mL
   Vt (Spontaneous): 0 (0 - 314) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 43 cmH2O
   Plateau: 43 cmH2O
   Compliance: 14.3 cmH2O/mL
   SpO2: 83%
   ABG: 7.24/65/56/26/-1
   Ve: 11.2 L/min
   PaO2 / FiO2: 56
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.
   HEENT: Sclera icteric, scleral edema present.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess
   Lungs: Patient is on a ventilator.  Anteriorly lungs have a slight
   wheeze present.
   CV: Tachycardic and regular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  No bowel sounds, very distended and tympanic.
   GU: foley present
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis.  Slight
   peripheral edema present.
   Labs / Radiology
   156 K/uL
   12.9 g/dL
   243 mg/dL
   5.2 mg/dL
   26 mEq/L
   4.8 mEq/L
   59 mg/dL
   100 mEq/L
   140 mEq/L
   38.2 %
   18.1 K/uL
        [image002.jpg]
                            [**2169-9-23**]  04:13 PM
                            [**2169-9-23**]  04:27 PM
                            [**2169-9-23**]  05:41 PM
                            [**2169-9-23**]  09:38 PM
                            [**2169-9-23**]  09:49 PM
                            [**2169-9-23**]  11:49 PM
                            [**2169-9-24**]  02:22 AM
                            [**2169-9-24**]  02:36 AM
                            [**2169-9-24**]  06:52 AM
   WBC
   17.1
   18.1
   Hct
   39.8
   38.2
   Plt
   136
   156
   Cr
   4.2
   4.6
   5.2
   TCO2
   32
   33
   28
   27
   29
   29
   Glucose
   [**Telephone/Fax (3) 9336**]
   Other labs: PT / PTT / INR:15.3/32.1/1.3, ALT / AST:62/78, Alk Phos / T
   Bili:43/6.9, Amylase / Lipase:1381/576, Differential-Neuts:74.5 %,
   Lymph:19.7 %, Mono:4.8 %, Eos:0.5 %, Fibrinogen:615 mg/dL, Lactic
   Acid:2.9 mmol/L, Albumin:2.6 g/dL, LDH:989 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   55 yo male with pmh of htn and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis complicated by hypoxia, hypotension,
   and acute renal failure.
   .
   # Hypercapneic and Hypoxic Respiratory failure:  Likely ARDS. The
   patient was intubated yesterday morning due to tachypnea and hypoxia in
   the setting of receiving many liters of IVF while oliguric.  Since
   transfer to [**Hospital1 5**] ICU, has had difficulty maintaining oxygenation,
   despite alveolar recruitment maneuvers, positioning of bed, very
   elevated PEEP, esophageal balloon pressures.  Slowly desaturating
   further into 80s%.  Lung compliance low, and peak pressures 35-40,
   which suggest stiff lungs. Has an associated respiratory acidosis.
   - push ETT in 2cm further
   - increase tidal volumes and increase peak pressures; goal to increase
   pH to 7.3 and stabilize
   - increase PEEP further
   - Check serial ABGs to assess ventilation.
   - Propofol and fentanyl prn for sedation.
   .
    # Hypotension/Septic Shock:  Not responsive to fluids.  Was on three
   pressors last night briefly but weaned off phenylephrine
was just
   needed in the setting of BP drop after IV metoprolol bolused.  CVP
   estimated to be about 5.
   - Levophed prn + vasopressin to maintain MAPs>65.
   - Will follow CVP and continue with aggressive IVF (LR) fluid repletion
   given 3rd spacing physiology with pancreatitis.
   - f/u  blood cultures, UA, and UCx
   - Zosyn, renally dosed due to concern for possible cholangitis +
   Vancomycin
   .
   # Acute renal failure:
   Cr  increased further from 4.2 to 5.2 and oliguric.  Likely  ATN but
   possibly has postrenal obstruction or other intrarenal causes such as
   AIN.  Renal consult this AM called.
   - f/u renal recs  b/c may need CVVH in the near future if he remains
   oliguric and his K continues to rise.
   - f/u urine lytes.
   - Trend Cr.
   - Renal US to rule out postrenal cause.
   - Renally dose medications and avoid nephrotoxins.
   # Gallstone pancreatitis:  CBD stone still in place.  CBD stent placed
   by ERCP fellow.  Likely will worsen 24hrs post procedure before he can
   get better b/c of transient bacteremia caused by procedure.  Have
   repleted calcium significantly overnight
   - replete calcium as necessary for continued drop due to
   saponification. Improving lipase and amylase.
   - f/u ERCP/GI recs
   - Will f/u surgery recs.
   - NPO with IVF
bolus as needed for pressures
   - Trend his LFTs and pancreatic enzymes
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  He was weaned off the insulin gtt
   prior to transfer.  no documentation sent with the amount of insulin he
   received by insulin gtt at outside hospital
   - continue to check q6h fingersticks and cover with SSI.  Will add up
   his 24 hour requirements and start a long-acting [**Doctor Last Name **].
   .
   # Anemia: The patient's Hct stable at 38.  Guaiac + diarrhea.
   - Active type and screen.
   - Continue to trend.
   .
   # Thrombocytopenia:  His platelets are 156 which is stable in last
   couple days. (platelets 202 at outside hospital admission)
   - Continue to trend.
   .
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-9-23**] 09:11 PM
   Arterial Line - [**2169-9-23**] 09:13 PM
   20 Gauge - [**2169-9-24**] 05:40 AM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, and reviewed his history, labs and
   imaging throughout the day. I was present for the key portions of the
   services provided and have spoken at length with renal consultants. I
   have reviewed the note by Dr [**Last Name (STitle) 9313**] above and I largely agree with her
   findings and plan of care.
   Mr [**Name13 (STitle) 9349**] is extraordinarily ill, with cholangitis,  pancreatitis,
   ARDS, renal failure, hypotension, and severe third space volume
   overload.  Most of the day was spent manipulating his vent according to
   esophageal pressure measurements which suggested that due to his large
   tense abdomen (bladder pressure 18 ) his pleural pressures were very
   high, thus allowing significant increase in VT and Peep.  However the
   major improvement has come with our nursing him in decubitus position
   which has allowed improved oxygenation (a [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 9350**]). Current vent
   settings are Fi02 80%, Vt450cc, RR 36, PEEP 21, VE15L/min, and
   inhalation Transpulm pressure of 41-30 or 11cm.
   His urine output is nil and a hemodialysis catheter has been placed by
   IR femorally which should may be needed soon, but right now with his
   CVP of 23 and Ppl end exhalation of 23, he appears to have room for
   more intravascular fluid.
   He remains critically ill, but amylase and lactate are improving and
   he
s not significantly acidotic.  We are following lytes, calcium,
   hemodynamics closely.  Family was present today and know the gravity of
   the situation as does his attorney health care proxy.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   [**MD Number(2) 9351**] spent in the care of this critically ill pt
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2169-9-24**] 21:28 ------

2169-09-25 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pt. intially desaturating to the 70's on FiO2 of 100% and very high
   PEEP; and hypercapneic, so RR increased to 40; recruitment maneuver;
   could not prone patient b/c could not get the bed. Using a "[**Doctor Last Name **]
   style" bed to turn him from side to side.
   -Throughout course of day the bed turning improved his respiratory
   status: PEEP 30 -> 21; FiO2 100% -> 80%, and RR 40 -> 36-> 34 -> 32
   - This AM, patient was getting cleaned and bed movement briefly ceased.
   Patient desaturated into the 70
s. Placed back on 100% FiO2 and PEEP
   increased to 23. O2 sats in the mid 80s/
   - Fever spike to 103 and was pan-cultured
   - HD line placed in right femoral
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2169-9-23**] 11:21 PM
   Vancomycin - [**2169-9-24**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-25**] 01:11 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Diltiazem - 10 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Insulin - Regular - 5 units/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Fentanyl - [**2169-9-24**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2169-9-24**] 03:47 PM
   Pantoprazole (Protonix) - [**2169-9-24**] 09:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-25**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.2
C (100.7
   HR: 86 (84 - 136) bpm
   BP: 121/64(78) {83/51(60) - 149/90(102)} mmHg
   RR: 34 (0 - 40) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 124.9 kg (admission): 120 kg
    CVP: 23 (20 - 23)mmHg
   Bladder pressure: 18 (18 - 24) mmHg
   Total In:
                                                                  7,275 mL
                                                                  1,002 mL
   PO:
   TF:
   IVF:
                                                                  6,775 mL
                                                                  1,002 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                    101 mL
                                                                     10 mL
   Urine:
                                                                    101 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,174 mL
                                                                    992 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (330 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 21 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 48 cmH2O
   Plateau: 42 cmH2O
   Compliance: 22.5 cmH2O/mL
   SpO2: 92%
   ABG: 7.47/34/67/23/1 (On a RR of 34)
   Ve: 14.2 L/min
   PaO2 / FiO2: 84
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.
   HEENT: Sclera icteric, scleral edema present.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess
   Lungs: Patient is on a ventilator.  Anteriorly lungs have a slight
   wheeze present.
   CV: Tachycardic and regular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  No bowel sounds, very distended and tympanic.
   GU: foley present
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis.  Slight
   peripheral edema present
   Labs / Radiology
   107 K/uL
   11.0 g/dL
   94 mg/dL
   6.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   80 mg/dL
   101 mEq/L
   138 mEq/L
   31.4 %
   9.3 K/uL
        [image002.jpg]
                            [**2169-9-24**]  06:52 AM
                            [**2169-9-24**]  09:50 AM
                            [**2169-9-24**]  11:05 AM
                            [**2169-9-24**]  02:35 PM
                            [**2169-9-24**]  02:55 PM
                            [**2169-9-24**]  05:12 PM
                            [**2169-9-24**]  11:21 PM
                            [**2169-9-24**]  11:32 PM
                            [**2169-9-25**]  03:28 AM
                            [**2169-9-25**]  04:07 AM
   WBC
   12.9
   8.4
   9.3
   Hct
   34.7
   30.3
   31.4
   Plt
   138
   117
   107
   Cr
   5.9
   6.9
   6.9
   TCO2
   29
   28
   29
   26
   25
   25
   25
   Glucose
   389
   321
   175
   94
   Other labs: PT / PTT / INR:16.2/32.4/1.4, ALT / AST:199/272 (263), Alk
   Phos / T Bili:40/8.6(7.4), Amylase / Lipase:605 (625)/271(346),
   Fibrinogen:615 mg/dL, Lactic Acid:2.0 mmol/L (bumped yesterday to 3.7),
   Albumin:2.6 g/dL, LDH:995 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Vanc: 26.5
   Micro: NGTD
   Assessment and Plan
   55 yo male with pmh of htn and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure.
   .
   # Hypoxic Respiratory failure:  ARDS likely as p/f ratio is 84 this AM.
   The patient was intubated Saturday morning due to tachypnea and hypoxia
   in the setting of receiving many liters of IVF while oliguric.
   Initially, had difficulty maintaining oxygenation, despite alveolar
   recruitment maneuvers, positioning of bed, very elevated PEEP,
   esophageal balloon pressures.  Change of bed with 35 degree tilting
   appeared to help oxygenation as his vent settings have decreased.
   - Attempt to wean down vent settings as patient can
   - Check serial ABGs to assess ventilation.
   - Propofol and fentanyl prn for sedation.
   - Continue bed positioning
   .
    # Hypotension/Septic Shock:  Intermittent fluid boluses are not clear
   if helpful as difficult to assess volume status.  Was intially on three
   pressors; weaned off phenylephrine and levophed dose is decreasing as
   well. Also with new fever spike while on broad spectrum antibiotics.
   - Continue to wean levophed + vasopressin to maintain MAPs>65.
   - Will follow change in CVP and attempts to continue with IVF
   resusciation given 3rd spacing physiology with pancreatitis, but to be
   careful with tenous respiratory status
   - f/u  blood cultures, Ucx
s and sputum cultures
   - Zosyn, renally dosed due to concern for possible cholangitis +
   Vancomycin renally dosed
   .
   # Acute renal failure:
   Cr  increased further from 5.9 to 6.9 this AM.  Likely  ATN highest on
   differential at this point.
   - Patient s/p IR HD femoral line placement
   - Contact renal  b/c may likely need CVVH today as patient is getting
   fluids and not urinating
   - f/u urine lytes: Fe Urea: 9.43%; likely pre-renal state
   - Trend Cr.
   - Renally dose medications and avoid nephrotoxins.
   - Follow bladder pressures and lactate
if continuing to increase
   consider calling surgery for possible decompression of compartment
   syndrome
   # Atrial Fibrillation: Patient on amio and dilt gtt to control HR.
   Patient with adequately controlled rate on these two medications.
   -  Stop dilt gtt today as patient as heart rate is well controlled
   -  Continue amio gtt
   - Goal to keep patient
s HR < 120 as to improve CO and perfusion
   # Gallstone pancreatitis:  CBD stone still in place.  CBD stent placed
   by ERCP fellow.  Likely will worsen 24hrs post procedure before he can
   get better b/c of transient bacteremia caused by procedure.  Have
   repleted calcium significantly overnight
   - replete calcium as necessary for continued drop due to
   saponification. Improving lipase and amylase.
   - f/u ERCP/GI recs
   - Will f/u surgery recs.
   - NPO with IVF
bolus as needed for pressures
   - Trend his LFTs and pancreatic enzymes
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt.
   - Continue insulin gtt for now.
   .
   # Anemia: The patient's Hct decreased to 31.4.  Guaiac + diarrhea +
   fluids
   - Active type and screen.
   - Transfuse if Hct < 25
   - Continue to trend.
   .
   # Thrombocytopenia:  His platelets are 107 from peak at 157 [**9-24**].
   (platelets 202 at outside hospital admission)
   - Continue to trend.
   - No signs of active bleeding
   - D/C sub q heparin
   ICU Care
   Nutrition: NPO
   - d/w GI/[**Doctor First Name **] the idea of tube feeds, if not possible, will consult
   nutrition for TPN recs
   Glycemic Control:
   Lines:
   HD Right Femoral - [**2169-9-24**]
   Multi Lumen - [**2169-9-23**] 09:11 PM
   Arterial Line - [**2169-9-23**] 09:13 PM
   20 Gauge - [**2169-9-24**] 05:40 AM
   Prophylaxis:
   DVT: d/c sq heparin in light of thrombocytopenia; pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR confirmed by patient
s HCP
   Disposition: ICU
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient and reviewed his hospital course to
   date. I have also gone over his labs, hemodynamics, imaging, and vent
   settings and status, and have spent considerable time at the bedside
   with RRT
s on the patient
s vent settings.  I have also reviewed Dr
   [**Last Name (STitle) 9271**]
s note above. I agree with her findings and plan of care.  Mr
   [**Known lastname 9314**] remains very critically ill with sepsis from cholangitis,
   pancreatitis, ARDS, hypotension, renal failure, and intrabdominal
   hypertension.
   Regarding his ARDS, he
s some better with rotating bed which seems to
   help decrease the effect of his tense abdomen on his vent status.  None
   the less he
s tenous, on PEEP of 20 or more, 100% Fi02, and barely
   adequate sats and P02.  His lungs are stiff, and opacified.  Esophageal
   balloon pressured are not exactly making sense as they calculate to a
   TPP at inspiration that
s very small or negative.  TPP at end
   exhalation also neg. For now we
ll keep PEEP at 20 and be sure he
   tanked up.  Unfortunately if we use esoph press as indicator of Ppl
   then his corrected CVP is neg!  Hence for now we
ll correct CVP for
   PEEP (assume 25% of PEEP transmitted to pleural space pressure).  Thus
   his corrected CVP is 23-5 = 18 which is about where we
d want him.
   Unfortunately he
s still needing pressors though for now he
s not
   acidotic and lactate is surprisingly normal, suggesting his abdominal
   pressures are not causing gut ischemia.  Yet his abdomen is very large
   and tense with bladder pressures of 18-20.  I would appreciate surgery
   coming by and commenting on what criteria they
d use for surgical
   decompression. I would also seek their advice on how to decompress pt
   abdomen non surgically  (another trial of colonic airl decompression
   via catheter or c
scope?)
   Femoral HD line is in place though for now I think we have to be
   careful about removing any fluid via CVVH and he doesn
t need HD for
   electrolyte imbalance.
   His pancreatitis by amylase/lipase is subsiding, though he
s needed
   lots of calcium.  His WBC suggests his cholangitis is resolving as
   well.  He has a central line placed in OSH but right now it
s too risky
   to replace this line.
   His sister has been visiting and his attorney/proxy has made the
   patient DNR, not unreasonable given the current acuity and multiplicity
   of his problems.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   [**MD Number(2) 9351**] spent in the care of this critically ill patient
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2169-9-25**] 15:20 ------

2169-09-26 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -difficult to oxygenate-->better with repositioning, FiO2 back to 100%
   -ERCP: CBD stent placed
   -esophageal balloon in place:initial pressure was 30, adjusting PEEP
   based on balloon pressures
   -New HD line placed by IR the night before (Femoral)-->started CVVH
   last night as per renal, hoping to get some fluid off to improve
   oxygenation, remains oliguric
   -P:F=84 morning of [**9-25**]
   -concern for abdominal compartment syndrome, surgery following,
   monitoring bladder pressures
   - needs PICC when not febrile anymore for TPN
   - discussed amio dosing with pharmacy.  As of [**9-25**] at 1630 hrs had
   received 1470 mg IV.
   - remained on 100% FiO2, attempted to wean PEEP in the afternoon but
   after a few hours he desated and his transpulm pressure was -10 so his
   PEEP was again increased
   - OG to continuous suction to try to decompress
   - weaned off levophed, only on vasopressin
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2169-9-23**] 11:21 PM
   Vancomycin - [**2169-9-24**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-25**] 11:45 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 6 mg/hour
   Insulin - Regular - 10 units/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-9-25**] 04:00 PM
   Fentanyl - [**2169-9-25**] 04:00 PM
   Pantoprazole (Protonix) - [**2169-9-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-26**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100
   HR: 92 (81 - 105) bpm
   BP: 106/55(68) {86/49(62) - 144/83(100)} mmHg
   RR: 32 (0 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 132.8 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 19 (12 - 28)mmHg
   CO/CI (Fick): (5.9 L/min) / (2.5 L/min/m2)
   Bladder pressure: 15 (15 - 20) mmHg
   Mixed Venous O2% Sat: 63 - 63
   Total In:
                                                                  2,622 mL
                                                                  1,322 mL
   PO:
   TF:
   IVF:
                                                                  2,455 mL
                                                                  1,026 mL
   Blood products:
   Total out:
                                                                  1,052 mL
                                                                  1,323 mL
   Urine:
                                                                     75 mL
                                                                     70 mL
   NG:
                                                                    240 mL
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  1,570 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 26 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 46 cmH2O
   Plateau: 44 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 95%
   ABG: 7.37/37/86/19/-3
   Ve: 13.8 L/min
   PaO2 / FiO2: 86
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.
   HEENT: Sclera icteric, scleral edema present.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess
   Lungs: Patient is on a ventilator.  Anteriorly lungs have a slight
   wheeze present.
   CV: Tachycardic and regular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  No bowel sounds, very distended and tympanic.
   GU: foley present
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis.  Slight
   peripheral edema present
   Labs / Radiology
   105 K/uL
   10.8 g/dL
   167 mg/dL
   7.2 mg/dL
   19 mEq/L
   4.7 mEq/L
   89 mg/dL
   101 mEq/L
   135 mEq/L
   31.3 %
   7.7 K/uL
        [image002.jpg]
                            [**2169-9-25**]  07:46 AM
                            [**2169-9-25**]  01:10 PM
                            [**2169-9-25**]  03:12 PM
                            [**2169-9-25**]  03:25 PM
                            [**2169-9-25**]  05:12 PM
                            [**2169-9-25**]  08:20 PM
                            [**2169-9-25**]  09:08 PM
                            [**2169-9-25**]  11:42 PM
                            [**2169-9-26**]  02:58 AM
                            [**2169-9-26**]  03:13 AM
   WBC
   7.7
   Hct
   31.3
   Plt
   105
   Cr
   8.4
   7.2
   TCO2
   28
   25
   25
   24
   25
   22
   22
   Glucose
   139
   163
   167
   Other labs: PT / PTT / INR:14.9/32.4/1.3, ALT / AST:196/279, Alk Phos /
   T Bili:40/9.3, Amylase / Lipase:355/113, Differential-Neuts:77.3 %,
   Lymph:16.7 %, Mono:4.6 %, Eos:1.2 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:960 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   55 yo male with pmh of htn and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure.
   .
   # Hypoxic Respiratory failure:  ARDS likely as p/f ratio is 84 this AM.
   The patient was intubated Saturday morning due to tachypnea and hypoxia
   in the setting of receiving many liters of IVF while oliguric.
   Initially, had difficulty maintaining oxygenation, despite alveolar
   recruitment maneuvers, positioning of bed, very elevated PEEP,
   esophageal balloon pressures.  Change of bed with 35 degree tilting
   appeared to help oxygenation as his vent settings have decreased.
   - Attempt to wean down vent settings as patient can
   - Check serial ABGs to assess ventilation.
   - Propofol and fentanyl prn for sedation.
   - Continue bed positioning
   .
    # Hypotension/Septic Shock:  Intermittent fluid boluses are not clear
   if helpful as difficult to assess volume status.  Was intially on three
   pressors; weaned off phenylephrine and levophed dose is decreasing as
   well. Also with new fever spike while on broad spectrum antibiotics.
   - Continue to wean levophed + vasopressin to maintain MAPs>65.
   - Will follow change in CVP and attempts to continue with IVF
   resusciation given 3rd spacing physiology with pancreatitis, but to be
   careful with tenous respiratory status
   - f/u  blood cultures, Ucx
s and sputum cultures
   - Zosyn, renally dosed due to concern for possible cholangitis +
   Vancomycin renally dosed
   .
   # Acute renal failure:
   Cr  increased further from 6.9 to 7.2 this AM.  Likely  ATN highest on
   differential at this point. Started CVVH yesterday afternoon
   - Continue CVVH to get fluids off
   - f/u urine lytes: Fe Urea: 9.43%; likely pre-renal state
   - Trend Cr.
   - Renally dose medications and avoid nephrotoxins.
   - Follow bladder pressures and lactate
if continuing to increase
   consider calling surgery for possible decompression of compartment
   syndrome
   # Atrial Fibrillation: Patient on amio and dilt gtt to control HR.
   Patient with adequately controlled rate on these two medications.
   -  Stop dilt gtt today as patient as heart rate is well controlled
   -  Continue amio gtt
   - Goal to keep patient
s HR < 120 as to improve CO and perfusion
   # Gallstone pancreatitis:  CBD stone still in place.  CBD stent placed
   by ERCP fellow.  Likely will worsen 24hrs post procedure before he can
   get better b/c of transient bacteremia caused by procedure.  Have
   repleted calcium significantly overnight
   - replete calcium as necessary for continued drop due to
   saponification. Improving lipase and amylase.
   - f/u ERCP/GI recs
   - Will f/u surgery recs.
   - NPO with IVF
bolus as needed for pressures
   - Trend his LFTs and pancreatic enzymes
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt.
   - Continue insulin gtt for now.
   .
   # Anemia: The patient's Hct decreased to 31 (from 52 at OSH when
   hemoconcentrated) but stable currently.  Guaiac + diarrhea + fluids
   - Active type and screen.
   - Transfuse if Hct < 25
   - Continue to trend.
   .
   # Thrombocytopenia:  His platelets are trending down slowly.  Low
   suspicion for HIT, but HIT antibody sent, and subq heparin DCed
   yesterday.  [**Month (only) 8**] be secondary to Zosyn. (platelets 202 at outside
   hospital admission)
   - Continue to trend.
   - No signs of active bleeding
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-9-25**] 08:00 PM 41.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:
   Lines:  Right subclavian, Left art-line both from OSH; Femoral HD line
   Multi Lumen - [**2169-9-23**] 09:11 PM
   Arterial Line - [**2169-9-23**] 09:13 PM
   Dialysis Catheter - [**2169-9-24**] 08:00 PM
   20 Gauge - [**2169-9-25**] 02:40 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments: HCP is Attorney
   [**Name (NI) 156**] status: DNR
   Disposition: ICU

2169-09-26 09:15:00 Physician Attending Progress Note
Chief Complaint: gallstone pancreatitis c/b MODS, ARF, resp
   failure/ards, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55M transferred from OSH with gallstone pancreatitis c/b MODS with resp
   failure, ards, arf and hypotension requiring pressor support.
   24 Hour Events:
 FEVER - 101.8
F - [**2169-9-25**] 08:00 PM
   remains on 100% Fio2 and high peep
   cvvh started yesterday
   remains on vasopressin, levophed off since early this am
   on amnio gtt with improved HR control
   History obtained from Medical records, ho
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2169-9-23**] 11:21 PM
   Vancomycin - [**2169-9-24**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-26**] 08:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 6 mg/hour
   Insulin - Regular - 10 units/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-9-25**] 04:00 PM
   Fentanyl - [**2169-9-25**] 04:00 PM
   Pantoprazole (Protonix) - [**2169-9-25**] 08:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-26**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.9
C (100.2
   HR: 90 (79 - 105) bpm
   BP: 114/55(70) {86/49(62) - 144/83(100)} mmHg
   RR: 29 (0 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 132.8 kg (admission): 120 kg
   Height: 71 Inch
   CVP: 19 (12 - 28)mmHg
   CO/CI (Fick): (5.9 L/min) / (2.5 L/min/m2)
   Bladder pressure: 15 (15 - 20) mmHg
   Mixed Venous O2% Sat: 63 - 63
   Total In:
                                                                  2,622 mL
                                                                  1,528 mL
   PO:
   TF:
   IVF:
                                                                  2,455 mL
                                                                  1,172 mL
   Blood products:
   Total out:
                                                                  1,052 mL
                                                                  1,553 mL
   Urine:
                                                                     75 mL
                                                                     83 mL
   NG:
                                                                    240 mL
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  1,570 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 26 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 46 cmH2O
   Plateau: 44 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 96%
   ABG: 7.35/40/84.[**Numeric Identifier 117**]/19/-3
   Ve: 11.1 L/min
   PaO2 / FiO2: 84
   Physical Examination
   General Appearance: anasarca
   Eyes / Conjunctiva: PERRL, Sclera edema, icteric sclera
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal) sys murmur audible at apex
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: )
   Abdominal: Distended, Obese, hypoactive BS
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, edematous
   Neurologic: Unresponsive off sedation
   Labs / Radiology
   10.8 g/dL
   105 K/uL
   167 mg/dL
   7.2 mg/dL
   19 mEq/L
   4.7 mEq/L
   89 mg/dL
   101 mEq/L
   135 mEq/L
   31.3 %
   7.7 K/uL
        [image002.jpg]
                            [**2169-9-25**]  01:10 PM
                            [**2169-9-25**]  03:12 PM
                            [**2169-9-25**]  03:25 PM
                            [**2169-9-25**]  05:12 PM
                            [**2169-9-25**]  08:20 PM
                            [**2169-9-25**]  09:08 PM
                            [**2169-9-25**]  11:42 PM
                            [**2169-9-26**]  02:58 AM
                            [**2169-9-26**]  03:13 AM
                            [**2169-9-26**]  08:30 AM
   WBC
   7.7
   Hct
   31.3
   Plt
   105
   Cr
   8.4
   7.2
   TCO2
   25
   25
   24
   25
   22
   22
   23
   Glucose
   139
   163
   167
   Other labs: PT / PTT / INR:14.9/32.4/1.3, ALT / AST:196/279, Alk Phos /
   T Bili:40/9.3, Amylase / Lipase:355/113, Differential-Neuts:77.3 %,
   Lymph:16.7 %, Mono:4.6 %, Eos:1.2 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:960 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Imaging: et ok, small volumes, b/l eff and atelectasis, some
   improvement in interstitial edema
   Microbiology: no growth to date
   Assessment and Plan:
   55M with severe GS pancreatitis c/b MOSD.
   Primary issues remain:
          GS pancreatitis
          Resp failure/ARDS
          Septic shock
          hypotension
          fevers
          ARF
          hyperglycemia
          thrombocytopenia
   Agree with plan to continue aggressive supportive care for GS
   pancreatitis and MODS.  He remains very tenuous from resp standpoint
   with high peep and fio2 requirements in setting of ards and large
   distended abd. Oxygenation has improved slightly with volume removal
   and increased peep.   Will continue ACV w/ ards net TVs, high peep
   guiding with esoph balloon. Will wean O2 as able to maintain paO2 > 60,
   following abgs closely. We continue to follow his bladder pressures to
   monitor for abd compartment syndrome as his very distended abd is
   contributing to his high peep needs..
   The most likely source of his continued temp is severe pancreatitis w/
   inflammation.  He is s/p ercp with CBD stone removal and stent and his
   enzymes and lfts are trending down.  We continue empiric vanco/zosyn
   Day 3 with cx data neg to date.  Will consider d/cing vanco once we
   confirm that osh cxs remain neg.
   He remains on cvvh and we will attempt increased volume removal as BP
   tolerates maintaining MAPS > 60.  Will try to d/c pressor (vasopressin)
   as able. We continue amio gtt  for load, for prior rapid a-fib,  now in
   nsr. We have a low suspicion for HIT but suspect his thrombocytopenia
   is related to failed liver and sepsis.  Counts remain stable.
   Pt is very ill with multi organ failure and very poor prognosis.  We
   continue to update his HCP and family.
   Nutrition:
   TPN without Lipids - [**2169-9-25**] 08:00 PM 41.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2169-9-23**] 09:11 PM
   Arterial Line - [**2169-9-23**] 09:13 PM
   Dialysis Catheter - [**2169-9-24**] 08:00 PM
   20 Gauge - [**2169-9-25**] 02:40 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill,

2169-09-27 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -on CVVH, with decreased pressor requirement--> b/c BPs stable,
   increased rate from 50cc/hr to 150 cc/hr (around 11:30pm, nurse started
   taking off up to 150cc/hr; Renal increased to 150-250 cc/hr this AM.
   - FiO2 decreased to 60% at 0000; ABG: 7.33/37/83
   - 3;30am peak pressurs rising in 50s, rr up to 42.pt was suctioned with
   lavage for moderate amt thick white secretions.  pt was given 50mcg
   fentanyl bolus and 1mg versed bolus with increase in versed drip to
   7mg/hr with good effect with rr down to set rate of 32, peak pressures
   down to 40s with increased sedation. Sbp at this time was rising to
   180s and down to 160s with sedation.sbp currently down to 130s
   -0330: BP slowly creeped up to 180s systolic, so vasopressin turned off
   --> SBP in 150s-160s ; pt does not appear to be in pain ; consider some
   effect of CVVH or pt had bad HTN at baseline which is returning?
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-9-26**] 02:33 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-26**] 11:57 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Insulin - Regular - 9 units/hour
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-9-26**] 08:00 PM
   Midazolam (Versed) - [**2169-9-27**] 03:30 AM
   Fentanyl - [**2169-9-27**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-27**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.6
   HR: 92 (79 - 99) bpm
   BP: 163/66(87) {102/49(63) - 171/75(95)} mmHg
   RR: 30 (12 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 132.8 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 16 (11 - 22)mmHg
   Bladder pressure: 17 (15 - 17) mmHg
   Total In:
                                                                  4,819 mL
                                                                  1,222 mL
   PO:
   TF:
   IVF:
                                                                  3,795 mL
                                                                    922 mL
   Blood products:
   Total out:
                                                                  4,810 mL
                                                                  2,102 mL
   Urine:
                                                                    143 mL
                                                                     48 mL
   NG:
                                                                     75 mL
                                                                     25 mL
   Stool:
   CVVH:
                                                                      4592
                                                                      [**2188**]
   Balance:
                                                                      9 mL
                                                                   -878 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 26 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 46 cmH2O
   Plateau: 44 cmH2O
   SpO2: 96%
   ABG: 7.35/37/74/19/-4
   Ve: 14 L/min
   PaO2 / FiO2: 123
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.
   HEENT: Sclera icteric, scleral edema present.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess b/c neck thick
   Lungs: Patient is on a ventilator.  Anteriorly lungs slightly
   rhonchorous.
   CV: Rate 80s, regular rhythm, soft heart sounds so difficult to
   appreciate whether there are any murmurs
   Abdomen:  No bowel sounds, very distended and tympanic.
   GU: foley present
   Ext: warm, well perfused, pulses difficult to palpate but they are
   dopplerable, edematous extremities.
   Labs / Radiology
   102 K/uL
   10.8 g/dL
   137 mg/dL
   6.5 mg/dL
   19 mEq/L
   5.3 mEq/L
   83 mg/dL
   102 mEq/L
   136 mEq/L
   32.0 %
   8.0 K/uL
        [image002.jpg]
                            [**2169-9-26**]  08:16 AM
                            [**2169-9-26**]  08:30 AM
                            [**2169-9-26**]  02:15 PM
                            [**2169-9-26**]  02:31 PM
                            [**2169-9-26**]  09:02 PM
                            [**2169-9-26**]  09:15 PM
                            [**2169-9-27**]  01:12 AM
                            [**2169-9-27**]  03:08 AM
                            [**2169-9-27**]  03:35 AM
                            [**2169-9-27**]  06:27 AM
   WBC
   8.0
   Hct
   32.0
   Plt
   102
   Cr
   6.8
   6.5
   TCO2
   23
   21
   20
   20
   21
   21
   Glucose
   132
   130
   149
   137
   Other labs: PT / PTT / INR:13.9/30.0/1.2(1.3),
    ALT / AST:142(196)/219(279), Alk Phos / T Bili:48(40)/8.6(9.3),
   Amylase / Lipase:200(355)/51(113)
   Albumin:2.6 g/dL, LDH:960 IU/L(960), Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.6 mg/dL
   Micro: [**9-24**], [**9-24**], [**9-25**]: NGTD
   Radiology: None
   Assessment and Plan
   55 yo male with pmh of HTN and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure:  ARDS likely as p/f ratio 120. Has had
   difficulty maintaining oxygenation, despite alveolar recruitment
   maneuvers, positioning of bed, very elevated PEEP, esophageal balloon
   pressures but recently stable in 90s % O2sat w 60% FiO2.  Change of bed
   with 35 degree tilting appeared to help but difficult to do accurate
   CVVH w bed tilted, so he is supine.
   - Concerning as PIP and Plateau pressures are quite high. ( C=P/V)
   Goals to increase compliance: decrease volume with CVVH; Decrease TV to
   400, and if possible decrease peep (unlikely able to decrease this as
   do not want to de-recruit alveoli any further)
   - Decrease FiO2 and check ABGs to get paO2 in 60s for ARDS protocol
   - Midazolam and fentanyl prn for sedation
   - Continue bed positioning as tolerated to help improve increased
   perfusion to more ventilated areas
   - Continue CVVH with as much volume to take off as can be tolerated to
   help improve oxygenation
   .
    # Hypotension/Septic Shock:  Weaned off levophed [**9-26**]. Vasopressin
   stopped overnight.  Continues to be febrile and now hypertensive off
   pressors.
   - No longer hypotensive; off pressors. Continue CVVH to increase volume
   removal and hopefully reduce bp some.
   - Consider anti-hypertensives if persistent SBP < 160
   - trend fever curve ; CVVH will bring temperatures down, so he may not
   be spiking fevers though he otherwise may have
   - culture if spikes through CVVH ; attempt PR Tylenol again
   - f/u  blood cultures, Ucx
s and sputum cultures (negative so far)
   - CXR today and if continues to spike consider abdominal CT to rule out
   other sources of possible infection
   - Zosyn, renally dosed due to concern for possible cholangitis; D/C
   Vancomycin as unlikely Gram positive source of infection
   .
   # Acute renal failure:  Cr  slowly coming down, but still very high and
   cannot monitor anymore because on CVVH.  Likely ATN highest on
   differential at this point. Started CVVH Monday afternoon [**9-25**];
   patient tolerating well.
   - Continue CVVH to get fluids off
 increase rate from 150cc/hr to
   150-250cc/hr to see how he tolerates b/c BPs are better this AM
   - dose medications for CVVH
   - Follow bladder pressures and lactate
 if continuing to increase
   consider calling surgery to assess for possible decompression of
   compartment syndrome
   - Renal following: will ask if lasix trial is suitable yet.
   # Atrial Fibrillation: Patient on amio gtt in sinus rhythm. Dilt drip
   stopped [**9-25**]
   - Continue amio gtt for now for entire loading dose as patient cannot
   take po
   - Goal to keep patient
s HR < 120 as to improve CO and perfusion
   - Keep track of Amio dosage; once 10 grams is achieved, may need to
   give maintenance dose through IV (200 mg/day)
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase
   - f/u ERCP/GI recs
   - Will f/u surgery recs.
   - NPO with IVF
bolus as needed for pressures or give back fluid w CVVH
   - Trend his LFTs and pancreatic enzymes
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt.
   - Continue insulin gtt for now.
   - Consider Insulin in TPN and attempt to wean down insulin gtt
   .
   # Anemia: The patient's Hct decreased to 31 (from 52 at OSH when
   hemoconcentrated) but stable currently.  Guaiac + diarrhea + fluids
   - Active type and screen.
   - Transfuse if Hct < 25
   - Continue to trend.
   .
   # Thrombocytopenia:  His platelets are trending down slowly.  Low
   suspicion for HIT, but HIT antibody sent, and subq heparin DCed
   yesterday.  [**Month (only) 8**] be secondary to Zosyn. (platelets 202 at outside
   hospital admission)
   - Continue to trend.
   - No signs of active bleeding
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-9-25**] 08:00 PM 41.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:
   Lines:  Right subclavian, Left art-line both from OSH; Femoral HD line
   Multi Lumen - [**2169-9-23**] 09:11 PM
   Arterial Line - [**2169-9-23**] 09:13 PM
   Dialysis Catheter - [**2169-9-24**] 08:00 PM
   20 Gauge - [**2169-9-25**] 02:40 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments: HCP is Attorney
   [**Name (NI) 156**] status: DNR
   Disposition: ICU

2169-09-27 11:25:00 Physician Attending Progress Note
Chief Complaint: 55M with severe GS pancreatitis c/b MOSD.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   resp distress overnight with thick secretions/plugging--> resolved w/
   sx
   FIO2 decreased to 60%
   cvvh rate increased to 150 off per hr
   off pressors overnight
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-27**] 07:30 AM
   Vancomycin - [**2169-9-27**] 09:24 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 7 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-9-26**] 08:00 PM
   Midazolam (Versed) - [**2169-9-27**] 03:30 AM
   Fentanyl - [**2169-9-27**] 03:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-27**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.3
   HR: 91 (87 - 99) bpm
   BP: 165/62(85) {102/49(63) - 171/75(95)} mmHg
   RR: 8 (8 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 132.8 kg (admission): 120 kg
   Height: 71 Inch
   CVP: 15 (11 - 22)mmHg
   Bladder pressure: 17 (15 - 17) mmHg
   Total In:
                                                                  4,819 mL
                                                                  2,452 mL
   PO:
   TF:
   IVF:
                                                                  3,795 mL
                                                                  1,952 mL
   Blood products:
   Total out:
                                                                  4,810 mL
                                                                  3,021 mL
   Urine:
                                                                    143 mL
                                                                     64 mL
   NG:
                                                                     75 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                      9 mL
                                                                   -569 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 0 cmH2O
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 26 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 50 cmH2O
   Plateau: 44 cmH2O
   SpO2: 96%
   ABG: 7.36/41/85.[**Numeric Identifier 299**]/19/-1
   Ve: 13.7 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Distended, tight, hypoactive
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm depend edema
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Labs / Radiology
   10.8 g/dL
   102 K/uL
   130 mg/dL
   6.5 mg/dL
   19 mEq/L
   4.9 mEq/L
   83 mg/dL
   101 mEq/L
   136 mEq/L
   32.0 %
   8.0 K/uL
        [image002.jpg]
                            [**2169-9-26**]  02:15 PM
                            [**2169-9-26**]  02:31 PM
                            [**2169-9-26**]  09:02 PM
                            [**2169-9-26**]  09:15 PM
                            [**2169-9-27**]  01:12 AM
                            [**2169-9-27**]  03:08 AM
                            [**2169-9-27**]  03:35 AM
                            [**2169-9-27**]  06:27 AM
                            [**2169-9-27**]  09:09 AM
                            [**2169-9-27**]  09:22 AM
   WBC
   8.0
   Hct
   32.0
   Plt
   102
   Cr
   6.8
   6.5
   TCO2
   21
   20
   20
   21
   21
   24
   Glucose
   130
   149
   137
   130
   Other labs: PT / PTT / INR:13.9/30.0/1.2, ALT / AST:142/219, Alk Phos /
   T Bili:48/8.6, Amylase / Lipase:200/51, Differential-Neuts:77.3 %,
   Lymph:16.7 %, Mono:4.6 %, Eos:1.2 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:960 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Imaging: no new film
   Microbiology: no growth to date
   Assessment and Plan
   55M with severe GS pancreatitis c/b MOSD.
   Primary issues remain:
          GS pancreatitis
          Resp failure/ARDS
          Septic shock
          hypotension
          fevers
          ARF
          hyperglycemia
          thrombocytopenia
   We are making slow progress with volume removal, able to come down on
   FIO2 with improvement in P:F ratio. Hemodynamics improving as well, now
   off pressors.
   Agree with plan to continue aggressive supportive care for GS
   pancreatitis and MODS.  While he remains very tenuous from resp
   standpoint with high peep in setting of ards and large distended abd we
   are making progress. Tran pl pressure is slightly neg at end exp, but
   will continue with current level of peep at this time given high plt
   pressures and improvement in pao2.  Airway pressures should improve
   further with additional volume removal.  Will also attempt further
   decrease in TV to help (already on 6cc/kg). If able to tolerate this
   change, well next wean fio2 further following abgs closely.
   We continue to follow his bladder pressures to monitor for abd
   compartment syndrome as his very distended abd is contributing to his
   high peep needs,  This should also improve with volume removal.
   He remains febrile but without leukocytosis. We continue to discuss
   potential infectious etiologies, though the most likely source of his
   continued temp is severe pancreatitis w/ inflammation.  Reassuring is
   his hemodynamic improvement and ability to wean off pressors. He is s/p
   ercp with CBD stone removal and stent and his enzymes and lfts are
   trending down.  Will d/c vanco today given no GPC in any cx
s and
   continue empiric zosyn day 5.  Although we note improvement clinically
   in O2 with volume off, given his continued temps will repeat cxr and
   consider repeat abd imaging though would be limited study given no IV
   contrast. His OSH lines have not been changed since transfer fiven his
   very tenuous status, and with no new growth from blood will hold on
   line changes at this time.
   He remains on cvvh and we will attempt increased volume removal as BP
   tolerates maintaining MAPS > 60.  We continue to renally dose meds and
   avoid nephrotoxins. We continue amio gtt for load, for prior rapid
   a-fib, and he remains in nsr. We have a low suspicion for HIT but
   suspect his thrombocytopenia is related to failed liver and sepsis.
   Counts remain stable.
   Pt remains very ill with multi organ failure and poor prognosis though
   we are seeing signs of slow improvement.  We continue to update his HCP
   and family.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-9-26**] 06:21 PM 45.[**Telephone/Fax (5) 1156**] mL/hour, if
   OG outpt is down will start trophic TFs.
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2169-9-23**] 09:11 PM
   Arterial Line - [**2169-9-23**] 09:13 PM
   20 Gauge - [**2169-9-24**] 05:40 AM
   Dialysis Catheter - [**2169-9-24**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-09-28 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: gallstone pancreatitis, sepsis
   24 Hour Events:
   - switched to CVVHDF yesterday for hyper K
   - problem with CVVH line, appears to be kinked and also with some
   pustular drainage around site
   - problem with CVVH machine, renal aware and changing machine today
   - desatted into upper 80s overnight, FiO2 briefly increased to 70%, gas
   unchanged, now on 60%
   - MAPs dropped into 50s overnight, placed on phenylephrine, now weaned
   off
   - TV decreased to 400cc, plateau pressures now 37
   - nursing noted pustular drainage from R nostril yesterday, nasal swab
   sent for g stain and culture
   - RUQ US done per surgery to evaluate for cholecystitis, negative, no
   need to scan unless pressed by dramatic change in clinical status
   - remains oliguric, u/o 5-10 cc/hr
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-9-27**] 09:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-28**] 06:30 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Insulin - Regular - 7 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-9-27**] 07:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-28**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 104 (84 - 104) bpm
   BP: 96/48(61) {92/45(59) - 165/73(92)} mmHg
   RR: 32 (8 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 135.4 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 16 (12 - 28)mmHg
   Bladder pressure: 14 (14 - 23) mmHg
   Total In:
                                                                  5,737 mL
                                                                    826 mL
   PO:
   TF:
   IVF:
                                                                  4,431 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  6,076 mL
                                                                    290 mL
   Urine:
                                                                    171 mL
                                                                     40 mL
   NG:
                                                                     25 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                   -339 mL
                                                                    536 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 0 cmH2O
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 26 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 46 cmH2O
   Plateau: 37 cmH2O
   SpO2: 94%
   ABG: 7.32/45/94.[**Numeric Identifier 299**]/23/-3
   Ve: 12.9 L/min
   PaO2 / FiO2: 157
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.  Responsive
   to suction
   HEENT: Sclera icteric, scleral edema present.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess b/c neck thick
   Lungs: Patient is on a ventilator.  Anteriorly lungs rhonchorous. + air
   movement bilaterally
   CV: Rate 80s, regular rhythm, soft heart sounds so difficult to
   appreciate whether there are any murmurs
   Abdomen:  No bowel sounds, very distended and tympanic, some dullness
   to percussion at flanks and inferiorly
   GU: foley present
   Ext: warm, well perfused, 1+ pulses dp, 2+ radial pulses, edematous
   extremities. Pus noted in femoral crease on R and minimal pustular
   drainage noted around femoral line
   Labs / Radiology
   131 K/uL
   10.4 g/dL
   158 mg/dL
   6.6 mg/dL
   23 mEq/L
   5.1 mEq/L
   90 mg/dL
   99 mEq/L
   134 mEq/L
   30.4 %
   11.1 K/uL
        [image002.jpg]
                            [**2169-9-27**]  06:27 AM
                            [**2169-9-27**]  09:09 AM
                            [**2169-9-27**]  09:22 AM
                            [**2169-9-27**]  12:38 PM
                            [**2169-9-27**]  12:56 PM
                            [**2169-9-27**]  05:36 PM
                            [**2169-9-27**]  06:05 PM
                            [**2169-9-28**]  05:15 AM
                            [**2169-9-28**]  05:39 AM
                            [**2169-9-28**]  06:34 AM
   WBC
   11.1
   Hct
   30.4
   Plt
   131
   Cr
   6.1
   6.6
   TCO2
   21
   24
   25
   24
   24
   24
   Glucose
   130
   136
   142
   158
   Other labs: PT / PTT / INR:13.9/30.0/1.2, ALT / AST:92/125, Alk Phos /
   T Bili:54/6.5, Amylase / Lipase:200/14, Differential-Neuts:77.3 %,
   Lymph:16.7 %, Mono:4.6 %, Eos:1.2 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:705 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Sputum [**9-28**]:  2+ budding yeast with pseudohyphae
   Nasal swab [**9-27**]: 1+ [**Last Name (un) 9431**], gram + rods, yeast
   Stool, urine, blood cultures negative to date
   CXR [**9-27**]:  ETT approx 5 cm superior to carina, OG tube coiled in
   oropharynx
   Assessment and Plan
   55 yo male with pmh of HTN and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure:  ARDS likely as p/f ratio 157. Has had
   difficulty maintaining oxygenation, despite alveolar recruitment
   maneuvers, positioning of bed, very elevated PEEP, esophageal balloon
   pressures but recently stable in 90s % O2sat w 60% FiO2.  Change of bed
   with 35 degree tilting appeared to help but difficult to do accurate
   CVVH w bed tilted, so he was supine.
   - Concerning as PIP and Plateau pressures are quite high. ( C=P/V)
   Goals to increase compliance: decrease volume with CVVH; Decrease TV to
   400, and if possible decrease peep (unlikely able to decrease this as
   do not want to de-recruit alveoli any further).  Will continue to
   decrease TV slightly as tolerated
   - Decrease FiO2 and check ABGs to get paO2 in 60s for ARDS protocol
   - Midazolam and fentanyl prn for sedation
   - Continue bed positioning as tolerated to help improve increased
   perfusion to more ventilated areas as will be on CVVH break today
   - line holiday today, so will do lasix trial today with goal -500
   negative today.  Load 100 mg IV lasix, then lasix gtt at 5 mg
   .
    # Hypotension/Septic Shock:  Weaned off levophed [**9-26**]. Vasopressin
   added this AM for MAPs < 60.
   - lasix gtt trial today
   - continue vasopressin, can turn off if MAPs high in PM
   - trend fever curve and WBC off CVVH
expect some rise in temps off CVVH
   - re-start Vanc 1 g today and will check trough tomorrow for potential
   line infection with skin flora.
   - plan to replace HD line and sub-clavian line tomorrow by IR in angio
   suite if remains stable enough to travel
   - f/u  blood cultures, Ucx
s and sputum cultures (negative so far)
   - Zosyn, renally dosed due to concern for possible cholangitis;
   .
   # Acute renal failure:  Cr  up off CVVH.  Likely ATN highest on
   differential at this point. Started CVVH Monday afternoon [**9-25**];
   patient tolerating well.  Will hold CVVH today for pus around femoral
   line, plan to re-site lines by IR tomorrow
   - lasix loading dose 100 mg IV then 5 mg gtt
   - Renal following
   # Atrial Fibrillation: Patient on amio gtt in sinus rhythm. Dilt drip
   stopped [**9-25**]
   - Continue amio gtt for now for entire loading dose as patient cannot
   take po
   - Goal to keep patient
s HR < 120 as to improve CO and perfusion
   - Keep track of Amio dosage; once 10 grams is achieved, may need to
   give maintenance dose through IV (200 mg/day)
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase
   - f/u ERCP/GI recs
   - Will f/u surgery recs.
   - nutrition consult to start trophic tube feeds today, if residuals
   increase, will start pro-motility agents, if residuals still high, will
   hold off on tube feeds
   - Trend his LFTs and pancreatic enzymes
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt.
   - Continue insulin gtt for now.
   - Trial of trophic tube feeds today and attempt to wean down insulin
   gtt
   .
   # Anemia: The patient's Hct decreased to 31 (from 52 at OSH when
   hemoconcentrated) but stable currently.  Guaiac + diarrhea + fluids
   - Active type and screen.
   - Transfuse if Hct < 25
   - Continue to trend.
   .
   # Thrombocytopenia:  His platelets are up slightly today.  Low
   suspicion for HIT, but HIT antibody sent, and subq heparin DCed
   yesterday.  [**Month (only) 8**] be secondary to Zosyn. (platelets 202 at outside
   hospital admission)
   - Continue to trend.
   - No signs of active bleeding
   ICU Care
   Nutrition:
   Trophic tube feed trial today
   Glycemic Control:
   Lines:  Right subclavian, Left art-line both from OSH; Femoral HD line
   Multi Lumen - [**2169-9-23**] 09:11 PM
   Arterial Line - [**2169-9-23**] 09:13 PM
   Dialysis Catheter - [**2169-9-24**] 08:00 PM
   20 Gauge - [**2169-9-25**] 02:40 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments: HCP is Attorney
   [**Name (NI) 156**] status: DNR
   Disposition: ICU
   10:52
   ------ Protected Section ------
   Seen and examined patient with MS4 and agree with above note. Briefly,
   55 yo male in septic shock [**1-16**] pancreatitis; with ARF and respiratory
   failure slowly improving. Will pull femoral line today and re-start
   vancomycin. Tryi to wean vent settings to decrease plateau pressures
   some. Lasix trial today as CVVH will be on hold today as access and
   machine are not working.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 9271**], MD
   on:[**2169-9-28**] 11:24 ------
   PGY-1 Addendum:
   Problem [**Name (NI) 670**]:
   #Access: patient was a transfer from an outside with severe
   pancreatitis, he had a right subclavian line in place from the outside
   hospital.  On arrival, he was very unstable, and all three lumens of
   his line were needed on admission.  He was initially too unstable for
   any line changes, then he was evaluated by IR for placement of an HD
   line, they were unable to place anything in his neck, and had to place
   the HD line in his right femoral.  He has remained unstable and we have
   unable since his admission to place any lines in his neck, as a result
   his outside hospital line has remained in place.  Since he has remained
   febrile, and there is pus coming from his HD line, that line will be
   pulled today.  Tomorrow, since he is more stable he will go to the IR
   suite for placement of another HD line in his neck, and
   replacement/resiting of the subclavian line.  Throughout his hospital
   course his blood cultures have remained negative.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3081**] [**Last Name (NamePattern1) 9286**], MD
   on:[**2169-9-28**] 14:07 ------

2169-09-28 10:22:00 Physician Attending Progress Note
Chief Complaint: gs pancreatitis, resp failure, arf
   HPI:  55M with severe GS pancreatitis c/b MOSD.
   24 Hour Events:
 ULTRASOUND - At [**2169-9-27**] 05:12 PM
 SPUTUM CULTURE - At [**2169-9-28**] 04:09 AM
   --Problems with cvvh line,  kinked, also noted pus at entry site-->
   plan for new line placement by  IR
   --Nursing also noted purulent drainage from R nostril
nasal swab sent
   fro gs and cx and esoph balloon removed.
   --tolerated TV decrease with plt pr down to 37
   --Transient desat 80
s overnight
fio2 up to 70%, abg stable, titrated
   back to 60% fio2.
   RUQ GB US performed--GS  but no evidence of acute chole
   --maps dropped to 50s overnight-->levophed restarted, weaned off,
   vasopressin restarted this am pre rounds
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-9-27**] 09:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-28**] 06:30 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Insulin - Regular - 9 units/hour
   Amiodarone - 0.5 mg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-9-27**] 07:45 PM
   Other medications: per [**Month (only) **] (reviewed)
   Changes to medical and family history: unchanged from admission
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-28**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.5
   HR: 98 (84 - 104) bpm
   BP: 106/58(71) {92/45(59) - 165/72(92)} mmHg
   RR: 11 (8 - 33) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135.4 kg (admission): 120 kg
   Height: 71 Inch
   CVP: 20 (13 - 28)mmHg
   Bladder pressure: 14 (14 - 23) mmHg
   Total In:
                                                                  5,737 mL
                                                                  1,004 mL
   PO:
   TF:
   IVF:
                                                                  4,431 mL
                                                                    408 mL
   Blood products:
   Total out:
                                                                  6,076 mL
                                                                    308 mL
   Urine:
                                                                    171 mL
                                                                     58 mL
   NG:
                                                                     25 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                   -339 mL
                                                                    696 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 26 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 45 cmH2O
   Plateau: 40 cmH2O
   SpO2: 92%
   ABG: 7.32/45/94.[**Numeric Identifier 299**]/23/-3
   Ve: 12.5 L/min
   PaO2 / FiO2: 157
   Physical Examination
   General Appearance: Overweight / Obese, gross anasarca, sedated and
   intubated
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: improved air movement anteriorly, diminished at
   bases, scant rhonchi
   RR, s1 s2
   Abdominal: No(t) Softer, remains distended, BS hypoactive
   Skin:  warm
   Neurologic: Responds to: Unresponsive except to sx, no spont movement
   Labs / Radiology
   10.4 g/dL
   131 K/uL
   158 mg/dL
   6.6 mg/dL
   23 mEq/L
   5.1 mEq/L
   90 mg/dL
   99 mEq/L
   134 mEq/L
   30.4 %
   11.1 K/uL
        [image002.jpg]
                            [**2169-9-27**]  06:27 AM
                            [**2169-9-27**]  09:09 AM
                            [**2169-9-27**]  09:22 AM
                            [**2169-9-27**]  12:38 PM
                            [**2169-9-27**]  12:56 PM
                            [**2169-9-27**]  05:36 PM
                            [**2169-9-27**]  06:05 PM
                            [**2169-9-28**]  05:15 AM
                            [**2169-9-28**]  05:39 AM
                            [**2169-9-28**]  06:34 AM
   WBC
   11.1
   Hct
   30.4
   Plt
   131
   Cr
   6.1
   6.6
   TCO2
   21
   24
   25
   24
   24
   24
   Glucose
   130
   136
   142
   158
   Other labs: PT / PTT / INR:13.9/30.0/1.2, ALT / AST:92/125, Alk Phos /
   T Bili:54/6.5, Amylase / Lipase:200/14, Differential-Neuts:77.3 %,
   Lymph:16.7 %, Mono:4.6 %, Eos:1.2 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:705 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Imaging: cxr--some clearing in b/l lung zones, continued b/l effusions,
   ET looks ok
   Microbiology: sputum [**9-27**]--yeast
   stool, bl urine ngtd
   Assessment and Plan
   55M with severe GS pancreatitis c/b MOSD.
   Primary issues remain:
          severe GS pancreatitis
          Resp failure/ARDS
          hypotension
          fevers
          ARF
          hyperglycemia
          thrombocytopenia (improving)
              anemia
   Pt remains very tenuous. He continues to have temps, more notable as
   CVVH is on hold. His wbc count is up slightly today.  His MAPS have
   dropped intermittently, though this is in the context of sig volume
   removal over the past few days.  He is back on vasopressin this am. His
   FIO2 is down overall, now back at 60% though this was increased
   transiently as well in the setting of desatturation. His lactate
   remains wnl. We remain concerned for evolving infection, recurrent
   sepsis, though volume/fluid shifts may be contributing to some extent
   to his hypotension.  His pancreatic and lft continue to decrease and
   ruq us gb yesterday demonstrated no new acute process.
   Agree with plan to continue aggressive supportive care for GS
   pancreatitis and MODS.
   --He remains very tenuous from resp standpoint in setting of severe
   ards and distended abd.  We have been making are making slow progress
   in terms of oxygen requirements and will wean O2 further as able.  We
   continue with current high PEEP, noting his esoph balloon is now out.
   His compliance remains very poor with elevated Plt and PIPs.  We made a
   little progress in his plt pressures yesterday by reducing his TV
   further, but they remain high.  We will come down a little more today
   and follow allowing permissive hypercapnea.  He is well sedated without
   dysynchrony with the vent and I do not think paralysis will have a big
   effect.  We could try PCV next.  We hope that additional volume removal
   will help further.  We have followed his bladder pressures and while
   there is no evidence at present of abd compartment syndrome, though his
   abd distention is contributing to his high peep needs.
   --His ongoing temps may be [**1-16**] his underlying
   pancreatitis/inflammation. We continue to discuss other potential
   infection etiologies. Now his wbc ct  is slightly and his BP down, back
   on pressors.  We note new pus draining at his HD line site, raising our
   suspicion for line infection.  We will d/c his HD line, sending tip for
   cx.  Will add back vanco and we otherwise continue zosyn Day 6.  Will
   give line holiday and plan for IR placed HD line as well as CVL change
   tomorrow.  Esoph balloon is out and we follow up pending cx data noting
   purulence from nostril.  Will consider imaging his sinuses. We will
   continue to follow abd exam and consider repeat belly imaging.  His
   pancreatic enzymes and lfts are improving.
   --In terms of his recurrent pressor requirement, suspect this is [**1-16**]
   volume shifts and probably infection.  Less likely cardiac. His cvp is
   tanked.  As BP tolerates, we will stop pressors, maintain MAPS > 65.
   Will trend lactate which has remained wnl.  We continue amio gtt to
   complete his 10 gm load, for prior rapid a-fib.  He remains in nsr.
   --CVVH on hold today due to line issues as above. Will trial lasix gtt
   and assess for response.  We continue to renally dose meds and avoid
   nephrotoxins.
   -Will hold on tpn today pending line replacement.  Noting minimal OG
   outpt we will start trophic TFs.
   -Pt remains very ill with multi organ failure and poor prognosis. We
   continue to update his HCP and family.
   Remainder as per resident note.
   ICU Care
   Glycemic Control:  insulin gtt
   Lines:
   Multi Lumen - [**2169-9-23**] 09:11 PM
   Arterial Line - [**2169-9-23**] 09:13 PM
   20 Gauge - [**2169-9-24**] 05:40 AM
   Dialysis Catheter - [**2169-9-24**] 08:00 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : icu
   Total time spent: 50

2169-09-29 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  pancreatitis, respiratory failure
   24 Hour Events:
   - CVVH line kinking with some yellow drainage around it
   - IR d/c
d HD line approx 5pm [**9-28**], tip cultured, re-started Vanc.
   - plan to re-site HD line today and change subclavian by IR in angio
   suite
   - started trophic tube feeds because TPN stopped d/t line problems,
   tolerated well
   - TF recs: 10 cc/hr of novosource renal. when able to advance toward
   goal; novosource renal with 35 mg of beneprotein at 35 cc/hr x 24 hours
   - TV decreased to 370, FiO2 weaned to 50%, PEEP down to 22 with plateau
   pressure 37.  ABG 7.31/40/77
   - desatted into 80s in context of placing flexiseal, placed briefly
   back on 100% FiO2, now back to 70%
   - Vanc trough 34 this am
   - trial of lasix off CVVH yesterday, no urine output to 100mg then 160
   mg IV
   - kayexalate started for hyper K, good stool output, K decreased to
   4.9, now 5.4
   - renal recs to restart CVVHDF today.  hold vanc and check trough,
   continue zosyn 6 hrly dosing
   - foley changed given some sediment appearing in line, u/a and culture
   sent
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-9-28**] 10:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-29**] 12:00 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 10 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-9-28**] 12:00 PM
   Fentanyl - [**2169-9-28**] 12:00 PM
   Furosemide (Lasix) - [**2169-9-28**] 02:18 PM
   Pantoprazole (Protonix) - [**2169-9-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-29**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.8
C (100.1
   HR: 80 (75 - 103) bpm
   BP: 89/39(51) {89/39(51) - 135/62(80)} mmHg
   RR: 32 (0 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135.4 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 23 (20 - 26)mmHg
   Bladder pressure: 16 (16 - 18) mmHg
   Total In:
                                                                  2,562 mL
                                                                    610 mL
   PO:
   TF:
                                                                     18 mL
   IVF:
                                                                  1,708 mL
                                                                    610 mL
   Blood products:
   Total out:
                                                                    406 mL
                                                                     60 mL
   Urine:
                                                                    156 mL
                                                                     60 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,156 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 370 (370 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 38 cmH2O
   Compliance: 33.6 cmH2O/mL
   SpO2: 92%
   ABG: 7.28/44/69/23/-5
   Ve: 11.3 L/min
   PaO2 / FiO2: 99
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.  Responsive
   to suction
   HEENT: Sclera icteric, scleral edema present.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess b/c neck thick
   Lungs: Patient is on a ventilator.  Anteriorly lungs with improved
   breath sounds. + air movement bilaterally
   CV: Rate 80s, regular rhythm, soft heart sounds so difficult to
   appreciate whether there are any murmurs
   Abdomen:  No bowel sounds, very distended and tympanic, some dullness
   to percussion at flanks and inferiorly
   GU: foley present
   Ext: warm, well perfused, 1+ pulses dp, 2+ radial pulses, edematous
   extremities. Pus noted in femoral crease on R and minimal pustular
   drainage noted around femoral line
   Labs / Radiology
   189 K/uL
   10.4 g/dL
   84 mg/dL
   8.4 mg/dL
   23 mEq/L
   4.9 mEq/L
   112 mg/dL
   99 mEq/L
   136 mEq/L
   31.9 %
   19.1 K/uL
        [image002.jpg]
   INR 1.3
   U/A:  bloody with 257 RBCs, 31 WBCs, no bacteria, o/w negative
   CXR:  bilateral pleural effusions and/or atelectasis, likely LLL and
   RML and RLL
                            [**2169-9-28**]  06:34 AM
                            [**2169-9-28**]  02:35 PM
                            [**2169-9-28**]  02:57 PM
                            [**2169-9-28**]  06:29 PM
                            [**2169-9-28**]  08:56 PM
                            [**2169-9-28**]  10:39 PM
                            [**2169-9-29**]  12:21 AM
                            [**2169-9-29**]  04:34 AM
                            [**2169-9-29**]  05:05 AM
                            [**2169-9-29**]  06:08 AM
   WBC
   19.1
   Hct
   31.9
   Plt
   189
   Cr
   7.1
   8.4
   TCO2
   24
   22
   22
   20
   21
   21
   23
   22
   Glucose
   121
   84
   Other labs: PT / PTT / INR:15.4/30.0/1.3, ALT / AST:73/92, Alk Phos / T
   Bili:70/6.7, Amylase / Lipase:200/14, Differential-Neuts:77.3 %,
   Lymph:16.7 %, Mono:4.6 %, Eos:1.2 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.6 g/dL, LDH:679 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   55 yo male with pmh of HTN and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure:  ARDS likely as p/f ratio 99.
   Ventilation per ARDS protocol with goal minimize TV and PEEP to keep
   plateau pressures low, goal < 40.  Has tolerated weaning to TV 370,
   PEEP 22, FiO2 50% although with desaturations on
   movement/rotation/stimulation to 80s requiring transient increase in
   FiO2.  Sedation increased due to overbreathing on vent and need to
   ventilate at lower TVs, which were not tolerated on decreased sedation.
   - Continue to manage per ARDS net, goal PaO2 > 60, plateau pressures <
   40 for now given increased abdominal pressure and PEEP requirement.
   - will likely need increased FiO2/PEEP for IR procedure today.
   Re-check gas once back from IR and continue to manage vent settings
   according to ARDS net goals.
   - Midazolam and fentanyl prn for sedation
   - Continue bed positioning as tolerated to help improve increased
   perfusion to more ventilated areas while on CVVH break today
   - restart CVVHDF once access obtained to remove volume.  Respiratory
   status will likely benefit from volume removal.
   .
    # Hypotension/Septic Shock:  On vasopressin and levophed.
   Intermittently has required phenylephrine to maintain MAPs >60.
   Continues to spike low grade temps, most likely source at this point is
   line infection.  On zosyn for concern for cholangitis given
   infected-appearing bile by ERCP.  Re-started Vanc [**9-28**] for suspected
   line infection, although vanc trough was therapeutic even after vanc
   was originally d/c
   - re-site HD and subclavian lines by IR today.  Replace A-line once
   back from IR.  Culture all tips.
   - foley changed yesterday
   - continue vanc and zosyn for now.
   - f/u culture data.
   - continue vasopressin.  levophed and phenylephrine PRN for MAPs < 60.
   Goal MAP > 65.  Will likely require some pressure support for IR
   procedure today.
   - trend fever curve and WBC
   .
   # Acute renal failure:  BUN/Cr/K/PO4 up off CVVH.  Likely ATN highest
   on differential at this point. Started CVVH Monday afternoon [**9-25**];
   patient tolerating well.  D/c
d [**9-27**] overnight for line kinking and
   pustular drainage around line.
   - restart CVVHDF after access today
   - Renal following
   # Atrial Fibrillation: Patient on amio gtt in sinus rhythm. Dilt drip
   stopped [**9-25**]
   - Continue amio gtt for now for entire loading dose as patient cannot
   take po
   - Goal to keep patient
s HR < 120 as to improve CO and perfusion
   - Keep track of Amio dosage; once 10 grams is achieved, may need to
   give maintenance dose through IV (200 mg/day)
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase.   LFTs trending down
   - f/u ERCP/GI recs
   - Will f/u surgery recs.
   - trophic feeds started [**9-28**], NPO for procedure [**9-29**], will re-start
   and advance as tolerated
   - re-start TPN once access achieved after IR procedure for now with
   plan to bridge to full tube feeds
   - Trend his LFTs and pancreatic enzymes
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt.
   - Continue insulin gtt for now given changes in TPN/tube feeds.
   - Trial of trophic tube feeds today and attempt to wean down insulin
   gtt
   - will calculate 24 hour insulin needs once on stable tube feeds and
   transition to long-acting regimen
   .
   # Anemia: The patient's Hct decreased to 31 (from 52 at OSH when
   hemoconcentrated) but stable currently.  Guaiac + diarrhea + fluids
   - Active type and screen.
   - Transfuse if Hct < 25
   - Continue to trend.
   .
   # Thrombocytopenia:  His platelets are up slightly today.  Low
   suspicion for HIT, but HIT antibody sent, and subq heparin DCed
   yesterday.  [**Month (only) 8**] be secondary to Zosyn. (platelets 202 at outside
   hospital admission)
   - Continue to trend.
   - No signs of active bleeding
   ICU Care
   Nutrition: NPO for procedure, will plan to advance tube feeds as
   tolerated with TPN bridge
   Glycemic Control:  insulin gtt
   Lines:
   Multi Lumen - [**2169-9-23**] 09:11 PM
   Arterial Line - [**2169-9-23**] 09:13 PM
   20 Gauge - [**2169-9-24**] 05:40 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:  HCP is his lawyer
   [**Name (NI) 156**] status: DNR / DNI
   Disposition:  ICU
   11:17

2169-09-29 10:37:00 Physician Attending Progress Note
Chief Complaint: gs pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55M with severe GS pancreatitis c/b MOSD.
   24 Hour Events:
 BLOOD CULTURED - At [**2169-9-28**] 11:01 AM
   BC x2---aline and cvl
 DIALYSIS CATHETER - STOP [**2169-9-28**] 07:00 PM, TPN held for access.
   CVVH held.  K up but responded to kayexalate.
 FEVER - 101.7
F - [**2169-9-28**] 10:30 AM
   Vanco resumed. Plan for IR palced HD line and resiting CVL today.
   Trophic TFs started--now off for line placement
   TVs decreased to 370,peep to 22--> fio2 down to 50% but now at 70%
   some improvement in plt pr
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-9-28**] 10:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-29**] 12:00 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-9-28**] 12:00 PM
   Fentanyl - [**2169-9-28**] 12:00 PM
   Furosemide (Lasix) - [**2169-9-28**] 02:18 PM
   Pantoprazole (Protonix) - [**2169-9-28**] 08:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-29**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.8
C (100
   HR: 78 (75 - 102) bpm
   BP: 128/62(79) {89/39(51) - 135/62(80)} mmHg
   RR: 32 (0 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135.4 kg (admission): 120 kg
   Height: 71 Inch
   CVP: 20 (20 - 26)mmHg
   Bladder pressure: 14 (14 - 18) mmHg
   Total In:
                                                                  2,563 mL
                                                                    783 mL
   PO:
   TF:
                                                                     18 mL
   IVF:
                                                                  1,709 mL
                                                                    783 mL
   Blood products:
   Total out:
                                                                    406 mL
                                                                     86 mL
   Urine:
                                                                    156 mL
                                                                     86 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,157 mL
                                                                    697 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 370 (370 - 370) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 70%--> 50%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 37 cmH2O
   Compliance: 37 cmH2O/mL
   SpO2: 93%
   ABG: 7.29/45/74/23/-4
   Ve: 11.3 L/min
   PaO2 / FiO2: 106
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished: )
   Abdominal: Soft, Distended, hypoactive
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive X
   to sx, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   189 K/uL
   84 mg/dL
   8.4 mg/dL
   23 mEq/L
   4.9 mEq/L
   112 mg/dL
   99 mEq/L
   136 mEq/L
   31.9 %
   19.1 K/uL
        [image002.jpg]
                            [**2169-9-28**]  02:35 PM
                            [**2169-9-28**]  02:57 PM
                            [**2169-9-28**]  06:29 PM
                            [**2169-9-28**]  08:56 PM
                            [**2169-9-28**]  10:39 PM
                            [**2169-9-29**]  12:21 AM
                            [**2169-9-29**]  04:34 AM
                            [**2169-9-29**]  05:05 AM
                            [**2169-9-29**]  06:08 AM
                            [**2169-9-29**]  07:41 AM
   WBC
   19.1
   Hct
   31.9
   Plt
   189
   Cr
   7.1
   8.4
   TCO2
   22
   22
   20
   21
   21
   23
   22
   23
   Glucose
   121
   84
   Other labs: PT / PTT / INR:15.4/30.0/1.3, ALT / AST:73/92, Alk Phos / T
   Bili:70/6.7, Amylase / Lipase:200/14, Differential-Neuts:80.5 %,
   Lymph:11.7 %, Mono:4.7 %, Eos:2.5 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:679 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:7.2 mg/dL
   Imaging: cxr-->et ok, og diff to appreciate, some cleaing of int edema,
   b/l effusions and atelectasis
   Microbiology: sputum yeast
   nasal swab yeast
   bl stool urine cx ngtd
   Assessment and Plan
   55M with severe GS pancreatitis c/b MOSD.
   Primary issues remain:
          severe GS pancreatitis
          Resp failure/ARDS
          hypotension
          fevers
          ARF
          hyperglycemia
          thrombocytopenia (improving)
              anemia
   Pt remains very tenuous. He continues to have temps. His wbc con
t to
   rising.He is needing more pressors though still only low amts of
   elvophed + vasopressin.  Some of this may be related to new
   lineninfection/sepsis noting pus at HD line site line no out.  He is so
   far off his starling curve that we may also see some further
   improvement oncw he is back on cvvh if we are able to remove fluids.
    His MAPS have dropped intermittently, though this is in the context of
   sig volume removal over the past few days.  He is back on vasopressin
   this am. His FIO2 is down overall, now back at 60% though this was
   increased transiently as well in the setting of desatturation. His
   lactate remains wnl. We remain concerned for evolving infection,
   recurrent sepsis, though volume/fluid shifts may be contributing to
   some extent to his hypotension.  His pancreatic and lft continue to
   decrease and ruq us gb yesterday demonstrated no new acute process.
   Agree with plan to continue aggressive supportive care for GS
   pancreatitis and MODS.
   --He remains very tenuous from resp standpoint in setting of severe
   ards and distended abd.  We will wean fio2 further as we are able once
   back on cvvh, if he tolerates volume off.  He remains on low TVs with
   permissive hypercapnea noting some improvement in plt pressures with
   this reduction as well as drop in peep to 22.
   We have been making are making slow progress in terms of oxygen
   requirements and will wean O2 further as able.  We continue with
   current high PEEP, noting his esoph balloon is now out. His compliance
   remains very poor with elevated Plt and PIPs.  We made a little
   progress in his plt pressures yesterday by reducing his TV further, but
   they remain high.  We will come down a little more today and follow
   allowing permissive hypercapnea.  He is well sedated without
   dysynchrony with the vent and I do not think paralysis will have a big
   effect.  We could try PCV next.  We hope that additional volume removal
   will help further.  We have followed his bladder pressures and while
   there is no evidence at present of abd compartment syndrome, though his
   abd distention is contributing to his high peep needs.
   --His ongoing temps may be [**1-16**] his underlying
   pancreatitis/inflammation.  Also with probable new line infection.  We
   continue to discuss other potential infection etiologies. He is on
   zosyn and now back on vanco.  His HD line is out.  Plan for IR resiting
   his line and resite his CVL.  We continue to montior cx
d though with
   no new growth to date from urine, blood, sptuum, or stool.
   Now his wbc ct  is slightly and his BP down, back on pressors.  We note
   new pus draining at his HD line site, raising our suspicion for line
   infection.  We will d/c his HD line, sending tip for cx.  Will add back
   vanco and we otherwise continue zosyn Day 6.  Will give line holiday
   and plan for IR placed HD line as well as CVL change tomorrow.  Esoph
   balloon is out and we follow up pending cx data noting purulence from
   nostril.  Will consider imaging his sinuses. We will continue to follow
   abd exam and consider repeat belly imaging.  His pancreatic enzymes and
   lfts are improving.  Will change a-line site, as I now realize this too
   was placed at OSH.
   --In terms of his recurrent pressor requirement, suspect this is [**1-16**]
   volume shifts and probably infection. Attempt to wean pressors as we
   are able after line placment, and as CVVH is resumed.
   Less likely cardiac. His cvp is tanked.  As BP tolerates, we will stop
   pressors, maintain MAPS > 65. Will trend lactate which has remained
   wnl.  We continue amio gtt to complete his 10 gm load, for prior rapid
   a-fib.  He remains in nsr.
   --CVVH on hold today due to line issues as above with plan to resume.
   Will trial lasix gtt and assess for response.  We continue to renally
   dose meds and avoid nephrotoxins.
   -Pt remains very ill with multi organ failure and poor prognosis. We
   continue to update his HCP and family.
   Remainder as per resident note.
   ICU Care
   Nutrition:
   Comments: trophic tfs held for procedure, tpn on hold
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2169-9-23**] 09:11 PM
   Arterial Line - [**2169-9-23**] 09:13 PM
   20 Gauge - [**2169-9-24**] 05:40 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-09-30 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CVVH --? rate was increased from 50cc/hr to 200cc/hr... and levophed
   was titrated down.  CVVH rate later had to be decreased back down.
   CVVH filter clotted up again after 8 hrs (should last 3 days); not
   using citrate this time, but clotted up easily even w citrate last
   time.
   - vanc trough in AM
   - continues on amio gtt load--> should have had about 6gm of loading
   dose by today
   - consider advancing trophic feeds while restarting TPN; can DC TPN
   after he reaches goal for trophic feeds however long it takes
   - updated HCP about line infections, new lines, CVVH, etc-- he wanted
   to definitely meet w doctors [**First Name (Titles) **] [**Last Name (Titles) 9466**] (he can call Monday to set up a
   time) to talk about goals of care and branchpoint decisions
   - Night nurse has concern about re-addressing code status to reverse it
   back to FULL CODE possibly if patient continues to make big
   improvements w CVVH
   - FiO2 titrated down to 90% but has much room to keep titrating down.
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-9-28**] 10:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-29**] 05:53 PM
   Meropenem - [**2169-9-29**] 10:59 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Insulin - Regular - 5 units/hour
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 12 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-9-29**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-9-30**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 76 (70 - 87) bpm
   BP: 106/43(59) {95/43(59) - 152/72(86)} mmHg
   RR: 34 (0 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135.4 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 19 (19 - 20)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  2,640 mL
                                                                  1,519 mL
   PO:
   TF:
                                                                     62 mL
                                                                     38 mL
   IVF:
                                                                  2,106 mL
                                                                    982 mL
   Blood products:
   Total out:
                                                                  1,891 mL
                                                                  1,745 mL
   Urine:
                                                                    164 mL
                                                                     25 mL
   NG:
   Stool:
                                                                  1,020 mL
   Drains:
   Balance:
                                                                    749 mL
                                                                   -226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 370 (370 - 370) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 26 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10
   PIP: 46 cmH2O
   Plateau: 41 cmH2O
   Compliance: 24.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.24/50/86/22/-6
   Ve: 12.9 L/min
   PaO2 / FiO2: 96
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.  Responsive
   to suction
   HEENT: Sclera icteric, scleral edema present.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess b/c neck thick
   Lungs: Patient is on a ventilator.  Anteriorly lungs with improved
   breath sounds. + air movement bilaterally
   CV: Rate 80s, regular rhythm, soft heart sounds so difficult to
   appreciate whether there are any murmurs
   Abdomen:  No bowel sounds, very distended and tympanic, some dullness
   to percussion at flanks and inferiorly
   GU: foley present
   Ext: warm, well perfused, 1+ pulses dp, 2+ radial pulses, edematous
   extremities. Pus noted in femoral crease on R and minimal pustular
   drainage noted around femoral line
   Labs / Radiology
   237 K/uL
   10.1 g/dL
   191 mg/dL
   7.9 mg/dL
   22 mEq/L
   4.6 mEq/L
   110 mg/dL
   97 mEq/L
   135 mEq/L
   31.1 %
   27.0 K/uL
        [image002.jpg]
                            [**2169-9-29**]  12:21 AM
                            [**2169-9-29**]  04:34 AM
                            [**2169-9-29**]  05:05 AM
                            [**2169-9-29**]  06:08 AM
                            [**2169-9-29**]  07:41 AM
                            [**2169-9-29**]  04:21 PM
                            [**2169-9-29**]  05:11 PM
                            [**2169-9-29**]  11:22 PM
                            [**2169-9-30**]  03:42 AM
                            [**2169-9-30**]  04:30 AM
   WBC
   19.1
   27.0
   Hct
   31.9
   31.1
   Plt
   189
   237
   Cr
   8.4
   7.9
   TCO2
   21
   23
   22
   23
   22
   22
   22
   22
   Glucose
   84
   191
   Other labs: PT / PTT / INR:15.4/30.0/1.3, ALT / AST:59 (73)/64(92), Alk
   Phos / T Bili:89 (70)/4.8 (6.7), Amylase / Lipase:39/11,
   Differential-Neuts:80.5 %, Lymph:11.7 %, Mono:4.7 %, Eos:2.5 %,
   Fibrinogen:615 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:652
   IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:7.5 mg/dL
Micro: [**2169-9-28**] 1:25 am SPUTUM  Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2169-9-28**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora YEAST.    SPARSE GROWTH.
[**2169-9-27**] 3:54 pm ASPIRATE  Source: Nasal swab. **FINAL REPORT [**2169-9-29**]**
   GRAM STAIN (Final [**2169-9-27**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   YEAST(S).
   RESPIRATORY CULTURE (Final [**2169-9-29**]):
      RARE GROWTH Commensal Respiratory Flora.
      YEAST.    SPARSE GROWTH.
[**9-24**] (blood), [**9-25**](blood), [**9-28**] (blood), [**9-29**] (urine and cath tip): NGTD
Radiology: None this AM
   Assessment and Plan
   55 yo male with pmh of HTN and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure:  ARDS likely as p/f ratio 96.
   Ventilation per ARDS protocol with goal minimize TV and PEEP to keep
   plateau pressures low, goal < 40.  Has tolerated weaning to TV 370.
   S/P IR procedure yesterday likely derecruited a lot of lung as patient
   is on higher FiO2 requirements and higher PEEP. Patient slowly
   improving, but still on very high settings to maintain appropriate
   oxygen levels.
   - Continue to manage per ARDS net, goal PaO2 > 60, plateau pressures <
   40 for now given increased abdominal pressure and PEEP requirement.
   - Decrease FiO2 to 80% and check ABG.
   - Midazolam and fentanyl prn for sedation
   - Continue bed positioning as tolerated to help improve increased
   perfusion to more ventilated areas while on CVVH break today
   - restart CVVHDF once access obtained to remove volume.  Respiratory
   status will likely benefit from volume removal.
   .
    # Hypotension/Septic Shock:  On vasopressin and levophed to maintain
   appropriate MAPs. Continues to spike low grade temps with increasing
   WBC. Most likely source at this point is line infection, although
   removal of lines and treatment has not changed patient
s clinical
   status.  Was on Zosyn for x days, but overnight changed to meropenem
   for broader coverage.  Re-started Vanc [**9-28**] for suspected line
   infection. Other sources: VAP (unable to see on CXR in setting of
   ARDS); Sinusitis: but patient is being treated for this and has had no
   more discharge from his nares. Intra-abdominal is unlikely as RUQ u/s
   negative and enzymes are all trending down. C. diff possibility
   (previous was negative) possible DVT, but unlikely to cause significant
   wbc.
   - if patient
s respiratory status improves consider CT of
   abdomen/chest.
   - continue vanc and meropenem (day 1: [**2169-9-29**]) for now.  (Vanc Trough
   22.2 this AM)
   - Vanc trough this PM before dosage: should dose all Abx with a CrCl of
   < 30 while on CVVH per Renal
   - Will double cover for pseudomonas with Cipro (day 1: [**2169-9-30**])
   - f/u culture data.
   - Check C. diff today
   - Lactate pending
   - continue vasopressin.  levophed for MAPs < 65.  Wean down as
   tolerated
   - trend fever curve and WBC
   - foley changed [**9-28**]); New lines placed [**2169-9-29**]
   - If still unable to find source, consider LENI
s to rule out DVT.
   .
   # Acute renal failure:  BUN/Cr/K/PO4 up off CVVH.  Likely ATN highest
   on differential at this point. Started CVVH Monday afternoon [**9-25**];
   patient tolerating well.  D/c
d [**9-27**] overnight for line kinking and
   pustular drainage around line.  Re-started [**9-29**] as new IR lines
   placed, but only lasted 8 hours due to clogging filter. Concern that
   patient may be a bit intravascularly depleted and the HD catheter is
   sucking against the wall of the vessel causing alarms to sound.
   - Will give albumin today with CVVH to help mobilize some extravascular
   space into intravascular compartment.
   - Ensure technical difficulties are addressed and fixed so CVVH can
   continue
   - Renal following
   # Atrial Fibrillation: Patient on amio gtt in sinus rhythm. Dilt drip
   stopped [**9-25**]
   - Continue amio gtt for now for entire loading dose as patient cannot
   take po
   - Goal to keep patient
s HR < 120 as to improve CO and perfusion
   - Keep track of Amio dosage; once 10 grams is achieved, may need to
   give maintenance dose through IV (200 mg/day) Currently received a
   total of XXX grams as of 0800 this AM.
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase.   LFTs trending down
   - f/u ERCP/GI recs
   - Will f/u surgery recs.
   - trophic feeds started [**9-28**], advance as tolerated
   - TPN until tube feeds are at goal
   - Trend LFTs and pancreatic enzymes
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt.
   - Continue insulin gtt for now given changes in TPN/tube feeds.
   - Trial of trophic tube feeds today and attempt to wean down insulin
   gtt
   - will calculate 24 hour insulin needs once on stable tube feeds and
   transition to long-acting regimen
   .
   # Anemia: The patient's Hct  31 (from 52 at OSH when hemoconcentrated)
   but stable currently.  Guaiac + diarrhea + fluids
   - Active type and screen.
   - Transfuse if Hct < 25
   - Continue to trend.
   .
   # Thrombocytopenia:  Resolved. His platelets are up to 237 today.  Low
   suspicion for HIT, and HIT antibody could not be sent as does not meet
   criteria for diagnosis, and subq heparin DCed [**2169-9-28**].  [**Month (only) 8**] be
   secondary to Zosyn. (platelets 202 at outside hospital admission)
   - Since plts are normalized, will re-start Heparin sub q.
   - Continue to trend.
   - No signs of active bleeding
   ICU Care
   Nutrition: On trophic tube feeds with high residuals today. Will
   continue tpn and re-start trophic tube feeds again later today.
   Glycemic Control:  insulin gtt
   Lines:
   Right IJ: HD line [**2169-10-2**]
   Left IJ: Triple lumen [**2169-9-29**]
   A-line: [**2169-9-29**]
   Prophylaxis:
   DVT: pneumoboots; heparin
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:  HCP is his lawyer
   [**Name (NI) 156**] status: DNR (OK to intubate)
   Disposition:  ICU

2169-09-30 10:18:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55yo M admitted with gallstone pancreatitis, shock and respiratory
   failure.  Now with ARDS and persistent significant hypoxemia with high
   PEEP and Fi02 requirements.
   24 Hour Events:
   New HD and central line placed.  CVVH started again overnight, but
   filter clogged in circuit.  Increased residuals this morning and TF
   held.
   Patient unable to provide history: Sedated
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-9-28**] 10:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-29**] 05:53 PM
   Meropenem - [**2169-9-29**] 10:59 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Insulin - Regular - 5 units/hour
   Amiodarone - 0.5 mg/min
   Fentanyl (Concentrate) - 200 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-9-29**] 08:00 PM
   Other medications:
   Changes to medical and family history:  No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:  unable to obtain as patient is sedated
   Flowsheet Data as of  [**2169-9-30**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 73 (70 - 87) bpm
   BP: 100/53(66) {86/41(53) - 152/72(86)} mmHg
   RR: 36 (0 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135.4 kg (admission): 120 kg
   Height: 71 Inch
   CVP: 19 (19 - 20)mmHg
   Total In:
                                                                  2,640 mL
                                                                  1,976 mL
   PO:
   TF:
                                                                     62 mL
                                                                     38 mL
   IVF:
                                                                  2,106 mL
                                                                  1,206 mL
   Blood products:
   Total out:
                                                                  1,891 mL
                                                                  1,745 mL
   Urine:
                                                                    164 mL
                                                                     25 mL
   NG:
   Stool:
                                                                  1,020 mL
   Drains:
   Balance:
                                                                    749 mL
                                                                    231 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 370 (370 - 370) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 26 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10
   PIP: 43 cmH2O
   Plateau: 41 cmH2O
   Compliance: 24.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.24/50/86/22/-6
   Ve: 12.1 L/min
   PaO2 / FiO2: 96
   Physical Examination
   Gen
l: intubated, sedated, non-responsive to verbal stimuli
   HEENT: ETT in place, pupils constricted and minimally reactive
   Pulmonary: diminished anteriorly, no wheezing appreciated
   CV: regular, distant
   Abdomen: distended, hypoactive bowel sounds, no grimace with palpation
   Extremities: diffuse slight edema, > in sacral area
   Peripheral Vascular: peripheral pulses intact
   Neurologic: deeply sedated, responsive to sternal rub with grimace, no
   purposeful movement
   Labs / Radiology
   10.1 g/dL
   237 K/uL
   191 mg/dL
   7.9 mg/dL
   22 mEq/L
   4.6 mEq/L
   110 mg/dL
   97 mEq/L
   135 mEq/L
   31.1 %
   27.0 K/uL
        [image002.jpg]
                            [**2169-9-29**]  12:21 AM
                            [**2169-9-29**]  04:34 AM
                            [**2169-9-29**]  05:05 AM
                            [**2169-9-29**]  06:08 AM
                            [**2169-9-29**]  07:41 AM
                            [**2169-9-29**]  04:21 PM
                            [**2169-9-29**]  05:11 PM
                            [**2169-9-29**]  11:22 PM
                            [**2169-9-30**]  03:42 AM
                            [**2169-9-30**]  04:30 AM
   WBC
   19.1
   27.0
   Hct
   31.9
   31.1
   Plt
   189
   237
   Cr
   8.4
   7.9
   TCO2
   21
   23
   22
   23
   22
   22
   22
   22
   Glucose
   84
   191
   Other labs: PT / PTT / INR:15.4/30.0/1.3, ALT / AST:59/64, Alk Phos / T
   Bili:89/4.8, Amylase / Lipase:39/11, Differential-Neuts:80.5 %,
   Lymph:11.7 %, Mono:4.7 %, Eos:2.5 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:652 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
 ARDS
   - recheck gas and wean Fi02 as tolerated, goal Pa02>60
   - although plateau high, will keep PEEP at 26 until Fi02 requirement
   improved, TV now reduced
   - volume removal as below
   - on vanc/[**Last Name (un) **], which should cover possible VAP
   - worsened hypoxemia over past couple of days may be due to volume
   overload
   - sedated with versed/fentanyl
 Septic shock
   - increased leukocytosis, increased pressor requirement
   - broadened to vanc/[**Last Name (un) **] but unclear source (though apparent line
   infection prior to removal). vanc level this pm
   - will add cipro for pseudomonas double coverage, check c.diff
   - not stable to travel for imaging today, but will re-consider if Fi02
   comes down
   - check differential with CBC in the morning
   - check c.diff
 Renal failure
   - CVVH circuit down, may be due to more aggressive volume removal
   - will remove volume cautiously today but goal negative
Atrial fibrillation
   - on amiodarone drip, will continue at 0.5 until GI motility improved
   - will calculate total dose today
 Pancreatitis
   - surgery still following, overall improved but ongoing poor bowel
   motility
Nutrition:
   - high residual this morning so TF held
   - ongoing TPN, nutrition following
   - will try to restart trophic TF later today
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2169-9-29**] 05:42 PM 75 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2169-9-24**] 05:40 AM
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-10-01 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Levophed weaned down to 0.04 from 0.14.
   - Able to wean down FiO2 to 40% and will plan is to decrease PEEP to 24
   this AM.
   Pt. unresponsive, so trying to wean down sedation a bit. 175 and 10
   from 200 and 12
   - CVVH working all night at 50 cc/hr negative: total taken out 3138?
   albumin w CVVH
   - started Cipro for double enteric coverage pseudomonus
   - Vanc trough 20.1; evening dose held.
   - EKG: concern for QTc prolongation: amio and cipro -> no long qtC:
   - SC heparin restarted as plts are high
   - high residuals with trophic tube feeds.
   - amio...about 7 grams in [**9-30**].
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-9-28**] 10:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-29**] 05:53 PM
   Ciprofloxacin - [**2169-9-30**] 11:00 AM
   Meropenem - [**2169-10-1**] 04:07 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Insulin - Regular - 6 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-9-30**] 08:01 PM
   Heparin Sodium (Prophylaxis) - [**2169-10-1**] 05:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-1**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 85 (73 - 85) bpm
   BP: 130/52(70) {86/37(50) - 148/54(71)} mmHg
   RR: 0 (0 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.5 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 15 (15 - 20)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  7,813 mL
                                                                  2,820 mL
   PO:
   TF:
                                                                     38 mL
   IVF:
                                                                  5,775 mL
                                                                  2,369 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  6,800 mL
                                                                  2,538 mL
   Urine:
                                                                     85 mL
                                                                     15 mL
   NG:
                                                                    320 mL
   Stool:
   Drains:
   Balance:
                                                                  1,013 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 370 (370 - 370) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 26 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 45 cmH2O
   Plateau: 41 cmH2O
   Compliance: 26.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.27/55/63/22/-2
   Ve: 11.7 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.  Responsive
   to suction
   HEENT: Sclera icteric, scleral edema present.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess b/c neck thick
   Lungs: Patient is on a ventilator.  Anteriorly lungs with improved
   breath sounds. + air movement bilaterally
   CV: Rate 80s, regular rhythm, soft heart sounds so difficult to
   appreciate whether there are any murmurs
   Abdomen:  No bowel sounds, very distended and tympanic, some dullness
   to percussion at flanks and inferiorly
   GU: foley present
   Ext: warm, well perfused, 1+ pulses dp, 2+ radial pulses, edematous
   extremities. Pus noted in femoral crease on R and minimal pustular
   drainage noted around femoral line
   Labs / Radiology
   206 K/uL
   9.2 g/dL
   142 mg/dL
   6.2 mg/dL
   22 mEq/L
   4.6 mEq/L
   92 mg/dL
   96 mEq/L
   134 mEq/L
   27.9 %
   22.2 K/uL
        [image002.jpg]
                            [**2169-9-30**]  04:30 AM
                            [**2169-9-30**]  11:06 AM
                            [**2169-9-30**]  11:10 AM
                            [**2169-9-30**]  05:30 PM
                            [**2169-9-30**]  05:36 PM
                            [**2169-9-30**]  05:47 PM
                            [**2169-9-30**]  10:10 PM
                            [**2169-9-30**]  10:26 PM
                            [**2169-10-1**]  04:07 AM
                            [**2169-10-1**]  04:08 AM
   WBC
   29.9
   22.2
   Hct
   28.1
   27.9
   Plt
   256
   206
   Cr
   8.2
   6.9
   6.2
   TCO2
   22
   24
   25
   26
   26
   Glucose
   184
   171
   181
   177
   142
   Other labs: PT / PTT / INR:15.4/30.0/1.3, ALT / AST:46/51, Alk Phos / T
   Bili:89/4.1, Amylase / Lipase:39/10, Differential-Neuts:83.8 %,
   Lymph:9.3 %, Mono:4.6 %, Eos:1.8 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:473 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   55 yo male with pmh of HTN and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure/ARDS:  p/f ratio 158.  Ventilation per
   ARDS protocol with goal minimize TV and PEEP to keep plateau pressures
   low, goal < 40.  Has tolerated weaning to TV 370.  S/P IR procedure
   Friday likely derecruited a lot of lung as patient was initially on
   higher FiO2 and higher PEEP. Patient slowly improving, with FiO2 40%
   but still with high PEEP.
   - Continue to manage per ARDS net, goal PaO2 > 60, plateau pressures <
   40 for now given increased abdominal pressure and PEEP requirement.
   - Maintain FiO2 to 40% and decrease PEEP as tolerated to maintain paO2
   > 60
consider increasing FiO2 rather than increasing PEEP more.
   - Midazolam and fentanyl prn for sedation
   - Continue CVVH as tolerated and increase rate of fluid loss as
   tolerated.
   .
    # Hypotension/Septic Shock:  On vasopressin and levophed to maintain
   appropriate MAPs. Continues to spike low grade temps on CVVH. WBC
   improved. Unable to find source at this point. Lines changed [**9-29**].
   Was on Zosyn initially, but now changed to meropenem and cipro and vanc
   for broader coverage.  Other sources: VAP (unable to see on CXR in
   setting of ARDS); Sinusitis: but patient is being treated for this and
   has had no more discharge from his nares. Intra-abdominal is a
   possibility, but RUQ u/s negative for achalculous cholecystitis.
   Enzymes are all also trending down. C. diff possibility (previous was
   negative). Overall, unclear picture of source even though infection is
   likely given clinical picture.
   - if patient
s respiratory status improves consider CT of abdomen/chest
   and possibly sinuses.
   - continue vanc and meropenem (day 1: [**2169-9-29**]) for now.  (Vanc Trough
   20.1 in PM) Continue cipro (Day 1: [**2169-9-30**])
   - Vanc trough this AM before dosage: should dose all Abx with a CrCl of
   < 30 while on CVVH per Renal
   - f/u culture data.
   - Check C. diff today (negative x 1 so far)
   - Lactate normal
   - continue vasopressin.  levophed for MAPs < 65.  Wean down as
   tolerated
   - trend fever curve and WBC
   - foley changed [**9-28**]); New lines placed [**2169-9-29**]
   - If still unable to find source, consider LENI
s to rule out DVT.
   - Consider ID consult if no source of infection can be found on CT.
   - Perform sputum blood culture and sputum culture today as this should
   be done q 3 days in the ICU if no source is found.
   .
   # Acute renal failure:  BUN/Cr/K/PO4 up off CVVH.  Likely ATN highest
   on differential at this point. Started CVVH Monday afternoon [**9-25**];
   patient tolerating well.  D/c
d [**9-27**] overnight for line kinking and
   pustular drainage around line.  Re-started [**9-29**] as new IR lines
   placed, but only lasted 8 hours due to clogging filter. Re-started
   yesterday without any significant problems. Also given albumin with
   CVVH yesterday which appeared to be equivical.
   - Continue CVVH as tolerated and advance rate as tolerated. If patient
   becomes too hypotensive, change rate as net even rather than negative.
   - Renal following
   - Will discuss with renal the possibility of contrast in CT scan, if
   occurs tomorrow.
   # Atrial Fibrillation: Patient on amio gtt in sinus rhythm. Dilt drip
   stopped [**9-25**]
   - Continue amio gtt for now for entire loading dose as patient cannot
   take po
   - Goal to keep patient
s HR < 120 as to improve CO and perfusion
   - Keep track of Amio dosage; once 10 grams is achieved, may need to
   give maintenance dose through IV (200 mg/day) -  -
   - Currently received a total of XXX grams as of 0800 this AM.
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase.   LFTs trending down
   - f/u ERCP/GI recs if any
   - Surgery has signed off.
   - trophic feeds started [**9-28**], patient with significant residuals. Hold
   tube feeds for now in setting of decreased bowel sounds.
   - TPN for now
   - Trend LFTs and pancreatic enzymes
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt.
   - Trophic tube feeds held due to high residuals. Hold for now.
   - Continue insulin gtt in setting of infection
   - Insulin in TPN.
   - will calculate 24 hour insulin needs if able to maintain stable tube
   feeds and transition to long-acting regimen
   .
   # Anemia: The patient's Hct  29.9 (from 52 at OSH when
   hemoconcentrated) but stable currently.  Guaiac + diarrhea + fluids
   - Active type and screen.
   - Transfuse if Hct < 25
   - Continue to trend.
   .
   # Thrombocytopenia:  Resolved. His platelets are up to 237 today.  Low
   suspicion for HIT, and HIT antibody could not be sent as does not meet
   criteria for diagnosis, and subq heparin DCed [**2169-9-28**].  [**Month (only) 8**] be
   secondary to Zosyn. (platelets 202 at outside hospital admission)
   - Since plts are normalized,
   - Continue Heparin sub q.
   - Continue to trend.
   - No signs of active bleeding
   ICU Care
   Nutrition: Trophic tube feeds attempted three  times all with high
   residuals.
   TPN w/ Lipids - [**2169-9-30**] 05:25 PM 75 mL/hour
   Glycemic Control:  Insulin gtt
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   Prophylaxis:
   DVT: pneumoboots; heparin
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:  HCP is his lawyer
   [**Name (NI) 156**] status: DNR (OK to intubate)
   Disposition:  ICU

2169-10-01 09:16:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: pancreatitis, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55yo M who presented with pancreaitis, now with ARDS and renal failure.
     Persistent shock and fevers on broad spectrum antibiotics.
   24 Hour Events:
   PEEP weaned slowly after Fi02 brought down significantly.  Pressors
   weaned.  On CVVH overnight at -50cc/hr.  Sedation decreased.
   Patient unable to provide history: Sedated
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-9-28**] 10:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-29**] 05:53 PM
   Ciprofloxacin - [**2169-9-30**] 11:00 AM
   Meropenem - [**2169-10-1**] 04:07 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Insulin - Regular - 6 units/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-9-30**] 08:01 PM
   Heparin Sodium (Prophylaxis) - [**2169-10-1**] 05:18 AM
   Other medications:
   Changes to medical and family history:  No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Unable to obtain
   Flowsheet Data as of  [**2169-10-1**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 83 (73 - 85) bpm
   BP: 124/47(66) {90/37(50) - 148/54(71)} mmHg
   RR: 34 (0 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.5 kg (admission): 120 kg
   Height: 71 Inch
   CVP: 16 (15 - 20)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  7,813 mL
                                                                  3,836 mL
   PO:
   TF:
                                                                     38 mL
   IVF:
                                                                  5,775 mL
                                                                  3,185 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  6,800 mL
                                                                  3,568 mL
   Urine:
                                                                     85 mL
                                                                     20 mL
   NG:
                                                                    320 mL
   Stool:
   Drains:
   Balance:
                                                                  1,013 mL
                                                                    268 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 370 (370 - 370) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 24 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 42 cmH2O
   Plateau: 40 cmH2O
   Compliance: 28.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.27/55/63/22/-2
   Ve: 11.7 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Gen
l: deeply sedated, non-responsive to sternal rub
   HEENT: (+) scleral edema, anicteric, ETT and OG tube in place
   CV: regular, distant, no murmur appreciated
   Pulm: diminished throughout, no wheezing
   Abd: tense, distended, no bowel sounds
   Ext: diffuse edema throughout
   Skin:  ulcerated lesion on R upper arm, 1 x 0.5cm blister on penis
   without erythema, erythema in the groin
   Labs / Radiology
   9.2 g/dL
   206 K/uL
   142 mg/dL
   6.2 mg/dL
   22 mEq/L
   4.6 mEq/L
   92 mg/dL
   96 mEq/L
   134 mEq/L
   27.9 %
   22.2 K/uL
        [image002.jpg]
                            [**2169-9-30**]  04:30 AM
                            [**2169-9-30**]  11:06 AM
                            [**2169-9-30**]  11:10 AM
                            [**2169-9-30**]  05:30 PM
                            [**2169-9-30**]  05:36 PM
                            [**2169-9-30**]  05:47 PM
                            [**2169-9-30**]  10:10 PM
                            [**2169-9-30**]  10:26 PM
                            [**2169-10-1**]  04:07 AM
                            [**2169-10-1**]  04:08 AM
   WBC
   29.9
   22.2
   Hct
   28.1
   27.9
   Plt
   256
   206
   Cr
   8.2
   6.9
   6.2
   TCO2
   22
   24
   25
   26
   26
   Glucose
   184
   171
   181
   177
   142
   Other labs: PT / PTT / INR:15.4/30.0/1.3, ALT / AST:46/51, Alk Phos / T
   Bili:89/4.1, Amylase / Lipase:39/10, Differential-Neuts:83.8 %,
   Lymph:9.3 %, Mono:4.6 %, Eos:1.8 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:473 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 ARDS
   - improved over past 24 hours, Fi02 down to 40%, likely due to volume
   removal and recruitment on higher PEEP
   - will continue to very slowly wean PEEP and follow gases
   - continues to have very high plateaus, which is concerning
   - if unable to come down on PEEP further due to oxygenation, will
   decreased TV to 350
 Shock
   - likely septic, though no clear pathogen identified, ongoing fever;
   all lines re-sited 10.16
   - levo down overall, but pressures tenuous on decreased dose, abdominal
   distention worsened
   - plan for chest/abdominal CT tomorrow morning when better staffing,
   concern for abscess
   - c. diff negative and all cultures negative to date
   - continues on vanc/meropenem/cipro
   - checking vancomycin level this morning, goal 15-20
   - cortisol 35
 Renal Failure
   - continuing on CVVH, acidoses improved
   - will continue to take fluid off with CVVH as tolerated
   - will d/w renal about possible contrast use for CT tomorrow
 Abdominal distention
   - will recheck bladder pressure today
   - likely will improve most with volume removal, no clear ascites on
   ultrasound but likely bowel edema, and ileus
 Atrial fibrillation
   - continues on amiodarone, will calculate total dose today
   - unable to convert to PO given poor bowel mobility
 Thrombocytopenia
   - resolved, on sc heparin
 Poor GI motility
   - not tolerating trophic tube feeds yesterday
   - abdominal CT tomorrow
Groin erythema
   - will start topical anti-fungal powder today
 Anemia
   - stable, no clear source of active bleeding
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2169-9-30**] 05:25 PM 75 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-10-02 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pancreatitis, sepsis, ARF, respiratory failure
   24 Hour Events:
   - EKG with Qtc 490, ? amio + abx effects
   - high residuals with trophic tube feeds, on hold for now
   - recheck bladder pressure=12, inspite of abdominal distension
   - P:F improving, now 178
   - plateau pressures remain high, last 41
   - plan for pan scan today, renal ok with contrast if necessary on CVVHD
   - continued on CVVHD, Cr, BUN, K trending down.  patient weaned off
   levo, on vasopressin. Can wean vasopressin after CT if BPs tolerate
   - Amio dose: As of 0800 [**10-2**] has roughly 6250mg. Would reach 10g load
   [**10-7**] pm.
   - nutrition with TPN, patient may need post-pyloric tube for more feeds
   - off levo since the evening of [**10-1**], still on vaso to be able take
   off more fluid, can d/c about 12 hours post d/c of levo if BP's
   tolerate
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-9-29**] 05:53 PM
   Ciprofloxacin - [**2169-10-1**] 11:08 AM
   Vancomycin - [**2169-10-1**] 03:33 PM
   Meropenem - [**2169-10-1**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Insulin - Regular - 4 units/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-10-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2169-10-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-2**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.9
   HR: 88 (80 - 90) bpm
   BP: 124/55(74) {95/45(60) - 153/65(84)} mmHg
   RR: 21 (0 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.5 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 23 (15 - 354)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  9,818 mL
                                                                  2,561 mL
   PO:
   TF:
   IVF:
                                                                  8,014 mL
                                                                  2,049 mL
   Blood products:
   Total out:
                                                                 10,456 mL
                                                                  2,667 mL
   Urine:
                                                                     47 mL
                                                                      5 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -638 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 370 (370 - 370) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 47 cmH2O
   Plateau: 41 cmH2O
   Compliance: 20.6 cmH2O/mL
   SpO2: 93%
   ABG: 7.34/53/89.[**Numeric Identifier 299**]/26/0
   Ve: 12.7 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.
   HEENT: Sclera icteric, scleral edema present.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess b/c neck thick
   Lungs: Patient is on a ventilator.  Anteriorly lungs with  + air
   movement bilaterally, some inspiratory rales, likely upper airway
   sounds on vent
   CV: Rate 80s, regular rhythm, normal S1/S2, soft heart sounds so
   difficult to appreciate whether there are any murmurs
   Abdomen:  No bowel sounds, very distended and tympanic, some dullness
   to percussion at flanks and inferiorly
   GU: foley present
   Ext: warm, well perfused, 1+ pulses dp, 2+ radial pulses, edematous
   extremities. Pus noted in femoral crease on R and minimal pustular
   drainage noted around femoral line, serous drainage from wound
   SKIN:  areas of breakdown over R upper thorax anteriorly and penis, no
   pus or erythema or induration extending from wounds.  Area of blanching
   erythema over L flank, increasing in size from previous days, not
   particularly warm relative to surrounding skin.
   Labs / Radiology
   255 K/uL
   8.6 g/dL
   134 mg/dL
   5.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   71 mg/dL
   94 mEq/L
   134 mEq/L
   26.1 %
   17.3 K/uL
        [image002.jpg]
                            [**2169-10-1**]  04:08 AM
                            [**2169-10-1**]  08:53 AM
                            [**2169-10-1**]  01:39 PM
                            [**2169-10-1**]  05:59 PM
                            [**2169-10-1**]  06:32 PM
                            [**2169-10-1**]  08:15 PM
                            [**2169-10-1**]  11:33 PM
                            [**2169-10-2**]  12:53 AM
                            [**2169-10-2**]  05:30 AM
                            [**2169-10-2**]  05:36 AM
   WBC
   17.3
   Hct
   26.1
   Plt
   255
   Cr
   5.4
   5.0
   TCO2
   26
   26
   29
   28
   29
   29
   30
   30
   Glucose
   145
   134
   Other labs: PT / PTT / INR:15.4/30.0/1.3, ALT / AST:46/63, Alk Phos / T
   Bili:128/4.4, Amylase / Lipase:39/10, Differential-Neuts:83.8 %,
   Lymph:9.3 %, Mono:4.6 %, Eos:1.8 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:386 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   CXR:  bilateral lower lobe opacities, difficult to compare to previous
   given different penetration on film, likely bilateral pleural effusions
   + atelectasis, ETT appears to be at approximately superior border of
   clavicles, could be due to projection of film
   Assessment and Plan
   55 yo male with pmh of HTN and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure/ARDS:  p/f ratio 158.  Ventilation per
   ARDS protocol with goal minimize TV and PEEP to keep plateau pressures
   low, goal < 40.  Has tolerated weaning to TV 370.  S/P IR procedure
   Friday likely derecruited a lot of lung as patient was initially on
   higher FiO2 and higher PEEP. Patient slowly improving, with FiO2 40%
   but still with high PEEP.
   - Continue to manage per ARDS net, goal PaO2 > 60, plateau pressures <
   40 for now given increased abdominal pressure and PEEP requirement.
   - Maintain FiO2 to 40% and decrease PEEP as tolerated to maintain paO2
   > 60
consider increasing FiO2 rather than increasing PEEP more.
   - Midazolam and fentanyl prn for sedation
   - Continue CVVH as tolerated and increase rate of fluid loss as
   tolerated.
   .
    # Hypotension/Septic Shock:  On vasopressin and levophed to maintain
   appropriate MAPs. Continues to spike low grade temps on CVVH. WBC
   improved. Unable to find source at this point. Lines changed [**9-29**].
   Was on Zosyn initially, but now changed to meropenem and cipro and vanc
   for broader coverage.  Other sources: VAP (unable to see on CXR in
   setting of ARDS); Sinusitis: but patient is being treated for this and
   has had no more discharge from his nares. Intra-abdominal is a
   possibility, but RUQ u/s negative for achalculous cholecystitis.
   Enzymes are all also trending down. C. diff possibility (previous was
   negative). Overall, unclear picture of source even though infection is
   likely given clinical picture.
   - if patient
s respiratory status improves consider CT of abdomen/chest
   and possibly sinuses.
   - continue vanc and meropenem (day 1: [**2169-9-29**]) for now.  (Vanc Trough
   20.1 in PM) Continue cipro (Day 1: [**2169-9-30**])
   - Vanc trough this AM before dosage: should dose all Abx with a CrCl of
   < 30 while on CVVH per Renal
   - f/u culture data.
   - Check C. diff today (negative x 1 so far)
   - Lactate normal
   - continue vasopressin.  levophed for MAPs < 65.  Wean down as
   tolerated
   - trend fever curve and WBC
   - foley changed [**9-28**]); New lines placed [**2169-9-29**]
   - If still unable to find source, consider LENI
s to rule out DVT.
   - Consider ID consult if no source of infection can be found on CT.
   - Perform sputum blood culture and sputum culture today as this should
   be done q 3 days in the ICU if no source is found.
   .
   # Acute renal failure:  BUN/Cr/K/PO4 up off CVVH.  Likely ATN highest
   on differential at this point. Started CVVH Monday afternoon [**9-25**];
   patient tolerating well.  D/c
d [**9-27**] overnight for line kinking and
   pustular drainage around line.  Re-started [**9-29**] as new IR lines
   placed, but only lasted 8 hours due to clogging filter. Re-started
   yesterday without any significant problems. Also given albumin with
   CVVH yesterday which appeared to be equivical.
   - Continue CVVH as tolerated and advance rate as tolerated. If patient
   becomes too hypotensive, change rate as net even rather than negative.
   - Renal following
   - Will discuss with renal the possibility of contrast in CT scan, if
   occurs tomorrow.
   # Atrial Fibrillation: Patient on amio gtt in sinus rhythm. Dilt drip
   stopped [**9-25**]
   - Continue amio gtt for now for entire loading dose as patient cannot
   take po
   - Goal to keep patient
s HR < 120 as to improve CO and perfusion
   - Keep track of Amio dosage; once 10 grams is achieved, may need to
   give maintenance dose through IV (200 mg/day) -  -
   - Currently received a total of XXX grams as of 0800 this AM.
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase.   LFTs trending down
   - f/u ERCP/GI recs if any
   - Surgery has signed off.
   - trophic feeds started [**9-28**], patient with significant residuals. Hold
   tube feeds for now in setting of decreased bowel sounds.
   - TPN for now
   - Trend LFTs and pancreatic enzymes
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt.
   - Trophic tube feeds held due to high residuals. Hold for now.
   - Continue insulin gtt in setting of infection
   - Insulin in TPN.
   - will calculate 24 hour insulin needs if able to maintain stable tube
   feeds and transition to long-acting regimen
   .
   # Anemia: The patient's Hct  29.9 (from 52 at OSH when
   hemoconcentrated) but stable currently.  Guaiac + diarrhea + fluids
   - Active type and screen.
   - Transfuse if Hct < 25
   - Continue to trend.
   .
   # Thrombocytopenia:  Resolved. His platelets are up to 237 today.  Low
   suspicion for HIT, and HIT antibody could not be sent as does not meet
   criteria for diagnosis, and subq heparin DCed [**2169-9-28**].  [**Month (only) 8**] be
   secondary to Zosyn. (platelets 202 at outside hospital admission)
   - Since plts are normalized,
   - Continue Heparin sub q.
   - Continue to trend.
   - No signs of active bleeding
   ICU Care
   Nutrition:  Nutrition: Trophic tube feeds attempted three  times all
   with high residuals.
   TPN w/ Lipids - [**2169-10-1**] 05:20 PM 75 mL/hour
   Glycemic Control:  insulin gtt
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   Prophylaxis:
   DVT:  pneumoboots, heparin
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:  HCP is his lawyer
   [**Name (NI) 156**] status: DNR (OK to intubate)
   Disposition:  ICU

2169-10-03 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pancreatitis, septic shock, respiratory failure, acute
   renal failure
   24 Hour Events:
   - peripheral IV placed w ultrasound guidance
   - Pt cannot lie flat (desaturations to 80s with decreased BP), so CT
   postponed
   - goal Plateau pressure <40 (PEEP, tidal vol, compliance) and PaO2 in
   60s ; bladder pressures have been consistently low, and pt cannot
   tolerate any less PEEP (on 22 this AM)
   - continues on Cipro (for double coverage for pseudamonas), Meropenem
   (broadened from Zosyn due to increased septic picture), and Vancomycin
   (for line infection)
   - new erythematous blanching rash (no warmer than elsewhere) noted
   yesterday on L flank; may need an ID consult in a day or two to help w
   antifungal coverage if rash worsens on present antibiotic regimen
   - off pressors this AM
   - EKG to check for QTc (was 490 on [**9-30**])
   - Called sister w Update - she is hopeful that he will get better and
   appreciates updates b/c she cannot come down often (3-4hr drive)
   - Called HCP who would like to discuss goals of care -- Dr. [**Last Name (STitle) 749**] will
   call him at 3pm [**10-3**] for phone meeting
   - gastric residuals about 40cc.  Trophic tube feed trial again
   overnight.
   - was -4L by CVVH at 12:30am (rate had gone up to 250cc/hr)--> turned
   rate down to 100cc/hr
   - tolerating turning this AM without desaturations
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-2**] 08:00 PM
   Ciprofloxacin - [**2169-10-2**] 10:00 PM
   Meropenem - [**2169-10-3**] 04:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Insulin - Regular - 4 units/hour
   Midazolam (Versed) - 12 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-10-2**] 11:45 AM
   Pantoprazole (Protonix) - [**2169-10-2**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2169-10-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-3**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 85 (75 - 91) bpm
   BP: 105/48(64) {72/42(51) - 122/62(77)} mmHg
   RR: 35 (0 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 19 (19 - 20)mmHg
   Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                 10,521 mL
                                                                  2,666 mL
   PO:
   TF:
                                                                     27 mL
                                                                     71 mL
   IVF:
                                                                  8,095 mL
                                                                  2,061 mL
   Blood products:
   Total out:
                                                                 14,461 mL
                                                                  3,052 mL
   Urine:
                                                                     17 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,940 mL
                                                                   -386 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 370 (370 - 370) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 37 cmH2O
   Compliance: 26.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.28/61/99.[**Numeric Identifier 299**]/27/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 198
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.
   HEENT: Sclera icteric, scleral edema present.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess b/c neck thick
   Lungs: Patient is on a ventilator.  Anteriorly lungs with  + air
   movement bilaterally, some inspiratory rales, likely upper airway
   sounds on vent
   CV: Rate 80s, regular rhythm, normal S1/S2, soft heart sounds so
   difficult to appreciate whether there are any murmurs
   Abdomen:  No bowel sounds, very distended and tympanic, some dullness
   to percussion at flanks and inferiorly
   GU: foley present
   Ext: warm, well perfused, 1+ pulses dp, 2+ radial pulses, edematous
   extremities. Pus noted in femoral crease on R and minimal pustular
   drainage noted around femoral line, serous drainage from wound
   SKIN:  areas of breakdown over R upper thorax anteriorly and penis, no
   pus or erythema or induration extending from wounds.  Area of blanching
   erythema over L flank, increasing in size from previous days, not
   particularly warm relative to surrounding skin.
   Labs / Radiology
   284 K/uL
   9.0 g/dL
   133 mg/dL
   4.0 mg/dL
   27 mEq/L
   3.9 mEq/L
   56 mg/dL
   95 mEq/L
   135 mEq/L
   27.5 %
   19.3 K/uL
        [image002.jpg]
                            [**2169-10-2**]  05:36 AM
                            [**2169-10-2**]  11:26 AM
                            [**2169-10-2**]  11:35 AM
                            [**2169-10-2**]  05:06 PM
                            [**2169-10-2**]  05:33 PM
                            [**2169-10-2**]  11:40 PM
                            [**2169-10-2**]  11:58 PM
                            [**2169-10-3**]  02:04 AM
                            [**2169-10-3**]  05:07 AM
                            [**2169-10-3**]  05:23 AM
   WBC
   19.3
   Hct
   27.5
   Plt
   284
   Cr
   4.5
   4.0
   TCO2
   30
   30
   31
   29
   30
   30
   Glucose
   151
   117
   140
   133
   Other labs: PT / PTT / INR:16.0/29.3/1.4, ALT / AST:53/64, Alk Phos / T
   Bili:143/4.0, Amylase / Lipase:39/10, Differential-Neuts:81.9 %,
   Lymph:10.6 %, Mono:5.6 %, Eos:1.3 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:350 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   CXR:  WET READ improved lower lobe opacities, ETT appears to be in good
   position
   Assessment and Plan
   55 yo male with pmh of HTN and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure/ARDS:  p/f ratio 198.  Ventilation per
   ARDS protocol with goal minimize TV and PEEP to keep plateau pressures
   low, goal < 40.  Has tolerated weaning to TV 370.  FiO2 50%, PEEP 22.
   - Continue to manage per ARDS net, goal PaO2 > 60, plateau pressures <
   40 for now given increased abdominal pressure and PEEP requirement.
   - wean FiO2 and decrease PEEP as tolerated to maintain paO2 > 60
   - Midazolam and fentanyl prn for sedation
   - start fentanyl patch 150 mcg today with goal to reduce fentanyl drip
   - consider starting PO valium tomorrow if tolerating trophic tube feeds
   with goal to decrease midazolam
   - goal of sedation is approximately 2 overbreaths/minute on vent
   - Continue CVVHD with goal negative 2-3 L today
   .
    # Hypotension/Septic Shock:  Off vasopressin and levophed, BPs ok.
   Continues to spike low grade temps on CVVHD, now on meropenem, cipro,
   vanc. WBC stable. Unable to find source at this point. Lines changed
   [**9-29**].  Was on Zosyn initially, but now changed to meropenem and cipro
   and vanc for broader coverage.  Other sources: VAP (unable to see on
   CXR in setting of ARDS); Sinusitis: but patient is being treated for
   this and has had no more discharge from his nares. Intra-abdominal is a
   possibility, but RUQ u/s negative for acalculous cholecystitis.
   Enzymes are all also trending down. C. diff negative. Fungemia
   possibility, especially given risk factors of nutrition with lipids and
   now new rash.  Overall, unclear picture of source.  Other potential
   etiology of fever is ongoing pancreatitis.
   - will defer CT chest, abdomen, sinuses today given tenuous
   respiratory/hemodynamics
   - ID consult for ? fungal coverage
   - continue vanc and meropenem (day 1: [**2169-9-29**]) for now.  (Vanc Trough
   20.1 in PM) Continue cipro (Day 1: [**2169-9-30**])
   - Vanc dosing per levels: should dose all Abx with a CrCl of < 30 while
   on CVVH per Renal
   - f/u culture data.
   - trend fever curve and WBC
   - foley changed ([**9-28**]); New lines placed [**2169-9-29**]
   - If still unable to find source, consider LENI
s to rule out DVT.
   - off levophed and vasopressin.  Can re-start pressors PRN
   .
   # Acute renal failure:  likely ATN. Started CVVH [**9-25**].  D/c
d [**9-27**]
   for line kinking and pustular drainage around line.  Re-started [**9-29**]
   after new IR lines placed, but only lasted 8 hours due to clogging
   filter. Re-started [**9-30**] without any significant problems.  Negative 4L
   [**10-2**], [**Name2 (NI) **]ed well.
   - Continue CVVHD as tolerated and advance rate as tolerated. Goal
   negative 2-3 L.
   - Renal following
   # Atrial Fibrillation: Patient on amio gtt in sinus rhythm. Dilt drip
   stopped [**9-25**]
   - Continue amio gtt for now for entire loading dose as patient cannot
   take po
   - Goal to keep patient
s HR < 120 as to improve CO and perfusion
   - Keep track of Amio dosage; once 10 grams is achieved, may need to
   give maintenance dose through IV (200 mg/day) -  -
   - Currently received a total of 6.970 grams as of 0800 this AM.
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase.   LFTs trending down.  Alk phos increasing.
   - RUQ U/S to evaluate for dilated biliary ducts
   - discuss with ERCP if have concern for elevated alk phos
   - trophic feeds started [**9-28**], patient with significant residuals.
   Re-started trophic tube feeds overnight, tolerated well.  Can consider
   advancing OG to post-pyloric tube placement if still not tolerating
   trophic tube feeds today
   - TPN for now.  Will discuss with nutrition to consider changing to
   low-lipid tube feeds
   - check residuals Q 4hrs
   - Trend LFTs and pancreatic enzymes QOD
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt +
   insulin in TPN.
   - Trophic tube feeds as above
   - Continue insulin gtt for glycemic control
   - increase Insulin in TPN to 100 units.
   - will moinitor insulin gtt needs and can titrate up insulin in TPN
   .
   # Anemia: HCT stable
   - Active type and screen.
   - Transfuse if Hct < 25
   - Continue to trend.
   .
   # Thrombocytopenia:  Resolved.  Low suspicion for HIT, and HIT antibody
   could not be sent as does not meet criteria for diagnosis, and subq
   heparin DCed [**2169-9-28**].  [**Month (only) 8**] be secondary to Zosyn. (platelets 202 at
   outside hospital admission)
   - Continue Heparin sub q.
   - Continue to trend.
   - No signs of active bleeding
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2169-10-2**] 05:10 PM 75 mL/hour
   NovaSource Renal (Full) - [**2169-10-2**] 09:21 PM 10 mL/hour
   Glycemic Control:  insulin gtt
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   18 Gauge - [**2169-10-2**] 08:00 PM
   Prophylaxis:
   DVT:  pneumoboots, heparin
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  patient, sister
   Comments:  HCP is lawyer
   [**Name (NI) 156**] status: DNR (OK to intubate)
   Disposition:  ICU
   10:28
   ------ Protected Section ------
   Seen and examined patient with MS4 and agree with above findings.
   Briefly, this is a 55 yo male with gallstone pancreatitis c/b septic
   shock, respiratory failure (ARDS) and oliguric renal failure on CVVH.
   Continues to spike and new concern for fungemia as patient not
   clinically getting better. D/w ID use of anit-fungals. If acutely
   worsens, consider CT.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 9271**], MD
   on:[**2169-10-3**] 14:27 ------

2169-10-04 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pancreatitis, septic shock, respiratory failure, acute
   renal failure
   24 Hour Events:
   - phone meeting yesterday at 3 pm:
   - ID consulted: emprically start micofungin,  Would like to scan him as
   well to get a better idea. Would also like derm to biopsy the rash.
   - hold off on imaging until trial of anti-fungal treatment
   - attempt to wean off sedation drips, 150 mcg fentanyl patch started
   yesterday to come down on fentanyl drip, will try 10 mg valium q 8
   hours as tolerated once tube feeds are tolerated well to come down on
   midazolam
   - CVVHD approx - 2 liters around 0000.
   - became hypotensive with MAPS in the 40s, 50s. Vasopressin started,
   changed to even on CVVH, then slightly fluid positive.  Still with MAPS
   in the 40's. Started levophed.
   - increasing alk phos.  RUQ U/S, touch base with GI
   - PPI and insulin added to TPN in order to reduce number of lines/drips
   necessary.
   - had to increase sedation b/c breath stacking with rates 35-37 breaths
   per minute after CXR. PIPs up to the 50s. calmed down some, but still
   overbreathing
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-3**] 11:22 AM
   Micafungin - [**2169-10-3**] 06:08 PM
   Ciprofloxacin - [**2169-10-3**] 10:01 PM
   Meropenem - [**2169-10-4**] 04:04 AM
   Infusions:
   Fentanyl (Concentrate) - 350 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Midazolam (Versed) - 14 mg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Fentanyl - [**2169-10-4**] 04:56 AM
   Heparin Sodium (Prophylaxis) - [**2169-10-4**] 06:00 AM
   Midazolam (Versed) - [**2169-10-4**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-4**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 82 (72 - 82) bpm
   BP: 107/44(59) {92/41(55) - 125/56(71)} mmHg
   RR: 34 (9 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120.3 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 12 (12 - 22)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                 10,099 mL
                                                                  2,987 mL
   PO:
   TF:
                                                                    240 mL
                                                                     69 mL
   IVF:
                                                                  8,127 mL
                                                                  2,405 mL
   Blood products:
   Total out:
                                                                 12,623 mL
                                                                  2,437 mL
   Urine:
                                                                     10 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,524 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 370 (370 - 370) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 38 cmH2O
   Compliance: 23.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/55/70/28/0
   Ve: 12.4 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.
   HEENT: Sclera icteric, scleral edema present.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess b/c neck thick
   Lungs: Patient is on a ventilator.  Anteriorly lungs with  + air
   movement bilaterally, lungs clear
   CV: Rate 80s, regular rhythm, normal S1/S2, soft heart sounds so
   difficult to appreciate whether there are any murmurs
   Abdomen:  No bowel sounds, very distended and tympanic, some dullness
   to percussion at flanks and inferiorly
   GU: foley present
   Ext: warm, well perfused, 1+ pulses dp, 2+ radial pulses, edematous
   extremities. R femoral cath site wound healing, no pus
   SKIN:  areas of breakdown over R upper thorax anteriorly and penis, no
   pus or erythema or induration extending from wounds.  Area of blanching
   erythema over L flank, decreasing in size and degree of erythema from
   previous days, not particularly warm relative to surrounding skin. New
   bullous lesions 1x3 cm on anterior, superior thigh
   Labs / Radiology
   286 K/uL
   8.7 g/dL
   154 mg/dL
   3.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   44 mg/dL
   95 mEq/L
   135 mEq/L
   27.3 %
   17.2 K/uL
        [image002.jpg]
   CXR:  increasing lower lobe opacities bilaterally and increased hilar
   fullness
                            [**2169-10-3**]  09:59 AM
                            [**2169-10-3**]  10:22 AM
                            [**2169-10-3**]  04:16 PM
                            [**2169-10-3**]  04:32 PM
                            [**2169-10-3**]  09:38 PM
                            [**2169-10-3**]  09:58 PM
                            [**2169-10-4**]  02:19 AM
                            [**2169-10-4**]  03:28 AM
                            [**2169-10-4**]  03:53 AM
                            [**2169-10-4**]  06:32 AM
   WBC
   17.2
   Hct
   27.3
   Plt
   286
   Cr
   3.9
   3.7
   3.4
   TCO2
   30
   31
   30
   31
   29
   30
   Glucose
   126
   121
   155
   154
   Other labs: PT / PTT / INR:16.0/29.3/1.4, ALT / AST:48/57, Alk Phos / T
   Bili:148/3.3, Amylase / Lipase:39/9, Differential-Neuts:81.9 %,
   Lymph:10.6 %, Mono:5.6 %, Eos:1.3 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.6 g/dL, LDH:313 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   55 yo male with pmh of HTN and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure/ARDS:  p/f ratio 198.  Ventilation per
   ARDS protocol with goal minimize TV and PEEP to keep plateau pressures
   low, goal < 40.  Has tolerated weaning to TV 370.  FiO2 40%, PEEP 22.
   - Continue to manage per ARDS net, goal PaO2 > 60, plateau pressures <
   40 for now given increased abdominal pressure and PEEP requirement.
   - wean FiO2 and decrease PEEP as tolerated to maintain paO2 > 60
   - will likely require higher PEEP, FiO2 for scan
   - Midazolam and fentanyl prn for sedation.  d/c fentanyl patch.  Start
   IV methadone TID after scan.
   - consider starting PO valium tomorrow if tolerating trophic tube feeds
   with goal to decrease midazolam
   - Sedation goal [**12-16**] overbreaths per minute
   .
    # Hypotension/Septic Shock:  Afebrile x 24 hours.  Now on meropenem,
   cipro, vanc. Micofungin added [**10-3**] for presumed fungemia.  WBC stable.
   Unable to find source at this point. Lines changed [**9-29**].  Was on Zosyn
   initially, but now changed to meropenem and cipro and vanc for broader
   coverage.  Other sources: VAP (unable to see on CXR in setting of
   ARDS); Sinusitis: but patient is being treated for this and has had no
   more discharge from his nares. Intra-abdominal is a possibility, but
   RUQ u/s negative for acalculous cholecystitis.  Enzymes are all also
   trending down. C. diff negative. Fungemia possibility, especially given
   risk factors of nutrition with lipids and now new rash.  Overall,
   unclear picture of source.  Other potential etiology of fever is
   ongoing pancreatitis.
   - will attempt CT head, chest, abdomen, pelvis today
   - continue micofungin (day 1: [**2169-10-3**])
   - continue vanc, meropenem (day 1: [**2169-9-29**]), and cipro (Day 1:
   [**2169-9-30**]) for now.  Will re-visit ongoing need for antibiotics versus
   continuing lone anti-fungal coverage given all negative cultures after
   CT.
   - change to q24 hour vanc dosing today: should dose all Abx with a CrCl
   of < 30 while on CVVH per Renal
   - f/u culture data.
   - trend fever curve and WBC
   - foley changed ([**9-28**]); New lines placed [**2169-9-29**]
   - If still unable to find source, consider LENI
s to rule out DVT.
   - pressors PRN
   .
   # Acute renal failure:  likely ATN. Started CVVH [**9-25**].  D/c
d [**9-27**]
   for line kinking and pustular drainage around line.  Re-started [**9-29**]
   after new IR lines placed, but only lasted 8 hours due to clogging
   filter. Re-started [**9-30**] without any significant problems.
   - Continue CVVHD as tolerated and advance rate as tolerated. Goal
   negative 2-3 L.
   - Renal following
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase.   LFTs trending down.  Alk phos increasing.
   - RUQ U/S to evaluate for dilated biliary ducts
   - discuss with ERCP if have concern for elevated alk phos
   - check GGT to r/o alternative source of alk phos.
   - trophic feeds started [**9-28**], patient with significant residuals.
   Re-started trophic tube feeds overnight, tolerated well.  Can consider
   advancing OG to post-pyloric tube placement if still not tolerating
   trophic tube feeds today
   - changed to no lipid TPN
   - check residuals Q 4hrs
   - Trend LFTs and pancreatic enzymes QOD
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt +
   insulin in TPN.
   - Trophic tube feeds as above
   - Insulin in TPN to 100 units + RISS.
   - d/c insulin gtt
   # Atrial Fibrillation: Patient on amio gtt in sinus rhythm. Dilt drip
   stopped [**9-25**]
   - Continue amio gtt for now for entire loading dose as patient cannot
   take po
   - Goal to keep patient
s HR < 120 as to improve CO and perfusion
   - Keep track of Amio dosage; once 10 grams is achieved, may need to
   give maintenance dose through IV (200 mg/day) -  -
   - Currently received a total of 6.970 grams as of 0800 this AM.
   .
   # Anemia: HCT stable
   - Active type and screen.
   - Transfuse if Hct < 25
   - Continue to trend.
   .
   # Thrombocytopenia:  Resolved.  Low suspicion for HIT, and HIT antibody
   could not be sent as does not meet criteria for diagnosis, and subq
   heparin DCed [**2169-9-28**].  [**Month (only) 8**] be secondary to Zosyn. (platelets 202 at
   outside hospital admission)
   - Continue Heparin sub q.
   - Continue to trend.
   - No signs of active bleeding
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2169-10-2**] 09:21 PM 10 mL/hour
   TPN without Lipids - [**2169-10-3**] 06:00 PM 75 mL/hour
   Glycemic Control:  Insulin in TPN + RISS
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   18 Gauge - [**2169-10-2**] 08:00 PM
   Prophylaxis:
   DVT: heparin, pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  patient, patient
s sister, HCP is lawyer
   Comments: lawyer is HCP
   [**Name (NI) 156**] status: DNR (ok to intubate)
   Disposition:  ICU
   11:23
   ------ Protected Section ------
   PGY-1 Addendum: Have read and agree with MSIV note with the following
   additions:
   Physical Exam:
   ------ Protected Section Addendum Entered By:[**Name (NI) 3081**] [**Last Name (NamePattern1) 9286**], MD
   on:[**2169-10-4**] 16:41 ------
   Prior Addendum in error.
   PGY-1 Addendum: have read and agree with MSIV note with the following
   additions:
   Physical Exam:
   Gen: Intubated, sedated, does not follow commands or respond
   HEENT: pupils constricted and minimally responsive, ETT in place
   Neck: RIJ-HD line, LIJ-triple lumen
   CV: RRR, +S1/S2
   Lungs: coarse BS b/l anteriorly
   Abd: tense, no bowel sounds
   Skin: area of erythema on left flank improving, has receded from drawn
   borders, less erythematous
   Ext: bilateral upper and lower extremity edema
   A/P: Agree with starting fungal coverage especially given the duration
   of broad spectrum abx, TPN, and lines in place, ID is following and
   appreciate recs.  Also agree with CT scan today for possible other
   intra-abdominal pathology given persistence of fever particularly while
   the patient is on CVVH.  Respiratory: will keep vent settings where
   they are for now given that the patient will be traveling for CT scan,
   may have a set back with transport, will re-evaluate post CT scan.
   Derm c/s for rash as per ID, but is improving without other
   intervention, can correlate with CT findings as well.  Remainder of
   plan as outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3081**] [**Last Name (NamePattern1) 9286**], MD
   on:[**2169-10-4**] 16:53 ------

2169-10-05 05:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pancreatitis, sepsis, respiratory failure, renal
   failure
   24 Hour Events:
   - CT showed necrotic, liquified pancreas with atonic gall bladder, no
   obvious source of infection.  Extensive mucosal sinus disease with
   bilateral opacification of mastoid air cells
   - Derm elected against biopsy given that there was no clear underyling
   concerning process on CT
   - RUQ US showed GB wall thickening with cholelithiasis, adenomyomatosis
   at GB fundus
   - PEEP weaned to 20, tolerated well, FiO2 at 40%, ABG=7.38/45/95
   - Sedation increased in the setting of agitation, now weaning
   - Patient with episode of difficulty suctioning followed but agitation
   and rhonchorous breath sounds, nothing came up with suctioning, patient
   bagged for about 1-2min with suctioning and improvement in breath
   sounds and ventilation
   - Methadone started  8h in an attempt to wean other sedatives
   - blood sugars in the 200s yesterday
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-4**] 12:22 PM
   Micafungin - [**2169-10-4**] 08:33 PM
   Ciprofloxacin - [**2169-10-4**] 10:36 PM
   Meropenem - [**2169-10-5**] 04:01 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Midazolam (Versed) - 6 mg/hour
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-10-4**] 10:00 PM
   Methadone Hydrochloride - [**2169-10-4**] 10:00 PM
   Midazolam (Versed) - [**2169-10-4**] 11:01 PM
   Fentanyl - [**2169-10-5**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-5**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 84 (75 - 86) bpm
   BP: 123/50(67) {96/38(52) - 146/60(79)} mmHg
   RR: 34 (30 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120.3 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 18 (15 - 32)mmHg
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  9,503 mL
                                                                  2,307 mL
   PO:
   TF:
                                                                     83 mL
   IVF:
                                                                  7,777 mL
                                                                  1,874 mL
   Blood products:
   Total out:
                                                                 11,668 mL
                                                                  1,826 mL
   Urine:
                                                                     48 mL
                                                                     10 mL
   NG:
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,165 mL
                                                                    481 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 370 (370 - 370) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 33 cmH2O
   Compliance: 46.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/50/108/27/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.
   HEENT: Sclera icteric, scleral edema improved.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess b/c neck thick
   Lungs: Patient is on a ventilator.  Anteriorly lungs with  + air
   movement bilaterally, lungs clear
   CV: Rate 80s, regular rhythm, normal S1/S2, soft heart sounds so
   difficult to appreciate whether there are any murmurs
   Abdomen:  No bowel sounds, very distended and tympanic, some dullness
   to percussion at flanks and inferiorly, slightly improved from
   yesterday
   GU: foley present
   Ext: warm, well perfused, 1+ pulses dp, 2+ radial pulses, edematous
   extremities. R femoral cath site wound healing, no pus
   SKIN:  areas of breakdown over R upper thorax anteriorly and penis, no
   pus or erythema or induration extending from wounds.  Area of blanching
   erythema over L flank, decreasing in size and degree of erythema from
   previous days, not particularly warm relative to surrounding skin. New
   bullous lesions 1x3 cm on anterior, superior thigh.  New rash on R
   upper extremity similar to L flank rash.
   Labs / Radiology
   280 K/uL
   8.1 g/dL
   235 mg/dL
   3.2 mg/dL
   27 mEq/L
   3.9 mEq/L
   46 mg/dL
   96 mEq/L
   132 mEq/L
   25.2 %
   14.8 K/uL
        [image002.jpg]
                            [**2169-10-4**]  06:32 AM
                            [**2169-10-4**]  09:58 AM
                            [**2169-10-4**]  11:12 AM
                            [**2169-10-4**]  04:09 PM
                            [**2169-10-4**]  04:22 PM
                            [**2169-10-4**]  07:36 PM
                            [**2169-10-4**]  09:34 PM
                            [**2169-10-4**]  09:47 PM
                            [**2169-10-5**]  03:56 AM
                            [**2169-10-5**]  04:17 AM
   WBC
   14.8
   Hct
   25.2
   Plt
   280
   Cr
   3.3
   3.2
   TCO2
   30
   25
   28
   28
   28
   29
   Glucose
   180
   204
   231
   235
   Other labs: PT / PTT / INR:16.0/29.3/1.4, ALT / AST:49/50, Alk Phos / T
   Bili:141/2.4, Amylase / Lipase:39/9, Differential-Neuts:81.9 %,
   Lymph:10.6 %, Mono:5.6 %, Eos:1.3 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.2 g/dL, LDH:287 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   55 yo male with pmh of HTN and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure/ARDS:  p/f ratio 270.  Was ventilated per
   ARDS protocol with goal minimize TV and PEEP to keep plateau pressures
   low, goal < 40.  Has tolerated weaning to TV 370.  FiO2 40%, PEEP 20.
   Lung fields largely clear on CT and CXR, so may not need ARDS protocol
   ventilation
   - Decrease PEEP to 18.  If tolerates, will switch to pressure support
   18/18 if not too sedated to determine comfortable TV.
   - Continue to wean Midazolam and fentanyl, methadone for sedation.
   Wean midazolam and fentanyl as tolerated.  Will consider switch from
   midazolam to propofol as tolerated by BP in order to allow clearance of
   midazolam.
   .
    # Hypotension/Septic Shock:  Afebrile x 48 hours.  WBC stable. Now on
   meropenem, cipro, vanc. Micofungin added [**10-3**] for presumed fungemia.
   Had been febrile and requiring pressors, but unable to find source
   negative, CXR clear, cultures all negative. Lines changed [**9-29**].  Was
   on Zosyn initially, but now changed to meropenem and cipro and vanc for
   broader coverage.  Other sources: VAP (lungs clear on CXR/CT);
   Sinusitis: but patient is being treated for this and has had no more
   discharge from his nares. Intra-abdominal is a possibility, but CT
   negative.  Enzymes are all also trending down. C. diff negative.
   Fungemia possibility, especially given risk factors of nutrition with
   lipids and now new rash.  Overall, unclear picture of source.  Other
   potential etiology of fever is ongoing pancreatitis.  Off pressors.
   - continue vanc, meropenem (day 1: [**2169-9-29**]), and micafungin (day 1:
   [**2169-10-3**]).  D/C cipro
   - dose all Abx with a CrCl of < 30 while on CVVH per Renal
   - f/u remaining culture data.
   - trend fever curve and WBC
   - foley changed ([**9-28**]); New lines placed [**2169-9-29**]
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase.   LFTs trending down.  Alk phos stable, elevated
   likely due to cholestasis (atonic GB) + TPN.
   - Trend LFTs and pancreatic enzymes QOD
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt +
   insulin in TPN, now on 105 insulin in TPN + RISS.  BS in 200s yesterday
   - Increase Insulin in TPN to 120 units + RISS.
   # FEN/GI:  No BM x 48 hours.  On TPN.  Has failed trophic tube feeds in
   past, has been off x 24 hours now.
   - re-trial of trophic tube feeds at 10 cc/hr
   - check residuals Q 4 hrs
   - continue TPN without lipids
   - increase bowel regimen.  Start with PR suppository, lactulose enema
   PRN.  Start anti-narcotic ileus per OG tube.
   # Acute renal failure:  likely ATN. Started CVVH [**9-25**].  D/c
d [**9-27**]
   for line kinking and pustular drainage around line.  Re-started [**9-29**]
   after new IR lines placed, but only lasted 8 hours due to clogging
   filter. Re-started [**9-30**] without any significant problems.
   - Continue CVVHD as tolerated and advance rate as tolerated. Goal
   negative 2-3 L.
   - Renal following
   # Atrial Fibrillation: Patient on amio gtt in sinus rhythm. Dilt drip
   stopped [**9-25**]
   - Continue amio gtt for now for entire loading dose as patient cannot
   take po
   - Goal to keep patient
s HR < 120 as to improve CO and perfusion
   - Keep track of Amio dosage; once 10 grams is achieved, can d/c to
   evaluate if ongoing needs
   - Currently received a total of 7.690 grams as of 0800 this AM.
   .
   # Anemia: HCT stable
   - Active type and screen.
   - Transfuse if Hct < 25
   - Continue to trend.
   .
   # Thrombocytopenia:  Resolved.  Low suspicion for HIT, and HIT antibody
   could not be sent as does not meet criteria for diagnosis, and subq
   heparin DCed [**2169-9-28**].  [**Month (only) 8**] be secondary to Zosyn. (platelets 202 at
   outside hospital admission)
   - Continue Heparin sub q.
   - Continue to trend.
   - No signs of active bleeding
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-10-4**] 06:01 PM 75 mL/hour
   Glycemic Control:  insulin in TPN + RISS
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   18 Gauge - [**2169-10-2**] 08:00 PM
   Prophylaxis:
   DVT:  heparin, pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  patient, patient
s sister, HCP
   Comments: lawyer is HCP
   [**Name (NI) 156**] status: DNR (ok to intubate)
   Disposition:  ICU
   12:22
   ------ Protected Section ------
    Agree with excellent med student note with the addition of the
   following problem to the Assessment and Plan:
   # Rash:
   Erythematous rash on Left flank improving, but newer rash on R medial
   arm and left dorsal arm.  Initial concern was for fungal infection, but
   dermatology was consulted.  Rash thought to be secondary to stasis
   dermatitis in setting of anasarca, but consider that it could also be
   secondary to drug rash.  Dermatology did not biopsy rash at this time.
   - continue to monitor rash for growth or changes, other locations ;
   continue to monitor oropharynx for possible eruption that could signify
   drug rash
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 9313**], MD
   on:[**2169-10-5**] 12:47 ------

2169-10-06 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CXR clear, and CT without significant pleural disease.  Unlikely to
   need ARDS ventilation.  Total minute ventilation 11L.  Pulled approx
   700ml while on pressure support briefly.  Increased TV to 450 with rate
   24, well tolerated
   - PEEP weaned to 15, well-tolerated.  ABG:
   - Unable to tolerate pressure support (RR 5) likely secondary to
   sedation
   - Bladder pressure 13
   - rash concerning on extremities and left flank; stasis dermatitis
   versus drug rash.  Will continue to monitor oropharynx and progression.
   - increased basal insulin in TPN
   - has not had BM recently; difficult to give lactulose for patient
   positioning.  Tried suppository and PO senna/colace.
   - over 5L taken off (w total length of stay fluid balance at +1.5L)
   - filters clotted at approx 0100 hrs.  Now restarted
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-5**] 07:35 AM
   Ciprofloxacin - [**2169-10-5**] 10:26 AM
   Micafungin - [**2169-10-5**] 06:14 PM
   Meropenem - [**2169-10-5**] 08:10 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-10-5**] 01:51 PM
   Methadone Hydrochloride - [**2169-10-5**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-6**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 85 (72 - 90) bpm
   BP: 135/51(72) {91/43(57) - 144/61(80)} mmHg
   RR: 26 (15 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120.3 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 20 (18 - 20)mmHg
   Bladder pressure: 12 (12 - 13) mmHg
   Total In:
                                                                 10,282 mL
                                                                    833 mL
   PO:
   TF:
                                                                     97 mL
                                                                     64 mL
   IVF:
                                                                  7,875 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                 16,851 mL
                                                                      0 mL
   Urine:
                                                                     53 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,569 mL
                                                                    833 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 440 (370 - 440) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 18 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   SpO2: 99%
   ABG: 7.35/53/130/25/2
   Ve: 11.3 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.
   HEENT: Sclera icteric, scleral edema improved.  Pupils small and equal;
   slightly reactive to slight.
   Neck: supple, JVD difficult to assess b/c neck thick
   Lungs: Patient is on a ventilator.  Anteriorly lungs with  + air
   movement bilaterally, lungs clear
   CV: Rate 80s, regular rhythm, normal S1/S2, soft heart sounds so
   difficult to appreciate whether there are any murmurs
   Abdomen:  No bowel sounds, very distended and tympanic, some dullness
   to percussion at flanks and inferiorly, slightly improved from
   yesterday
   GU: foley present
   Ext: warm, well perfused, 1+ pulses dp, 2+ radial pulses, edematous
   extremities. R femoral cath site wound healing, no pus
   SKIN:  areas of breakdown over R upper thorax anteriorly and penis, no
   pus or erythema or induration extending from wounds.  Area of blanching
   erythema over L flank, decreasing in size and degree of erythema from
   previous days, not particularly warm relative to surrounding skin. New
   bullous lesions 1x3 cm on anterior, superior thigh.  New rash on R
   upper extremity similar to L flank rash.
   Labs / Radiology
   282 K/uL
   8.0 g/dL
   245 mg/dL
   3.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   50 mg/dL
   97 mEq/L
   133 mEq/L
   25.0 %
   13.2 K/uL
        [image002.jpg]
                            [**2169-10-5**]  04:17 AM
                            [**2169-10-5**]  09:49 AM
                            [**2169-10-5**]  10:05 AM
                            [**2169-10-5**]  04:08 PM
                            [**2169-10-5**]  04:21 PM
                            [**2169-10-5**]  09:53 PM
                            [**2169-10-5**]  10:13 PM
                            [**2169-10-5**]  11:47 PM
                            [**2169-10-6**]  04:26 AM
                            [**2169-10-6**]  04:50 AM
   WBC
   13.2
   Hct
   25.0
   Plt
   282
   Cr
   3.1
   3.5
   TCO2
   29
   28
   28
   30
   29
   30
   Glucose
   [**Telephone/Fax (3) 9554**]45
   Other labs: PT / PTT / INR:16.0/29.3/1.4, ALT / AST:40/40, Alk Phos / T
   Bili:134/1.8, Amylase / Lipase:39/9, Differential-Neuts:81.5 %,
   Lymph:10.6 %, Mono:6.0 %, Eos:1.5 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:270 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   55 yo male with pmh of HTN and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure/ARDS:  p/f ratio 325.  Was ventilated per
   ARDS protocol with goal minimize TV and PEEP to keep plateau pressures
   low, goal < 40, but lung fields largely clear on CT and CXR, so does
   not need ARDS protocol ventilation.  PS trial this am with TV
   650-700ml, minute vent 7-8.  Tolerated PEEP of 16, FiO2 of 40%, TV 450
   with RR 26.
   - PS trial today.  Check ABG.  If doing well, can leave on PS.  If
   needs assist control, will set higher TV to 500-550 and rate 20 to
   stimulate spontaneous breathing.
   - Continue to wean sedation.  Goal off fentanyl today, continue with
   methadone TID for sedation.
   - Haldol or propofol PRN for sedation in order to allow clearance of
   midazolam.
   .
    # Hypotension/Septic Shock:  Afebrile x 48 hours.  WBC stable. Now on
   meropenem, vanc, micofungin. Micofungin added [**10-3**] for presumed
   fungemia.  Had been febrile and requiring pressors, but unable to find
   source
CT negative, CXR clear, cultures all negative. Lines changed
   [**9-29**].  Was on Zosyn initially, but now changed to meropenem and cipro
   and vanc for broader coverage.  Other sources: VAP (lungs clear on
   CXR/CT); Sinusitis: but patient is being treated for this and has had
   no more discharge from his nares. Intra-abdominal is a possibility, but
   CT negative.  Enzymes are all also trending down. C. diff negative.
   Fungemia possibility, given risk factors of nutrition with lipids and
   new rash, but B-glucan negative.  Overall, unclear picture of source.
   Other potential etiology of fever is ongoing pancreatitis.  Off
   pressors.
   - continue vanc, meropenem (day 1: [**2169-9-29**]), and micafungin (day 1:
   [**2169-10-3**]).  (Cipro d/c
d [**10-5**])
   - plan to move towards removing abx if no increase in WBC, fever, signs
   of infection.  Per ID, consider d/c micofungin [**10-7**], monitor for 24
   hrs, d/c meropenem [**10-8**], monitor x 24 hours, d/c vancomycin [**10-9**].
   - dose all Abx with a CrCl of < 30 while on CVVH per Renal
   - f/u remaining culture data.
   - trend fever curve and WBC
   - foley changed ([**9-28**]); New lines placed [**2169-9-29**]
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt +
   insulin in TPN, now on 120 insulin in TPN + RISS.  BS in 250s yesterday
   - Increase Insulin in TPN to 140 units.
   - restart insulin drip today, plan to calculate needs in the context of
   decreasing TPN and increasing tube feeds
   # Skin:  some bullous lesions on L anterior/superior thigh where tape
   was previously placed.  Erythematous blanching rash on L flank, RLE,
   RUE.  Per derm, likely stasis dermatitis.  Less likely drug rash
   without maculopapular pattern and no eosinophilia.  Originally concern
   for fungemia/underlying infection with skin manifestation, but CT
   negative, B-glucan negative.  Derm declined to biopsy.
   - follow with serial exams and outlining
   - no therapy for now
   # FEN/GI:  BM this AM.  On TPN.  Has failed trophic tube feeds in past,
   restarted at 10 cc/hr [**10-5**], no residuals this AM with active bowel
   sounds
   - advance tube feeds per nutrition recs while decreasing TPN.  Goal is
   to be on tube feeds and off TPN over the weekend.
   - check residuals Q 4 hrs
   - continue TPN without lipids, wean as increasing tube feeds.
   - continue bowel regimen with PR dulcolax, POG colace, senna,
   erythromycin.
   # Acute renal failure:  likely ATN. Started CVVH [**9-25**].  D/c
d [**9-27**]
   for line kinking and pustular drainage around line.  Re-started [**9-29**]
   after new IR lines placed, but only lasted 8 hours due to clogging
   filter. Re-started [**9-30**] without any significant problems.  Was
   negative 6.5 L [**10-5**], tolerated well, now near even for LOS.
   - Continue CVVHD as tolerated and advance rate as tolerated. Goal
   negative 1-2 L.
   - Renal following
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase.   LFTs trending down.  Alk phos stable, elevated
   likely due to cholestasis (atonic GB) + TPN.
   - Trend LFTs and pancreatic enzymes QOD
   # Atrial Fibrillation: Patient on amio gtt in sinus rhythm. Dilt drip
   stopped [**9-25**]
   - Continue amio gtt for now for entire loading dose
   - Goal to keep patient
s HR < 120 as to improve CO and perfusion
   - Keep track of Amio dosage; once 10 grams is achieved, can d/c to
   evaluate if ongoing needs
   - Currently received a total of 8.41 grams as of 0800 this AM.
   .
   # Anemia: HCT stable
   - Active type and screen.
   - Transfuse if Hct < 25
   - Continue to trend.
   .
   # Thrombocytopenia:  Resolved.  Low suspicion for HIT, and HIT antibody
   could not be sent as does not meet criteria for diagnosis, and subq
   heparin DCed [**2169-9-28**].  [**Month (only) 8**] be secondary to Zosyn. (platelets 202 at
   outside hospital admission)
   - Continue Heparin sub q.
   - Continue to trend.
   - No signs of active bleeding
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-10-5**] 06:00 PM 75 mL/hour
   NovaSource Renal (Full) - [**2169-10-6**] 03:00 AM 10 mL/hour
   Glycemic Control:  140 u insulin in TPN + insulin gtt
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   Prophylaxis:
   DVT:  pneumoboots + heparin
   Stress ulcer: PPI in TPN
   VAP:
   Comments:
   Communication:  Comments: patient, patient
s sister, HCP (lawyer)
   Code status: DNR (ok to intubate)
   Disposition:  ICU
   10:34
   ------ Protected Section ------
   Patient seen and examined with MS4 and agree with excellent note above.
   Briefly, this is a 55 yo male h/o gallstone pancreatitis leading to
   septic shock and oliguric renal failure on CVVH with extensive fluid
   loss overnight and improving respiratory status. Continue diuresis and
   wean vent as tolerated.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 9271**], MD
   on:[**2169-10-6**] 13:01 ------

2169-10-07 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   HCP: [**Name (NI) 9573**] Mr. [**Name13 (STitle) 9315**] can be reached at [**Telephone/Fax (1) 9574**] this weekend.
   - Weaning vent settings; currently on PS [**7-22**]
   - sedation weaned to fentanyl only. patient had periods of discomfort
   with hypertension. zyprexa did not help. had to give boluses of
   fentanyl and scheduled midaz as 1-3 mg q 3 hours prn.
   - Had bowel movements and docusate held; po narcan started yesterday
   - per renal: decreased [**Last Name (un) **] to [**Hospital1 **]
   - ID: likely d/c micafungin 24th, d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] on [**10-8**] and shortly after
   d/c vanc if patient is improving.
   - tube feeds increased. nutrition with no recs yet regarding tube feed
   increase and tpn decrease. insulin gtt re-started due to hyperglycemia
   - Since midnight taken off 2 liters for past 24 hours on cvvh.
   - had to decrease rate of cvvh b/c was not working correctly at fast
   rate.
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-5**] 07:35 AM
   Ciprofloxacin - [**2169-10-5**] 10:26 AM
   Micafungin - [**2169-10-5**] 06:14 PM
   Meropenem - [**2169-10-5**] 08:10 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Amiodarone - 0.5 mg/min
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Fentanyl - [**2169-10-6**] 08:40 PM
   Midazolam (Versed) - [**2169-10-6**] 09:10 PM
   Heparin Sodium (Prophylaxis) - [**2169-10-6**] 10:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-7**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 90 (74 - 101) bpm
   BP: 139/55(76) {105/46(62) - 182/63(92)} mmHg
   RR: 13 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.1 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 19 (15 - 21)mmHg
   Bladder pressure: 8 (8 - 8) mmHg
   Total In:
                                                                  8,786 mL
                                                                  2,962 mL
   PO:
   TF:
                                                                    473 mL
                                                                    160 mL
   IVF:
                                                                  6,455 mL
                                                                  2,292 mL
   Blood products:
   Total out:
                                                                 10,811 mL
                                                                  3,196 mL
   Urine:
                                                                     47 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,025 mL
                                                                   -234 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 440 (440 - 440) mL
   Vt (Spontaneous): 665 (0 - 760) mL
   PS : 8 cmH2O
   RR (Set): 26
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 25 cmH2O
   Plateau: 31 cmH2O
   SpO2: 100%
   ABG: 7.29/60/113/26/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.
   HEENT: Sclera icteric, scleral edema improved.  Pupils small and equal;
   mildly reactive , +ETT
   Neck: supple, JVD difficult to assess b/c neck thick
   Lungs: Anteriorly :+ air movement bilaterally, lungs clear
   CV: normal rate, regular rhythm, normal S1/S2, soft heart sounds so
   difficult to appreciate whether there are any murmurs
   Abdomen:  + bowel sounds, less distended and tympanic, some dullness to
   percussion at flanks and inferiorly, slightly improved from yesterday
   GU: +foley, erythematous, edematous scrotum, penis with scab/blister
   area at the base
   Ext: warm, well perfused, 2+ pulses dp, 2+ radial pulses, edematous
   extremities. R femoral cath site wound healing, no pus
   SKIN:  areas of breakdown over R upper thorax anteriorly and penis, no
   pus or erythema or induration extending from wounds.  Area of blanching
   erythema over L flank significantly decreased in size and degree of
   erythema from previous days.  Bullous lesions 1x3 cm on anterior,
   superior thigh are healing.
   Labs / Radiology
   305 K/uL
   8.4 g/dL
   85 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.5 mEq/L
   39 mg/dL
   99 mEq/L
   136 mEq/L
   25.9 %
   16.2 K/uL
        [image002.jpg]
                            [**2169-10-6**]  10:41 AM
                            [**2169-10-6**]  12:33 PM
                            [**2169-10-6**]  03:43 PM
                            [**2169-10-6**]  04:11 PM
                            [**2169-10-6**]  04:46 PM
                            [**2169-10-6**]  06:52 PM
                            [**2169-10-6**]  10:05 PM
                            [**2169-10-6**]  10:20 PM
                            [**2169-10-7**]  04:50 AM
                            [**2169-10-7**]  05:03 AM
   WBC
   16.2
   Hct
   25.9
   Plt
   305
   Cr
   2.7
   2.6
   TCO2
   30
   26
   28
   29
   30
   30
   30
   Glucose
   168
   106
   85
   Other labs: PT / PTT / INR:16.0/29.3/1.4, ALT / AST:40/40, Alk Phos / T
   Bili:134/1.8, Amylase / Lipase:39/9, Differential-Neuts:81.5 %,
   Lymph:10.6 %, Mono:6.0 %, Eos:1.5 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:270 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Microbiology:
   Blood cultures ([**10-4**]): NGTD
   Assessment and Plan
   55 yo male with pmh of HTN and asthma trasnferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure/ARDS:  ARDS resolving, patient now able
   to be weaned from the ventilator, has done well with PS trials and is
   currently on [**7-22**].  ABG
s have been stable with decreases in PS.  Will
   wean further to [**4-18**] later this morning to see how patient tolerates
   further decreased in PEEP.  Plan for SBT later this afternoon with 0
   PEEP and possible extubation today or tomorrow morning depending on how
   he tolerates weaning of his PEEP.
   - Continue to wean sedation: will change to propofol gtt and add
   fentanyl boluses to wake him up significantly
   .
    # Hypotension/Septic Shock:  Afebrile x 72 hours, is having low grade
   temps, max 100.1.  WBC slightly increased from 14 to 16. Now on
   meropenem, vanc, micofungin. Micofungin added [**10-3**] for presumed
   fungemia.  Recent CT showed necrotic pancreas but with no other source
   of infection, no abscess formation.  Has been off pressors.
   - Is currently on vanc, meropenem (day 1: [**2169-9-29**]), and micafungin
   (day 1: [**2169-10-3**]).  (Cipro d/c
d [**10-5**]).  Will start to peel off
   antibiotics as per ID as long as he does not show any further signs of
   infection (leukocytosis, fever): will d/c micofungin today, monitor for
   24 hrs if no further signs of infection then d/c meropenem on [**10-8**],
   monitor x 24 hours, d/c vancomycin [**10-9**].
   - dose all Abx with a CrCl of < 30 while on CVVH per Renal
   - f/u remaining culture data
all NGTD
   - foley changed ([**9-28**]); New lines placed [**2169-9-29**]
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on an insulin gtt +
   insulin in TPN, which is increased today
   - Increase Insulin in TPN to 170 units.
   # Skin:  some bullous lesions on L anterior/superior thigh where tape
   was previously placed.  Erythematous blanching rash on L flank, RLE,
   RUE.  Per derm, likely stasis dermatitis.  Less likely drug rash
   without maculopapular pattern and no eosinophilia.  Originally concern
   for fungemia/underlying infection with skin manifestation, but CT
   negative, B-glucan negative.  Derm declined to biopsy.
   - exam is improving
   # FEN/GI:  Patient with more consistent BM
s today, but with increased
   residuals today, spoke with nutrition and changed to a more elemental
   tube feed that he may tolerate better, but he may end up needing a post
   pyloric feeding tube
   - Will advance tube feeds and once at goal will decrease TPN
   - check residuals Q 4 hrs
   - continue TPN without lipids
   - will d/c erythromycin
   - continue bowel regimen with PR dulcolax, POG colace, senna as prn
   # Acute renal failure:  likely ATN. Started CVVH [**9-25**].  D/c
d [**9-27**]
   for line kinking and pustular drainage around line.  Re-started [**9-29**]
   after new IR lines placed, but only lasted 8 hours due to clogging
   filter. Re-started [**9-30**] without any significant problems.
   - [**Name2 (NI) **] now at a lower weight than on admission, per renal they feel
   his dry weight is close to 100 to 102 kg.
   - Continue CVVHD as tolerated and advance rate as tolerated. Goal
   negative -2 L daily
   - Renal following, appreciate recs
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase.   LFTs trending down.  Alk phos stable, elevated
   likely due to cholestasis (atonic GB) + TPN.
   - Trend LFTs and pancreatic enzymes QOD
   # Atrial Fibrillation: Patient on amio gtt in sinus rhythm. Patient
   will reach loading dose this afternoon, will d/c amio as patient has
   remained in SR
   .
   # Anemia: HCT stable
   - Active type and screen.
   - Transfuse if Hct < 25
   .
   # Thrombocytopenia:  Resolved.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-10-6**] 05:52 PM 75 mL/hour
   Glycemic Control:  Insulin in TPN and inuslin gtt
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   Prophylaxis:
   DVT: Heparin in TPN, pneumoboots
   Stress ulcer: H2 blocker in TPN
   VAP:  bundle
   Comments:
   Communication:  Comments: HCP is patient
s [**Year (4 digits) **], see phone # above
   and patient
s sister is also getting updates
   Code status: DNR / DNI- is currently intubated
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   55 yo previously relatively healthy male p/w gall stone pancreatitis,
   now s/p ERCP with CBD stenting, whose course has been complicated by
   hypoxemic respiratory failure, now oliguric on CVVH for ARF.
   Has been doing better on vent on PSV 8/8 this AM. Sedation being weaned
   down to fentanyl drip +/- boluses for V/F. Still has vent
   dyssynchrony. Having regular bowel movements now after starting
   narcan/erythro. Having thick tan secretions. Remains on TPN.
   Tm 100.1, HR 90, BP 139/55, PS [**7-22**], FiO2 .4, RR 17. ABG 7.37/48/75.
   Last CVP 19. Bladder pressure down to 8 this AM. Sedated, eyes open,
   not tracking, MIP -50, Lungs
   Labs reviewed. WBC 16 (fluctuated 13-19). Cultures remain negative.
   Meds - amio drip, mycafungin 100 qd, fent, Vanc 1 gm q24 (dosed by
   level), insulin drip, erythro, [**Last Name (un) 350**], narcan PO q6h, famotidine in TPN,
   TF were at goal but had residuals and emesis this AM.
   Impression/Plan
   Acute resp failure, c/w PS wean, allow time for sedation to wash out
   before being able to extubate. Sedate with propofol drip and fent
   bolus. For sepsis, pancreatitis, necrotic pancreatitis, will continue
   with Vanc/Meropenem. Can d/c mycafungin today and observe. Renal
   failure - c/w diuresis on CVVHD.  re-advance TFs and will decrease or
   d/c TPN if reaches goal consistently. C/w insulin drip and monitor
   glycemic control. Was in afib, now sinus, completing amio load.
   DNR, not DNI. Patient is critically ill. Time spent 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2169-10-7**] 15:40 ------

2169-10-08 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - patient doing well with weaning, was on PSV 8/5 overnight and doing
   well, on propofol ; switched to PS 5/5 around 3am (w
RSBI
 in 50s on
   PS 5/5)
   - pt does not respond to voice but gets agitated when sedation turned
   off
bites/gags on tube; can tell that he is in pain from skin breakdown
   w hypertension and HR
   - CVVH machine clotted again and machine [**Location (un) 118**] fluid positive; Renal
   team decided to hold off on more CVVH until AM
 may consider doing HD
   instead
   - patient currently close to admission weight, per renal they feel his
   dry weight is 100-102kg
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2169-10-5**] 10:26 AM
   Micafungin - [**2169-10-5**] 06:14 PM
   Meropenem - [**2169-10-5**] 08:10 PM
   Vancomycin - [**2169-10-7**] 04:06 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2169-10-7**] 12:52 PM
   Fentanyl - [**2169-10-8**] 01:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-8**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 97 (81 - 103) bpm
   BP: 133/62(82) {100/47(62) - 161/71(94)} mmHg
   RR: 27 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 14 (10 - 16)mmHg
   Total In:
                                                                  8,099 mL
                                                                    826 mL
   PO:
   TF:
                                                                    361 mL
   IVF:
                                                                  5,938 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  7,316 mL
                                                                     40 mL
   Urine:
                                                                     25 mL
                                                                     40 mL
   NG:
                                                                    310 mL
   Stool:
   Drains:
   Balance:
                                                                    783 mL
                                                                    786 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 351 (351 - 694) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.36/47/91.[**Numeric Identifier 253**]/22/0
   NIF: -50 cmH2O
   Ve: 10.6 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General: Sedated and intubated.  Does not respond to voice.
   HEENT: Sclera icteric, scleral edema improved.  Pupils small and equal;
   mildly reactive , +ETT
   Neck: supple, JVD difficult to assess b/c neck thick
   Lungs: Anteriorly :+ air movement bilaterally, lungs clear
   CV: normal rate, regular rhythm, normal S1/S2, soft heart sounds so
   difficult to appreciate whether there are any murmurs
   Abdomen:  + bowel sounds, less distended and tympanic, some dullness to
   percussion at flanks and inferiorly, slightly improved from yesterday
   GU: +foley, erythematous, edematous scrotum, penis with scab/blister
   area at the base
   Ext: warm, well perfused, 2+ pulses dp, 2+ radial pulses, edematous
   extremities. R femoral cath site wound healing, no pus
   SKIN:  areas of breakdown over R upper thorax anteriorly and penis, no
   pus or erythema or induration extending from wounds.  Area of blanching
   erythema over L flank significantly decreased in size and degree of
   erythema from previous days.  Bullous lesions 1x3 cm on anterior,
   superior thigh are healing.  Erythema anterior legs and dorsal hands
   and forearms stable.
   Labs / Radiology
   256 K/uL
   7.7 g/dL
   88 mg/dL
   3.5 mg/dL
   22 mEq/L
   3.9 mEq/L
   53 mg/dL
   104 mEq/L
   137 mEq/L
   23.3 %
   9.9 K/uL
        [image002.jpg]
                            [**2169-10-7**]  05:03 AM
                            [**2169-10-7**]  11:00 AM
                            [**2169-10-7**]  01:24 PM
                            [**2169-10-7**]  01:33 PM
                            [**2169-10-7**]  07:46 PM
                            [**2169-10-7**]  08:22 PM
                            [**2169-10-7**]  11:03 PM
                            [**2169-10-8**]  01:39 AM
                            [**2169-10-8**]  04:30 AM
                            [**2169-10-8**]  04:52 AM
   WBC
   9.9
   Hct
   23.3
   Plt
   256
   Cr
   2.9
   3.5
   TCO2
   30
   30
   29
   28
   27
   26
   28
   Glucose
   76
   98
   88
   Other labs: PT / PTT / INR:16.0/29.3/1.4, ALT / AST:40/40, Alk Phos / T
   Bili:134/1.8, Amylase / Lipase:39/9, Differential-Neuts:81.5 %,
   Lymph:10.6 %, Mono:6.0 %, Eos:1.5 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:270 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   55 yo male with pmh of HTN and asthma transferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure/ARDS:
   ARDS resolving, patient did well on PS 5/5 this morning.  ABGs have
   been stable with decreases in PS.  Plan for SBT later this afternoon
   with 0 PEEP and possible extubation today or tomorrow morning depending
   on how he tolerates weaning of his PEEP.
   - do SBT today w propofol weaned off ; try waking him up in afternoon
   - barriers to extubation = Mental Status
 not ready for extubation
   today for that reason
   - contact HCP about whether pt should be reintubated should he fail
   extubation
   .
    # Hypotension/Septic Shock:   Pt continues to have low grade temps,
   max 100.1.  WBC decreased to 9.9 from 16.  No culture growth to date;
   patient may not have actually had septic shock, but distributive shock
   of other etiology.  Continues on meropenem, vanc; Micofungin was D/Ced
   [**10-7**] ( had been added [**10-3**] for presumed fungemia).  Recent CT showed
   necrotic pancreas but with no other source of infection, no abscess
   formation.  Has been stable off pressors.
   - Abx regimen:  vanc, meropenem (day 1: [**2169-9-29**])
 will D/C meropenem
   today, then likely D/C vancomycin tomorrow, following ID recs as long
   as he shows no further signs of infection
   - dose all Abx with a CrCl of < 30 while on CVVH per Renal
   - f/u remaining culture data
all NGTD
   - foley changed ([**9-28**]); New lines placed [**2169-9-29**]
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on insulin in TPN ;
   insulin gtt DCed.
   - cont to monitor , particularly after transition from TPN to tube
   feeds
   # Skin:  some bullous lesions on L anterior/superior thigh where tape
   was previously placed.  Erythematous blanching rash on L flank, RLE,
   RUE.  Per derm, likely stasis dermatitis.  Less likely drug rash
   without maculopapular pattern and no eosinophilia.  Originally concern
   for fungemia/underlying infection with skin manifestation, but CT
   negative, B-glucan negative.  Derm declined to biopsy.
   - exam is stable/improving
   # FEN/GI:  Patient with more consistent BMs today; trying new tube
   feeds w less lipids to see if residuals improve today. Erythromycin
   DCed yesterday b/c did not seem to be helping
   - may end up needing a post pyloric feeding tube
   - Will advance tube feeds and once at goal will decrease TPN
   - check residuals Q 4 hrs
   - continue TPN
 can likely add back lipids for tomorrow
s TPN
   - continue bowel regimen with PR dulcolax, POG colace, senna as prn
   # Acute renal failure:  likely ATN. Started CVVH [**9-25**].  D/c
d [**9-27**]
   for line kinking and pustular drainage around line.  Re-started [**9-29**]
   after new IR lines placed, but only lasted 8 hours due to clogging
   filter. Re-started [**9-30**] without any significant problems.   [**Name (NI) 6**] had
   intermittent filter clogging problems w CVVH including last night
   - CVVH again today, then switch to HD tomorrow
   - Patient now at a lower weight than on admission, but he presented
   from outside hospital already 8-10L up; Renal team feels his dry weight
   is close to 100 to 102 kg.
   - Continue CVVHD today -- Goal negative -2 L today
   - Renal following, appreciate recs
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase.   LFTs stable, normalized.  Alk phos still elevated
   but stable, and T Bili trending down.  Alk phos elevated likely due to
   cholestasis (atonic GB) + TPN.
   - Trend LFTs and pancreatic enzymes QOD
   # Atrial Fibrillation: Patient in sinus rhythm w rate in 90s.  Reached
   loading dose on [**10-6**], so amio gtt was DCed, but loading dose should
   stay in his system for a while.
   - cont to monitor and may start home calcium channel blocker
   .
   # Anemia: HCT drop to 23 this AM, but repeat is 26, so did not
   transfuse.  Will need to cont to monitor.
   - Active type and screen.
   - Transfuse if Hct < 25
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-10-7**] 05:50 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   Prophylaxis:
   DVT: Heparin in TPN
   Stress ulcer: H2 blocker in TPN
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR , currently intubated ; need to touch base w HCP
   regarding re-intubation if fails extubation
   Disposition:

2169-10-08 12:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo previously relatively healthy male p/w gall stone pancreatitis,
   now s/p ERCP with CBD stenting, whose course has been complicated by
   hypoxemic respiratory failure, now oliguric on CVVH for ARF.
   24 Hour Events:
   Put on PS 5/5 this AM, RSBI in 50s
   Remains sedated, not yet following commands
   CVVH could not be done yesterday for technical reasons
   Low grade fevers
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Micafungin - [**2169-10-5**] 06:14 PM
   Meropenem - [**2169-10-5**] 08:10 PM
   Vancomycin - [**2169-10-7**] 04:06 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-10-7**] 12:52 PM
   Fentanyl - [**2169-10-8**] 12:17 PM
   Other medications:
   Propofol, narcan q6h, off fent drip, Vanc, meropenem, off insulin iv
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-8**] 12:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.5
C (99.5
   HR: 96 (81 - 104) bpm
   BP: 183/58(93) {100/47(62) - 195/69(104)} mmHg
   RR: 37 (13 - 37) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110 kg (admission): 120 kg
   Height: 71 Inch
   CVP: 10 (10 - 16)mmHg
   Total In:
                                                                  8,099 mL
                                                                  1,858 mL
   PO:
   TF:
                                                                    361 mL
   IVF:
                                                                  5,938 mL
                                                                    829 mL
   Blood products:
   Total out:
                                                                  7,316 mL
                                                                    963 mL
   Urine:
                                                                     25 mL
                                                                    115 mL
   NG:
                                                                    310 mL
   Stool:
   Drains:
   Balance:
                                                                    783 mL
                                                                    895 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 360 (351 - 694) mL
   PS : 5 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 13 cmH2O
   SpO2: 92%
   ABG: 7.36/47/91/22
   Ve: 11.6 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, Rash on forearms, legs, unchanged
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   256 K/uL
   88 mg/dL
   3.5 mg/dL
   22 mEq/L
   3.9 mEq/L
   53 mg/dL
   104 mEq/L
   137 mEq/L
   23.3 %
   9.9 K/uL
        [image002.jpg]
                            [**2169-10-7**]  05:03 AM
                            [**2169-10-7**]  11:00 AM
                            [**2169-10-7**]  01:24 PM
                            [**2169-10-7**]  01:33 PM
                            [**2169-10-7**]  07:46 PM
                            [**2169-10-7**]  08:22 PM
                            [**2169-10-7**]  11:03 PM
                            [**2169-10-8**]  01:39 AM
                            [**2169-10-8**]  04:30 AM
                            [**2169-10-8**]  04:52 AM
   WBC
   9.9
   Hct
   23.3
   Plt
   256
   Cr
   2.9
   3.5
   TCO2
   30
   30
   29
   28
   27
   26
   28
   Glucose
   76
   98
   88
   Other labs: PT / PTT / INR:16.0/29.3/1.4, ALT / AST:40/40, Alk Phos / T
   Bili:134/1.8, Amylase / Lipase:39/9, Differential-Neuts:81.5 %,
   Lymph:10.6 %, Mono:6.0 %, Eos:1.5 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:270 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR - bilat pleural effusions, smaller lung volumes
   Assessment and Plan
   55 yo previously relatively healthy male p/w gall stone pancreatitis,
   now s/p ERCP with CBD stenting, whose course has been complicated by
   hypoxemic respiratory failure, now oliguric on CVVH for ARF.
   Impression/Plan
   Acute resp failure, c/w PS wean, tolerating PS 5/5, allow time for
   sedation to wash out before being able to extubate. C/w with propofol
   drip and fent boluses.
   Sepsis, pancreatitis, necrotic pancreatitis - will continue with Vanc
   and d/c Meropenem today. Mycafungin was d/c'd yesterday.
   Renal failure - c/w diuresis on CVVHD with HD likely Monday.
   Ileus/Nutrition - re-advance TFs with goal of decreasing or d/c TPN if
   reaches goal consistently. C/w insulin drip and monitor glycemic
   control. Was in afib, now sinus, completing amio load.
   Anemia - watch hct +/- transfuse. tolerate Hct at 23 but would
   transfuse if drops further.
   DNR, not DNI. Patient is critically ill. Time spent 35 minutes.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-10-7**] 05:50 PM 75 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2169-10-09 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   patient able to be weaned, currently on PSV 8/5 and doing well, plan
   for SBT in the morning after we d/c propofol, ? extubation
   - CVVH machine clotted again and machine [**Location (un) 118**] fluid positive, spoke
   with renal, will hold off on more CVVH tonight and they will see early
   in the morning tomorrow, ? possible HD instead
   - patient currently close to admission weight, per renal they feel his
   dry weight is 100-102kg
   - need to contact HCP prior to extubation re: reintubation if he fails
   - pt does have baseline HTN; consider starting IV dilt Q6h?... because
   he can sometimes go up to 180s systolic, esp on CVVH; starting HD [**Doctor First Name 600**]
   which could drop his BPs.  Some of his high BPs could be related to his
   agitation when less sedated
   - tried one time dose of 60mg Dilt when SBP 180s on CVVH to see how he
   absorbs the dilt -- didn't have any effect within 1hr, but SBP up to
   190s, so gave 10mg IV hydralazine x1--> didn't work... so gave 5mg IV
   metoprolol --> responded well w BPs in 150s
   - started metoprolol PO 12.5mg TID w high holding parameters
   - can add back lipids to TPN for tomorrow's order (had DCed lipids
   previously b/c we thought he might have had fungemia)
   - new tube feeds today have less lipids (he was switched b/c nutrition
   thought maybe high residuals were a result of difficulty digesting
   lipids from tube feeds)
   - Barrier to extubation is Mental statuS!  so if his mental status
   improves, then we will stop tube feeds for extubation (b/c o/w we
   consistently stop tube feeds after midnight for "possib" extubation and
   dont extubate for days)
   - tolerated PS 5/5 since 4am [**10-8**] to about 5:30pm --> put him back on
   PS [**9-23**] to rest him a bit overnight b/c he was becoming more
   tachypneic but looks rested on PS [**9-23**], also increased the propofol
   slightly (which also helped the BPs)
   - bladder pressure [**10-7**] was 9, which was so improved that no bladder
   pressure was measured today
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-7**] 04:06 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2169-10-8**] 04:48 PM
   Metoprolol - [**2169-10-8**] 05:25 PM
   Fentanyl - [**2169-10-9**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-9**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 78 (76 - 104) bpm
   BP: 133/57(75) {123/53(73) - 195/69(104)} mmHg
   RR: 24 (17 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.3 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 18 (10 - 19)mmHg
   Total In:
                                                                  6,393 mL
                                                                  2,753 mL
   PO:
   TF:
                                                                    326 mL
                                                                    276 mL
   IVF:
                                                                  4,147 mL
                                                                  1,919 mL
   Blood products:
   Total out:
                                                                  7,965 mL
                                                                  3,707 mL
   Urine:
                                                                    212 mL
                                                                     40 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,572 mL
                                                                   -954 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 530 (360 - 617) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.42/41/139/25/2
   Ve: 11.9 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, Rash on forearms, legs, unchanged
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   284 K/uL
   8.7 g/dL
   168 mg/dL
   2.8 mg/dL
   25 mEq/L
   3.7 mEq/L
   47 mg/dL
   100 mEq/L
   135 mEq/L
   25.7 %
   10.5 K/uL
        [image002.jpg]
                            [**2169-10-7**]  11:03 PM
                            [**2169-10-8**]  01:39 AM
                            [**2169-10-8**]  04:30 AM
                            [**2169-10-8**]  04:52 AM
                            [**2169-10-8**]  03:25 PM
                            [**2169-10-8**]  03:29 PM
                            [**2169-10-8**]  09:00 PM
                            [**2169-10-8**]  09:12 PM
                            [**2169-10-9**]  02:46 AM
                            [**2169-10-9**]  03:27 AM
   WBC
   9.9
   10.9
   10.5
   Hct
   23.3
   26.6
   25.7
   Plt
   [**Telephone/Fax (3) 9596**]
   Cr
   3.5
   2.8
   TCO2
   27
   26
   28
   27
   27
   28
   Glucose
   88
   102
   209
   168
   Other labs: PT / PTT / INR:16.0/29.3/1.4, ALT / AST:29/47, Alk Phos / T
   Bili:109/1.4, Amylase / Lipase:39/9, Differential-Neuts:81.5 %,
   Lymph:10.6 %, Mono:6.0 %, Eos:1.5 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:279 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   55 yo male with pmh of HTN and asthma transferred from an OSH for
   worsening gallstone pancreatitis leading to septic shock complicated by
   hypoxic respiratory failure and oliguric acute renal failure currently
   on CVVH.
   .
   # Hypoxic Respiratory failure/ARDS:
   ARDS resolving, patient did well on PS 5/5 this morning.  ABGs have
   been stable with decreases in PS.  Plan for SBT later this afternoon
   with 0 PEEP and possible extubation today or tomorrow morning depending
   on how he tolerates weaning of his PEEP.
   - do SBT today w propofol weaned off ; try waking him up in afternoon
   - barriers to extubation = Mental Status
 not ready for extubation
   today for that reason
   - contact HCP about whether pt should be reintubated should he fail
   extubation
   .
    # Hypotension/Septic Shock:   Pt continues to have low grade temps,
   max 100.1.  WBC decreased to 9.9 from 16.  No culture growth to date;
   patient may not have actually had septic shock, but distributive shock
   of other etiology.  Continues on meropenem, vanc; Micofungin was D/Ced
   [**10-7**] ( had been added [**10-3**] for presumed fungemia).  Recent CT showed
   necrotic pancreas but with no other source of infection, no abscess
   formation.  Has been stable off pressors.
   - Abx regimen:  vanc, meropenem (day 1: [**2169-9-29**])
 will D/C meropenem
   today, then likely D/C vancomycin tomorrow, following ID recs as long
   as he shows no further signs of infection
   - dose all Abx with a CrCl of < 30 while on CVVH per Renal
   - f/u remaining culture data
all NGTD
   - foley changed ([**9-28**]); New lines placed [**2169-9-29**]
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes.  Controlled on insulin in TPN ;
   insulin gtt DCed.
   - cont to monitor , particularly after transition from TPN to tube
   feeds
   # Skin:  some bullous lesions on L anterior/superior thigh where tape
   was previously placed.  Erythematous blanching rash on L flank, RLE,
   RUE.  Per derm, likely stasis dermatitis.  Less likely drug rash
   without maculopapular pattern and no eosinophilia.  Originally concern
   for fungemia/underlying infection with skin manifestation, but CT
   negative, B-glucan negative.  Derm declined to biopsy.
   - exam is stable/improving
   # FEN/GI:  Patient with more consistent BMs today; trying new tube
   feeds w less lipids to see if residuals improve today. Erythromycin
   DCed yesterday b/c did not seem to be helping
   - may end up needing a post pyloric feeding tube
   - Will advance tube feeds and once at goal will decrease TPN
   - check residuals Q 4 hrs
   - continue TPN
 can likely add back lipids for tomorrow
s TPN
   - continue bowel regimen with PR dulcolax, POG colace, senna as prn
   # Acute renal failure:  likely ATN. Started CVVH [**9-25**].  D/c
d [**9-27**]
   for line kinking and pustular drainage around line.  Re-started [**9-29**]
   after new IR lines placed, but only lasted 8 hours due to clogging
   filter. Re-started [**9-30**] without any significant problems.   [**Name (NI) 6**] had
   intermittent filter clogging problems w CVVH including last night
   - CVVH again today, then switch to HD tomorrow
   - Patient now at a lower weight than on admission, but he presented
   from outside hospital already 8-10L up; Renal team feels his dry weight
   is close to 100 to 102 kg.
   - Continue CVVHD today -- Goal negative -2 L today
   - Renal following, appreciate recs
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase.   LFTs stable, normalized.  Alk phos still elevated
   but stable, and T Bili trending down.  Alk phos elevated likely due to
   cholestasis (atonic GB) + TPN.
   - Trend LFTs and pancreatic enzymes QOD
   # Atrial Fibrillation: Patient in sinus rhythm w rate in 90s.  Reached
   loading dose on [**10-6**], so amio gtt was DCed, but loading dose should
   stay in his system for a while.
   - cont to monitor and may start home calcium channel blocker
   .
   # Anemia: HCT drop to 23 this AM, but repeat is 26, so did not
   transfuse.  Will need to cont to monitor.
   - Active type and screen.
   - Transfuse if Hct < 25
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-10-7**] 05:50 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   Prophylaxis:
   DVT: Heparin in TPN
   Stress ulcer: H2 blocker in TPN
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR , currently intubated ; need to touch base w HCP
   regarding re-intubation if fails extubation
   Disposition:

2169-10-09 12:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Primary obstacle to extubation remains altered mental status.
   Tolerating IPS mode.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-9**] 08:01 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Hydralazine - [**2169-10-8**] 04:48 PM
   Metoprolol - [**2169-10-8**] 05:25 PM
   Fentanyl - [**2169-10-9**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventillation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-10-9**] 12:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 96 (68 - 101) bpm
   BP: 179/72(103) {129/53(71) - 188/72(103)} mmHg
   RR: 23 (17 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.3 kg (admission): 120 kg
   Height: 71 Inch
   CVP: 15 (10 - 19)mmHg
   Total In:
                                                                  6,393 mL
                                                                  5,215 mL
   PO:
   TF:
                                                                    326 mL
                                                                    499 mL
   IVF:
                                                                  4,147 mL
                                                                  3,740 mL
   Blood products:
   Total out:
                                                                  7,965 mL
                                                                  6,139 mL
   Urine:
                                                                    212 mL
                                                                    103 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,572 mL
                                                                   -924 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 461 (430 - 617) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.46/40/126/25/5
   Ve: 13.9 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese, Firm
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, Able to blink eyes/close eyes
   to command
   Labs / Radiology
   8.7 g/dL
   284 K/uL
   168 mg/dL
   2.8 mg/dL
   25 mEq/L
   3.7 mEq/L
   47 mg/dL
   100 mEq/L
   135 mEq/L
   25.7 %
   10.5 K/uL
        [image002.jpg]
                            [**2169-10-8**]  01:39 AM
                            [**2169-10-8**]  04:30 AM
                            [**2169-10-8**]  04:52 AM
                            [**2169-10-8**]  03:25 PM
                            [**2169-10-8**]  03:29 PM
                            [**2169-10-8**]  09:00 PM
                            [**2169-10-8**]  09:12 PM
                            [**2169-10-9**]  02:46 AM
                            [**2169-10-9**]  03:27 AM
                            [**2169-10-9**]  11:23 AM
   WBC
   9.9
   10.9
   10.5
   Hct
   23.3
   26.6
   25.7
   Plt
   [**Telephone/Fax (3) 9596**]
   Cr
   3.5
   2.8
   TCO2
   26
   28
   27
   27
   28
   29
   Glucose
   88
   102
   209
   168
   Other labs: PT / PTT / INR:16.0/29.3/1.4, ALT / AST:29/47, Alk Phos / T
   Bili:109/1.4, Amylase / Lipase:39/9, Differential-Neuts:81.5 %,
   Lymph:10.6 %, Mono:6.0 %, Eos:1.5 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:279 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   55 yom gallstone pancreatitis and sepsis, complicated by acute renal
   failure and persistent altered mental status.
   RESPIRATORY FAILURE -- attributed to sepsis, altered mental status.
   Underlying asthma.  Good progress.  Plan to continue to move towards
   extubation trial as mental status improves.
   HYPOTENSION -- improved.  Monitor BP, maintain MAP >60 mmHg.
   SEPSIS -- improved.  Monitor. Antimicrobials to complete course.
   ALTERED MENTAL STATUS -- attributed to medications.
   HYPERGLYCEMIA -- monitor glucose.  Maintina <150.
   ACUTE RENAL FAILURE -- attributed to ATN.  Tolerating CVVHD, consider
   hemodialysis.
   PANCREATITIS -- ACUTE, attributed to galllstone.  s/p ERCP stent
   placement.  Monitor exam, LFTs, amylase, lipase.
   FLUIDS -- hyperexpanded.  Continue net removal.  Monitor I/O.
   BULLOUS LESIONS, Left THIGH --  exam is stable or improving
    A-FIB -- now NSR.  Continue to monitor and may start home calcium
   channel blocker
   ANEMIA -- Stable.  Continue to monitor Hct.  Transfuse if <21.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-10-8**] 04:45 PM 75 mL/hour
   Vivonex (Full) - [**2169-10-9**] 02:13 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-10-10 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continues on PS 5/5
   - Off sedation  (methadone, propofol d/c
d [**10-9**] AM )
   - got 2 does of IV Fentanyl O/N.
   -Able to blink in response to voice commands, mental status continues
   to be poor
   -Overnight, per nurse, patient is more alert and responsive, able to
   follow commands
   - off all antibiotics-  however at very high risk for line infection.
   -stopped TPN as TF at goal, hyperglycemic as had insulin in TPN
   -Axillary temps 99.5F over the last several hours.
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-9**] 08:01 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-10**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 99 (68 - 103) bpm
   BP: 155/62(90) {129/49(71) - 179/80(108)} mmHg
   RR: 20 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.3 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 11 (5 - 19)mmHg
   Total In:
                                                                 10,892 mL
                                                                  2,721 mL
   PO:
   TF:
                                                                  1,119 mL
                                                                    422 mL
   IVF:
                                                                  8,004 mL
                                                                  2,224 mL
   Blood products:
   Total out:
                                                                 13,515 mL
                                                                  2,703 mL
   Urine:
                                                                    202 mL
                                                                     71 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,623 mL
                                                                     18 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnPres
   Vt (Spontaneous): 547 (409 - 547) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: 7.44/43/148/27/5
   Ve: 10.4 L/min
   PaO2 / FiO2: 370
   Physical Examination
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese, Firm
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, Able to blink eyes/close eyes
   to command
   Labs / Radiology
   283 K/uL
   8.5 g/dL
   251 mg/dL
   2.3 mg/dL
   27 mEq/L
   4.1 mEq/L
   38 mg/dL
   98 mEq/L
   133 mEq/L
   25.9 %
   11.2 K/uL
        [image002.jpg]
                            [**2169-10-9**]  02:46 AM
                            [**2169-10-9**]  03:27 AM
                            [**2169-10-9**]  11:09 AM
                            [**2169-10-9**]  11:23 AM
                            [**2169-10-9**]  03:44 PM
                            [**2169-10-9**]  04:06 PM
                            [**2169-10-9**]  10:10 PM
                            [**2169-10-9**]  10:30 PM
                            [**2169-10-10**]  03:34 AM
                            [**2169-10-10**]  04:04 AM
   WBC
   10.5
   11.2
   Hct
   25.7
   25.9
   Plt
   284
   283
   Cr
   2.8
   2.4
   2.3
   TCO2
   28
   29
   29
   30
   30
   Glucose
   168
   160
   180
   152
   251
   Other labs: PT / PTT / INR:16.1/31.5/1.4, ALT / AST:29/47, Alk Phos / T
   Bili:109/1.4, Amylase / Lipase:39/9, Differential-Neuts:81.5 %,
   Lymph:10.6 %, Mono:6.0 %, Eos:1.5 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:279 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   55 yo gentleman w/  HTN and asthma transferred from [**Hospital3 33**] Hospital
   for worsening gallstone pancreatitis leading to septic shock
   complicated by hypoxic respiratory failure and oliguric acute renal
   failure currently on CVVH.
   .
   # Hypoxic Respiratory failure:
   - Patient doing well on PS 5/5.  ABGs have been stable with decreases
   in PS.
   - Off all sedation, will give patient a day or so before extubation for
   sedative clearance
   - barriers to extubation = Mental Status
 not ready for extubation
   today for that reason
   - contact HCP about whether pt should be reintubated should he fail
   extubation
   .
    # Septic/ Distributive Shock:   Pt has low grade temps- 99, could be
   [**1-16**] inflammation from necrotic pancreas, unlikely new focus of
   infection, as WBC trending down,  no culture growth to data.  Recent CT
   showed necrotic pancreas but with no other source of infection, no
   abscess formation.  Has been stable off pressors.
   - Currently off all Abx
   - will need to monitor closely for infx
   - f/u remaining culture data
all NGTD
   - foley changed ([**9-28**]); New lines placed [**2169-9-29**]
   .
   # Hyperglycemia:  The patient does not have known history of diabetes,
   however was found to have sugars in the 500's at the OSH so he likely
   had underlying type II diabetes
   - now off TPN w/ insulin, monitor blood glucose carefully on TF
   -  FS have been trending up to 300s, got 8 [**Location 9611**] this AM
   - will cover w/ short acting insulin to obtain daily insulin need, then
   titrate appropriately
   # Skin:  some bullous lesions on L anterior/superior thigh where tape
   was previously placed.  Erythematous blanching rash on L flank, RLE,
   RUE.  Per derm, likely stasis dermatitis.  Less likely drug rash
   without maculopapular pattern and no eosinophilia.  Originally concern
   for fungemia/underlying infection with skin manifestation, but CT
   negative, B-glucan negative.  Derm declined to biopsy.
   - exam is stable/improving
   # Acute renal failure:  likely ATN. Started CVVH [**9-25**].  D/c
d [**9-27**]
   for line kinking and pustular drainage around line.  Re-started [**9-29**]
   after new IR lines placed, but only lasted 8 hours due to clogging
   filter. Re-started [**9-30**] without any significant problems.   [**Name (NI) 6**] had
   intermittent filter clogging problems w CVVH including last night
   - CVVH again today
   - pt at -5 L
   - Renal following, appreciate recs
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  Improving
   lipase and amylase.   LFTs stable, normalized.  Alk phos still elevated
   but stable, and T Bili trending down.  Alk phos elevated likely due to
   cholestasis (atonic GB) + TPN.
   - Trend LFTs and pancreatic enzymes QOD
   # Atrial Fibrillation: Patient in sinus rhythm w rate in 90s.  Reached
   loading dose on [**10-6**], so amio gtt was DCed, but loading dose should
   stay in his system for a while.
   - cont to monitor and may start home calcium channel blocker
   - increased metoprolol to 25 mg TID [**10-9**]
   .
   # Anemia: Will need to cont to monitor, stable for now
   - Active type and screen.
   - Transfuse if Hct < 25
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-10-8**] 04:45 PM 75 mL/hour
   Vivonex (Full) - [**2169-10-9**] 02:13 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Arterial Line - [**2169-9-29**] 06:28 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU

2169-10-10 14:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Somewhat more awake this AM, responding to questions with eye-blinking.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-9**] 08:01 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2169-10-10**] 01:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-10-10**] 02:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 83 (83 - 103) bpm
   BP: 131/64(80) {131/64(80) - 131/64(80)} mmHg
   RR: 23 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.8 kg (admission): 120 kg
   Height: 71 Inch
   CVP: 22 (5 - 22)mmHg
   Total In:
                                                                 10,892 mL
                                                                  6,126 mL
   PO:
   TF:
                                                                  1,119 mL
                                                                    882 mL
   IVF:
                                                                  8,004 mL
                                                                  5,054 mL
   Blood products:
   Total out:
                                                                 13,515 mL
                                                                  7,889 mL
   Urine:
                                                                    202 mL
                                                                    129 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,623 mL
                                                                 -1,763 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnPres
   Vt (Spontaneous): 420 (409 - 547) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.41/46/129/28/4
   Ve: 11.2 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , No(t) Obese, Frim
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Decreased, Opens/closes eyes to command;
   attempting to move fingers
   Labs / Radiology
   8.5 g/dL
   283 K/uL
   300 mg/dL
   2.3 mg/dL
   28 mEq/L
   4.1 mEq/L
   38 mg/dL
   96 mEq/L
   133 mEq/L
   25.9 %
   11.2 K/uL
        [image002.jpg]
                            [**2169-10-9**]  11:09 AM
                            [**2169-10-9**]  11:23 AM
                            [**2169-10-9**]  03:44 PM
                            [**2169-10-9**]  04:06 PM
                            [**2169-10-9**]  10:10 PM
                            [**2169-10-9**]  10:30 PM
                            [**2169-10-10**]  03:34 AM
                            [**2169-10-10**]  04:04 AM
                            [**2169-10-10**]  11:04 AM
                            [**2169-10-10**]  11:26 AM
   WBC
   11.2
   Hct
   25.9
   Plt
   283
   Cr
   2.4
   2.3
   TCO2
   29
   29
   30
   30
   30
   Glucose
   160
   180
   152
   251
   300
   Other labs: PT / PTT / INR:16.1/31.5/1.4, ALT / AST:29/47, Alk Phos / T
   Bili:109/1.4, Amylase / Lipase:39/9, Differential-Neuts:81.5 %,
   Lymph:10.6 %, Mono:6.0 %, Eos:1.5 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:279 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   55 yom gallstone pancreatitis and sepsis, complicated by acute renal
   failure and persistent altered mental status.
   RESPIRATORY FAILURE -- attributed to sepsis, altered mental status,
   volume resussitation.  Underlying asthma.  Good progress.  Plan to
   continue to move towards extubation trial as mental status improves.
   HYPOTENSION -- improved.  Monitor BP, maintain MAP >60 mmHg.
   SEPSIS -- improved.  Monitor. Antimicrobials completed.
   FEVER -- recurrent.  [**Month (only) 8**] be due to underlying pancreatitis.  However,
   need to continue monitor for signs of complication of pancreatitis
   (pseudocyst, hemorrhage) or new infection (VAP, line-related infection,
   urine source, C. diff, hepatobilliary infection), or non-infectious
   causes (DVT, drug-related fever).  Evaluation in progress.  Cultures
   submitted.  D/c lines if possible.
   ALTERED MENTAL STATUS -- attributed to medications
 slow clearance.
   Improvement continues, although slow.
   HYPERGLYCEMIA -- monitor glucose.  Maintain <150.
   ACUTE RENAL FAILURE -- attributed to ATN.  Tolerating CVVHD, consider
   hemodialysis.
   PANCREATITIS -- ACUTE, attributed to galllstone.  s/p ERCP stent
   placement.  Monitor exam, LFTs, amylase, lipase.
   FLUIDS -- hyperexpanded.  Continue net removal.  Aim for 1-2 L/day.
   Monitor I/O.
   BULLOUS LESIONS, Left THIGH --  exam is stable or improving
   A-FIB -- now NSR.  Continue to monitor and may start home calcium
   channel blocker.
   ANEMIA -- Stable.  Continue to monitor Hct.  Transfuse if <21.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-10-10**] 07:45 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-10-11 12:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated mechanically ventilated.
   Experienced transient increased dyspnea last PM, required increased IPS
   settings.
   More awake this AM, able to moves fingers, toes/legs.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-9**] 08:01 AM
   Infusions:
   Insulin - Regular - 15 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2169-10-10**] 01:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-10-11**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 96 (78 - 102) bpm
   BP: 118/102(106) {104/56(69) - 148/102(106)} mmHg
   RR: 13 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.2 kg (admission): 120 kg
   Height: 71 Inch
   CVP: 12 (6 - 17)mmHg
   Total In:
                                                                  9,662 mL
                                                                  4,179 mL
   PO:
   TF:
                                                                  1,483 mL
                                                                    887 mL
   IVF:
                                                                  7,849 mL
                                                                  3,207 mL
   Blood products:
   Total out:
                                                                 13,419 mL
                                                                  7,278 mL
   Urine:
                                                                    172 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,757 mL
                                                                 -3,099 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnPres
   Vt (Spontaneous): 618 (162 - 618) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, left conjunctival injection
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese, Less distended, less tense abd
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   294 K/uL
   401 mg/dL
   2.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   37 mg/dL
   91 mEq/L
   131 mEq/L
   25.6 %
   9.2 K/uL
        [image002.jpg]
                            [**2169-10-9**]  04:06 PM
                            [**2169-10-9**]  10:10 PM
                            [**2169-10-9**]  10:30 PM
                            [**2169-10-10**]  03:34 AM
                            [**2169-10-10**]  04:04 AM
                            [**2169-10-10**]  11:04 AM
                            [**2169-10-10**]  11:26 AM
                            [**2169-10-10**]  04:50 PM
                            [**2169-10-10**]  09:28 PM
                            [**2169-10-11**]  03:40 AM
   WBC
   11.2
   9.2
   Hct
   25.9
   25.6
   Plt
   283
   294
   Cr
   2.3
   2.3
   2.2
   2.3
   TCO2
   29
   30
   30
   30
   Glucose
   152
   251
   300
   [**Telephone/Fax (3) 9626**]
   Other labs: PT / PTT / INR:16.1/34.1/1.4, ALT / AST:55/56, Alk Phos / T
   Bili:113/1.4, Amylase / Lipase:39/9, Differential-Neuts:77.5 %,
   Lymph:12.3 %, Mono:8.9 %, Eos:1.2 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:271 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR ([**2169-10-11**]) new RLL infiltrate
   Assessment and Plan
   55 yom gallstone pancreatitis and sepsis, complicated by acute renal
   failure and persistent altered mental status.
   RESPIRATORY FAILURE -- attributed to sepsis, altered mental status,
   volume resussitation.  Underlying asthma.  Good progress overall, but
   now with evidence for new RLL infiltate (probale VAP).  Plan initiate
   empirical antimictobials directed to VAP pathogens.   Continue to move
   towards extubation trial as mental status improves.
   FEVER -- recurrent.  [**Month (only) 8**] be due to underlying pancreatitis.  However,
   need to continue monitor for signs of complication of pancreatitis
   (pseudocyst, hemorrhage) or new infection (VAP, line-related infection,
   urine source, C. diff, hepatobilliary infection), or non-infectious
   causes (DVT, drug-related fever).  Evaluation in progress.  Cultures
   submitted.  D/c lines if possible.
   HYPOTENSION -- improved.  Monitor BP, maintain MAP >60 mmHg.
   PULMONARY INFILTRATE
 RLL; concern for aspiration or evolving VAP.  At
   risk for atalectasis.  In context of recurrent fevers, would favor
   empirical treatment for VAP, pending evaluation.
   SEPSIS -- Resolved.  Biliiary system drained internally.
   ALTERED MENTAL STATUS -- attributed to medications --> slow clearance.
   Improvement continues, overall.
   CONJUNCTIVAL INJECTION, left -- conjunctivitis, possible contact, but
   concern for infectious conjunctivitis.
   HYPERGLYCEMIA
 Now on insulin drip.  Monitor glucose.  Maintain <150.
   ACUTE RENAL FAILURE -- attributed to ATN.  Completed CVVHD -->
   hemodialysis to begin tomorrow, if indicated.
   PANCREATITIS -- ACUTE, attributed to galllstone.  s/p ERCP stent
   placement.  Monitor exam, LFTs, amylase, lipase.
   FLUIDS -- hyperexpanded.  Continue net removal.  Aim for 1-2 L/day.
   Monitor I/O.
   A-FIB -- now NSR.  Continue to monitor and may start home calcium
   channel blocker.
   ANEMIA -- Stable.  Continue to monitor Hct.  Transfuse if <21.
   BULLOUS LESIONS, Left THIGH --  exam is stable or improving.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-10-10**] 11:48 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-10-12 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -T 100.5, abd: nabs
   -mental status much improved, blinking eyes to questions, able to move
   legs and left thumb
   - on PS 15/5 now from [**4-18**]-> CXR looks worse than yesterday line
   infection vs pulmn infx ?
   -BAL for sputum, getting chest CT, increase PEEP
   -hold off on abx for now until imaging/cx
   -access: now on temp HD catheter and CVL, consider PICC placement and
   pull CVL.
   -CVVH finished 10am, plan for HD tmrw
   Code status: as per HCP (attorney) DNR/DNI (NO RE-INTUBATION)
   evening
   - CT chest: Bibasilar opacities, with patchy peribronchiolar
   distribution in LLL,to a lesser degree in the RML, RLL, concerning for
   infectious PNA coexistent w/ atelectasis
    Extensive peripancreatic stranding, with slightly more defined
   peripancreatic fluid, which may represent an early forming pseudocyst.
   Findings concerning for splenic vein thrombosis. Persistent
   splenomegaly.  Interval improvement in perihepatic ascites.
   cholelithiasis
   -increased glargine to 50u at breakfast i/o 30u
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-11**] 01:47 PM
   Ciprofloxacin - [**2169-10-11**] 03:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-10-11**] 11:30 PM
   Infusions:
   Insulin - Regular - 9 units/hour
   Other ICU medications:
   Dextrose 50% - [**2169-10-12**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-12**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 86 (84 - 113) bpm
   BP: 115/55(68) {102/50(63) - 137/102(106)} mmHg
   RR: 24 (13 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.6 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 6 (6 - 12)mmHg
   Total In:
                                                                  6,134 mL
                                                                    719 mL
   PO:
   TF:
                                                                  1,790 mL
                                                                    540 mL
   IVF:
                                                                  4,044 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                  7,364 mL
                                                                     54 mL
   Urine:
                                                                    176 mL
                                                                     54 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,230 mL
                                                                    665 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnPres
   Vt (Spontaneous): 446 (343 - 618) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: More alert, intubated. Blinks eyes in response to
   commands.  Tries to mouth words.  Moves LE b/l in respond to commands,
   moves his head to answer questions yes or no..
   Eyes / Conjunctiva: PERRLA, icteric sclerae, some scleral edema b/l, L
   conj. injected
   Head, Ears, Nose, Throat: unable to assess JVD, IJ and HD lines in
   place
   Cardiovascular: tachycardic rate, normal S1, S2 no murmurs appreciated
   Respiratory / Chest: anterior exam clear, posterior exam limited
   Abdominal:  normoactive bowel sounds, softer than previous exam,
   slightly less distended, tympanic to percussion, unable to assess pain
   given patient
s mental status
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, no cyanosis or clubbing
   Skin: diffusely jaundiced
   Neurologic::  Able to blink eyes/close eyes, move head, LE b/l to
   commands
   Labs / Radiology
   281 K/uL
   8.3 g/dL
   190 mg/dL
   4.3 mg/dL
   26 mEq/L
   4.3 mEq/L
   64 mg/dL
   93 mEq/L
   133 mEq/L
   25.1 %
   11.8 K/uL
        [image002.jpg]
                            [**2169-10-9**]  10:10 PM
                            [**2169-10-9**]  10:30 PM
                            [**2169-10-10**]  03:34 AM
                            [**2169-10-10**]  04:04 AM
                            [**2169-10-10**]  11:04 AM
                            [**2169-10-10**]  11:26 AM
                            [**2169-10-10**]  04:50 PM
                            [**2169-10-10**]  09:28 PM
                            [**2169-10-11**]  03:40 AM
                            [**2169-10-12**]  03:47 AM
   WBC
   11.2
   9.2
   11.8
   Hct
   25.9
   25.6
   25.1
   Plt
   [**Telephone/Fax (3) 9645**]
   Cr
   2.3
   2.3
   2.2
   2.3
   4.3
   TCO2
   30
   30
   30
   Glucose
   152
   251
   300
   [**Telephone/Fax (3) 9626**]
   190
   Other labs: PT / PTT / INR:17.0/32.2/1.5, ALT / AST:47/41, Alk Phos / T
   Bili:110/1.3, Amylase / Lipase:39/9, Differential-Neuts:81.5 %,
   Lymph:10.4 %, Mono:6.2 %, Eos:1.8 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:271 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   55 yo gentleman w/  HTN and asthma transferred from [**Hospital3 33**] Hospital
   for worsening gallstone pancreatitis leading to septic shock
   complicated by hypoxic respiratory failure and oliguric acute renal
   failure currently on CVVH.
   .
   # Hypoxic Respiratory failure:
   - Patient with increased vent requirement today, despite being more
   alert with improved neurological exam.  As a consequence, he is not
   ready for extubation at this point.  Coupled with fevers and
   radiographic evidence of increased opacity on CXR, may represent VAP.
   - Start empiric treatment for VAP as below, assess for VAP or other
   acute pulmonary process with non-contrast chest CT, mini-BAL
   - Decrease PS as tolerated
   .
    # Fevers:   Pt with low grade temps up to 100.6F axillary despite
   being on CVVH.  Etiology is unclear, but may represent acute pulmonary
   process (VAP), line infection, or could be be [**1-16**] inflammation from
   necrotic pancreas.  The patient has been off all Abx for the past 2d.
   Recent CT showed necrotic pancreas but with no other source of
   infection but no abscess formation.  Howver, LFTs have been trending
   up.  The patient continued to be hemodynamically stable off pressors.
   - F/u BCx, HD line culture, A-line cath VAP
   - Start the pt. on empiric treatment for VAP with Vanc, Zosyn and Cipro
   -If no obvious lung process is identified on CT, will replace lines and
   give pt. line holiday.
   - consider repeat CT abdomen  if LFTs continue to trend up
   - Appreciate continued ID recs
   .
   # Hyperglycemia:  Likely due to poorly functioning pancreas given
   necrosis and markedly stenotic splenic vein.  Marked hyperglycemia this
   AM, the patient started on IV Insulin and increased dose of Lantus.
   Expected to be hyperglycemic, as was previously getting 160 units of
   Lantus with TPN.
   - Will uptitrate as needed to keep BGs under 200.  Will monitor IV
   insulin requirements today and adjust Lantus dose accordingly.
   # Skin:  some bullous lesions on L anterior/superior thigh where tape
   was previously placed.  Erythematous blanching rash on L flank, RLE,
   RUE.  Per derm, likely stasis dermatitis.  Less likely drug rash
   without maculopapular pattern and no eosinophilia.  Originally concern
   for fungemia/underlying infection with skin manifestation, but CT
   negative, B-glucan negative.  Derm declined to biopsy.
   - exam is stable/improving
   # Acute renal failure:  likely ATN. CVVH stopped this AM after 72
   hours.  Per renal recs, will start HD tomorrow
   - appreciate continued renal recs
   # Gallstone pancreatitis:  CBD stent placed by ERCP fellow.  LFTs
   trended up mildly this AM. Alk phos  and TBili still elevated but
   stable, likely secondary to cholestasis.
   - Trend LFTs and pancreatic enzymes daily
   - Will perform CT abdomen if LFTs continue to trend up.
   # Atrial Fibrillation: Patient in sinus rhythm w rate in 90s.  Reached
   loading dose on [**10-6**], so amio gtt was DCed, but loading dose should
   stay in his system for a while.
   - cont to monitor and may start home calcium channel blocker
   - continue Metoprolol with holding parameters
   .
   # Anemia: Will need to cont to monitor, stable for now with no signs of
   active bleed
   - Active type and screen.
   - Transfuse if Hct < 25
   ICU Care
   Vivonex (Full) - [**2169-10-9**] 02:13 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU

2169-10-12 12:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Remains on higher IPS = 10
   cm H2O.
   Somewhat more awake (good progress).
   History obtained from Medical records
   Patient unable to provide history: ETT
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-11**] 01:47 PM
   Ciprofloxacin - [**2169-10-11**] 03:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-10-12**] 08:33 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Dextrose 50% - [**2169-10-12**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-10-12**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37
C (98.6
   HR: 87 (84 - 113) bpm
   BP: 104/57(67) {101/46(58) - 137/74(87)} mmHg
   RR: 22 (20 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.6 kg (admission): 120 kg
   Height: 71 Inch
   CVP: 7 (6 - 11)mmHg
   Total In:
                                                                  6,134 mL
                                                                  1,232 mL
   PO:
   TF:
                                                                  1,790 mL
                                                                    886 mL
   IVF:
                                                                  4,044 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  7,364 mL
                                                                     85 mL
   Urine:
                                                                    176 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,230 mL
                                                                  1,147 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnPres
   Vt (Spontaneous): 380 (343 - 446) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   281 K/uL
   190 mg/dL
   4.3 mg/dL
   26 mEq/L
   4.3 mEq/L
   64 mg/dL
   93 mEq/L
   133 mEq/L
   25.1 %
   11.8 K/uL
        [image002.jpg]
                            [**2169-10-9**]  10:10 PM
                            [**2169-10-9**]  10:30 PM
                            [**2169-10-10**]  03:34 AM
                            [**2169-10-10**]  04:04 AM
                            [**2169-10-10**]  11:04 AM
                            [**2169-10-10**]  11:26 AM
                            [**2169-10-10**]  04:50 PM
                            [**2169-10-10**]  09:28 PM
                            [**2169-10-11**]  03:40 AM
                            [**2169-10-12**]  03:47 AM
   WBC
   11.2
   9.2
   11.8
   Hct
   25.9
   25.6
   25.1
   Plt
   [**Telephone/Fax (3) 9645**]
   Cr
   2.3
   2.3
   2.2
   2.3
   4.3
   TCO2
   30
   30
   30
   Glucose
   152
   251
   300
   [**Telephone/Fax (3) 9626**]
   190
   Other labs: PT / PTT / INR:17.0/32.2/1.5, ALT / AST:47/41, Alk Phos / T
   Bili:110/1.3, Amylase / Lipase:39/9, Differential-Neuts:81.5 %,
   Lymph:10.4 %, Mono:6.2 %, Eos:1.8 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:271 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   55 yom gallstone pancreatitis and sepsis, complicated by acute renal
   failure and persistent altered mental status.
   RESPIRATORY FAILURE -- attributed to sepsis, altered mental status,
   volume resussitation.  Underlying asthma.  Good progress overall, but
   now with evidence for new RLL infiltate (probale VAP).  Plan initiate
   empirical antimictobials directed to VAP pathogens.   Continue to move
   towards extubation trial as mental status improves.
   RLL PULMONARY INFILTRATE -- VAP, continue antibiotics.
   FEVER -- recurrent.  [**Month (only) 8**] be due to underlying pancreatitis.  However,
   need to continue monitor for signs of complication of pancreatitis
   (pseudocyst, hemorrhage) or new infection (VAP, line-related infection,
   urine source, C. diff, hepatobilliary infection), or non-infectious
   causes (DVT, drug-related fever).  Evaluation in progress.  Cultures
   submitted.  D/c lines if possible.
   HYPOTENSION -- improved.  Monitor BP, maintain MAP >60 mmHg.
   PULMONARY INFILTRATE
 RLL; concern for aspiration or evolving VAP.  At
   risk for atalectasis.  In context of recurrent fevers, would favor
   empirical treatment for VAP, pending evaluation.
   SEPSIS -- Resolved.  Biliiary system drained internally.
   ALTERED MENTAL STATUS -- attributed to medications --> slow clearance.
   Improvement continues, overall.
   CONJUNCTIVAL INJECTION, left -- conjunctivitis, possible contact, but
   concern for infectious conjunctivitis.
   HYPERGLYCEMIA
 Now on insulin drip.  Monitor glucose.  Maintain <150.
   ACUTE RENAL FAILURE -- attributed to ATN.  Completed CVVHD yesterday,
   limited urine output --> hemodialysis to begin today.
   PANCREATITIS -- ACUTE, attributed to galllstone.  s/p ERCP stent
   placement.  Monitor exam, LFTs, amylase, lipase.  CT demonstrates early
   formation of pseudocyst.
   FLUIDS -- hyperexpanded.  Continue net removal.  Aim for 1-2 L/day.
   Monitor I/O.
   A-FIB -- now NSR.  Continue to monitor and may start home calcium
   channel blocker.
   ANEMIA -- Stable.  Continue to monitor Hct.  Transfuse if <21.
   BULLOUS LESIONS, Left THIGH --  exam is stable or improving.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-10-12**] 02:02 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-10-12 12:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CT chest: Bibasilar opacities, with patchy peribronchiolar distribution
   in LLL,to a lesser degree in the RML, RLL, concerning for infectious
   PNA coexistent w/ atelectasis
   CT Abdomen: Extensive peripancreatic stranding, with slightly more
   defined peripancreatic fluid, which may represent an early forming
   pseudocyst. Findings concerning for splenic vein thrombosis. Persistent
   splenomegaly.  Interval improvement in perihepatic ascites.
   cholelithiasis
   PS: 10, PEEP: 8
   increased glargine to 50u at breakfast i/o 30u
   Started Vanc, Zosyn, and Cipro for VAP
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-11**] 01:47 PM
   Ciprofloxacin - [**2169-10-11**] 03:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-10-12**] 08:33 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Dextrose 50% - [**2169-10-12**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-12**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37
C (98.6
   HR: 87 (84 - 113) bpm
   BP: 104/57(67) {101/46(58) - 137/74(87)} mmHg
   RR: 22 (20 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.6 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 7 (6 - 11)mmHg
   Total In:
                                                                  6,134 mL
                                                                  1,291 mL
   PO:
   TF:
                                                                  1,790 mL
                                                                    936 mL
   IVF:
                                                                  4,044 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                  7,364 mL
                                                                     85 mL
   Urine:
                                                                    176 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,230 mL
                                                                  1,206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnPres
   Vt (Spontaneous): 380 (343 - 446) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: More alert, intubated. Blinks eyes in response to
   commands.  Tries to mouth words.  Moves LE b/l in respond to commands,
   moves his head to answer questions yes or no. Now moving UE b/l as
   well.  Proximal muscles more so than distal.
   Eyes / Conjunctiva: PERRLA, icteric sclerae, some scleral edema b/l, L
   conj. injected
   Head, Ears, Nose, Throat: IJ and HD lines in place
   Cardiovascular: RRR, normal S1, S2 no murmurs appreciated
   Respiratory / Chest: anterior exam clear, slightly diminished breath
   sounds
   Abdominal:  normoactive bowel sounds, softer than previous exam,
   slightly less distended, tympanitic to percussion, unable to assess
   pain given patient
s mental status
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, no cyanosis or clubbing. 2+ DP bilaterally.
   Skin: diffusely jaundiced
   Neurologic::  Able to blink eyes/close eyes, move head, UE and LE b/l.
   Responding to commands
   Labs / Radiology
   281 K/uL
   8.3 g/dL
   190 mg/dL
   4.3 mg/dL
   26 mEq/L
   4.3 mEq/L
   64 mg/dL
   93 mEq/L
   133 mEq/L
   25.1 %
   11.8 K/uL
        [image002.jpg]
                            [**2169-10-9**]  10:10 PM
                            [**2169-10-9**]  10:30 PM
                            [**2169-10-10**]  03:34 AM
                            [**2169-10-10**]  04:04 AM
                            [**2169-10-10**]  11:04 AM
                            [**2169-10-10**]  11:26 AM
                            [**2169-10-10**]  04:50 PM
                            [**2169-10-10**]  09:28 PM
                            [**2169-10-11**]  03:40 AM
                            [**2169-10-12**]  03:47 AM
   WBC
   11.2
   9.2
   11.8
   Hct
   25.9
   25.6
   25.1
   Plt
   [**Telephone/Fax (3) 9645**]
   Cr
   2.3
   2.3
   2.2
   2.3
   4.3
   TCO2
   30
   30
   30
   Glucose
   152
   251
   300
   [**Telephone/Fax (3) 9626**]
   190
   Other labs: PT / PTT / INR:17.0/32.2/1.5, ALT / AST:47/41, Alk Phos / T
   Bili:110/1.3, Amylase / Lipase:39/9, Differential-Neuts:81.5 %,
   Lymph:10.4 %, Mono:6.2 %, Eos:1.8 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:271 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   55 yo gentleman w/  HTN and asthma transferred from [**Hospital3 33**] Hospital
   for worsening gallstone pancreatitis leading to septic shock
   complicated by hypoxic respiratory failure and oliguric acute renal
   failure currently on HD.
   # Hypoxic Respiratory failure:
   Patient vent requirement today at PS 10 and PEEP 8, more alert with
   improved neurological exam.  However due to his persistent weakness, he
   is not ready for extubation at this point.  Fevers and radiographic
   evidence of increased opacity on CXR and CT may represent VAP. Will
   wean PS and PEEP today as tolerated.
   #VAP:
   CT showed consolidations in the LLL, RML, and RLL.  Patient was started
   on Vancomycin, Cipro, and Zosyn [**2169-10-11**] for VAP coverage. Continue to
   monitor ventillator requirements. Monitor fevers. Dose vanc by levels.
   Give 1gm today after HD.
   #Hyperglycemia:
   Pt had episode of hypoglycemia overnight in the setting of high insulin
   drip dose.  His drip requirement has decreased and his AM glargine was
   increased to 50 units.  Continue titrating drip and continue with 50
   units glargine qAM.
   #ARF:
   BUN/Creatinine bumped today in the setting of no CVVH.  BUN/Cr 64/4.3
   today.  Scheduled for HD today.  Follow-up renal recs.
   #Gallstone pancreatitis:
   S/P stent placement.  Amylase and lipase WNL.  Transaminases trending
   down. Continue to trend LFTs.  CT showed possible early pseudocyst
   formation.  Will need follow-up for potential pseudocyst.
   #A-Fib:
   Now NSR.  Continue to monitor and may start home calcium channel
   blocker.
   #Anemia:
   Stable.  Continue to monitor Hct.  Transfuse if <21.
   #Bullous lesions, Left thigh:
   Exam is stable or improving
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-10-12**] 02:02 AM 75 mL/hour
   Glycemic Control:
   Insulin gtt (currently at 4u/hr)
   Glargine 50u qAM
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU
   12:34

2169-10-13 11:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically venitlated.
   Continues to gradually awaken, more alert.
   Attempting to move arms and legs.
   Tolerated HD yesterday.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-12**] 12:45 PM
   Ciprofloxacin - [**2169-10-12**] 04:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-10-13**] 08:14 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-10-13**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.7
   HR: 85 (78 - 104) bpm
   BP: 109/45(60) {93/45(60) - 123/67(77)} mmHg
   RR: 25 (18 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.3 kg (admission): 120 kg
   Height: 71 Inch
             Total In:
                                                                  2,834 mL
                                                                    938 mL
   PO:
             TF:
                                                                  1,801 mL
                                                                    528 mL
   IVF:
                                                                    923 mL
                                                                    251 mL
   Blood products:
   Total out:
                                                                    147 mL
                                                                    435 mL
   Urine:
                                                                    147 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,687 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 420 (335 - 434) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 6 cmH2O
   SpO2: 96%
   ABG: 7.46/40/146/27/5
   Ve: 9.7 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Remains generally weak, but slowly
   improving.
   Labs / Radiology
   7.9 g/dL
   241 K/uL
   69 mg/dL
   5.0 mg/dL
   27 mEq/L
   3.7 mEq/L
   71 mg/dL
   95 mEq/L
   136 mEq/L
   22.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2169-10-10**]  03:34 AM
                            [**2169-10-10**]  04:04 AM
                            [**2169-10-10**]  11:04 AM
                            [**2169-10-10**]  11:26 AM
                            [**2169-10-10**]  04:50 PM
                            [**2169-10-10**]  09:28 PM
                            [**2169-10-11**]  03:40 AM
                            [**2169-10-12**]  03:47 AM
                            [**2169-10-12**]  02:57 PM
                            [**2169-10-13**]  03:27 AM
   WBC
   11.2
   9.2
   11.8
   8.1
   Hct
   25.9
   25.6
   25.1
   22.9
   Plt
   [**Telephone/Fax (3) 9667**]41
   Cr
   2.3
   2.3
   2.2
   2.3
   4.3
   5.0
   TCO2
   30
   30
   29
   Glucose
   [**Telephone/Fax (2) 9668**]
   69
   Other labs: PT / PTT / INR:16.8/29.7/1.5, ALT / AST:47/31, Alk Phos / T
   Bili:100/1.0, Amylase / Lipase:39/9, Differential-Neuts:77.6 %,
   Lymph:12.2 %, Mono:6.8 %, Eos:3.4 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:230 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   55 yom gallstone pancreatitis and sepsis, complicated by acute renal
   failure and persistent altered mental status.
   RESPIRATORY FAILURE -- attributed to sepsis, altered mental status,
   volume resussitation.  Underlying asthma.  Good progress overall, but
   now with evidence for new RLL infiltate (probale VAP).  Plan initiate
   empirical antimictobials directed to VAP pathogens.   Continue to move
   towards extubation trial as mental status improves.
   RLL PULMONARY INFILTRATE -- VAP, continue antibiotics.
   FEVER -- recurrent.  Attributed to VAP, and may be due in part to
   underlying pancreatitis.  However, need to continue monitor for signs
   of complication of pancreatitis (pseudocyst, hemorrhage) or new
   infection (line-related infection, urine source, C. diff,
   hepatobilliary infection), or non-infectious causes (DVT, drug-related
   fever).  Evaluation in progress.  Cultures submitted.  D/c lines if
   possible.
   HYPOTENSION -- improved.  Monitor BP, maintain MAP >60 mmHg.
   PULMONARY INFILTRATE
 RLL --> VAP, now on empirical treatment for VAP.
   SEPSIS -- Resolved.  Biliiary system drained internally.
   ALTERED MENTAL STATUS -- attributed to medications --> slow clearance.
   Improvement continues, overall.
   CONJUNCTIVAL INJECTION, left -- conjunctivitis, possible contact,
   improved.
   HYPERGLYCEMIA
 Now on insulin drip.  Monitor glucose.  Maintain <150.
   ACUTE RENAL FAILURE -- attributed to ATN.  Completed CVVHD, and
   tolerated hemodialysis yesterday.  Continue per 3x/week.
   PANCREATITIS -- ACUTE, attributed to galllstone.  s/p ERCP stent
   placement.  Monitor exam, LFTs, amylase, lipase.  CT demonstrates early
   formation of pseudocyst.
   FLUIDS -- approaching baseline.  Continue net removal.  Aim for [**12-16**]
   L/dialysis.  Monitor I/O.
   A-FIB -- now NSR.  Continue to monitor and may start home calcium
   channel blocker.
   ANEMIA -- Stable.  Continue to monitor Hct.  Transfuse if <21.
   BULLOUS LESIONS, Left THIGH --  exam is stable or improving.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Discussion with health care proxy ([**First Name8 (NamePattern2) **] [**Name (NI) 9369**], [**Telephone/Fax (1) 9316**]).
   Updated medical condition.  Answered all questions.  Pt. now
   extubated.  In the event of clinical decompensation in respiratory
   status, and intubation medically indicated, agree to proceed with
   re-intubation.  Will consider tracheotomy tube placement, but will need
   further discussion.
No CPR status
 confirmed.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2169-10-13**] 17:37 ------

2169-10-13 11:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Hemodialysis yesterday afternoon: removed 2L of fluid
   Afebrile since [**73**]:00 [**10-12**]
   PS: 5, PEEP: 5
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-12**] 12:45 PM
   Ciprofloxacin - [**2169-10-12**] 04:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-10-13**] 08:14 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-13**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.7
   HR: 88 (78 - 104) bpm
   BP: 103/51(63) {93/45(60) - 123/67(77)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.3 kg (admission): 120 kg
   Height: 71 Inch
             Total In:
                                                                  2,834 mL
                                                                    947 mL
   PO:
             TF:
                                                                  1,801 mL
                                                                    528 mL
   IVF:
                                                                    923 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                    147 mL
                                                                    435 mL
   Urine:
                                                                    147 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,687 mL
                                                                    512 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 420 (335 - 434) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 94
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.46/40/146/27/5
   Ve: 9.7 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General Appearance: More alert, intubated. Blinks eyes in response to
   commands.  Tries to mouth words.  Moves LE b/l in respond to commands,
   moves his head to answer questions yes or no. Now moving UE b/l as
   well.  Proximal muscles more so than distal.
   Eyes / Conjunctiva: PERRLA, icteric sclerae, some scleral edema b/l, L
   conj. injected
   Head, Ears, Nose, Throat: IJ and HD lines in place
   Cardiovascular: RRR, normal S1, S2 no murmurs appreciated
   Respiratory / Chest: anterior exam clear, slightly diminished breath
   sounds
   Abdominal:  normoactive bowel sounds, softer than previous exam,
   slightly less distended, tympanitic to percussion, unable to assess
   pain given patient
s mental status
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, no cyanosis or clubbing
   Skin: diffusely jaundiced
   Neurologic::  Able to blink eyes/close eyes, move head, UE and LE b/l.
   Responding to commands
   Labs / Radiology
   241 K/uL
   7.9 g/dL
   69 mg/dL
   5.0 mg/dL
   27 mEq/L
   3.7 mEq/L
   71 mg/dL
   95 mEq/L
   136 mEq/L
   22.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2169-10-10**]  03:34 AM
                            [**2169-10-10**]  04:04 AM
                            [**2169-10-10**]  11:04 AM
                            [**2169-10-10**]  11:26 AM
                            [**2169-10-10**]  04:50 PM
                            [**2169-10-10**]  09:28 PM
                            [**2169-10-11**]  03:40 AM
                            [**2169-10-12**]  03:47 AM
                            [**2169-10-12**]  02:57 PM
                            [**2169-10-13**]  03:27 AM
   WBC
   11.2
   9.2
   11.8
   8.1
   Hct
   25.9
   25.6
   25.1
   22.9
   Plt
   [**Telephone/Fax (3) 9667**]41
   Cr
   2.3
   2.3
   2.2
   2.3
   4.3
   5.0
   TCO2
   30
   30
   29
   Glucose
   [**Telephone/Fax (2) 9668**]
   69
   Other labs: PT / PTT / INR:16.8/29.7/1.5, ALT / AST:47/31, Alk Phos / T
   Bili:100/1.0, Amylase / Lipase:39/9, Differential-Neuts:77.6 %,
   Lymph:12.2 %, Mono:6.8 %, Eos:3.4 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:230 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   55 yo gentleman w/  HTN and asthma transferred from [**Hospital3 33**] Hospital
   for worsening gallstone pancreatitis leading to septic shock
   complicated by hypoxic respiratory failure and oliguric acute renal
   failure currently on HD.
   # Hypoxic Respiratory failure:
   Patient vent requirement overnight was at PS 5 and PEEP 5, now at 5/0.
   More alert with improved neurological exam.  He is ready for extubation
   at this point.
   - Extubate
   #VAP:
   CT showed consolidations in the LLL, RML, and RLL.  Patient was started
   on Vancomycin, Cipro, and Zosyn [**2169-10-11**] for VAP coverage. Continue to
   monitor ventillator requirements. Afebrile since [**73**]:00 on [**10-12**].
   Monitor fevers. Dose vanc by levels.  Given 500mg yesterday after HD.
   Continue coverage now, and move toward peering back on coverage over
   the weekend if cultures are negative.
   #Hyperglycemia:
   Pt's BG this AM was 69 on chemistry. His drip requirement has decreased
   and is currently off. His AM glargine was increased to 50 units.
   Continue with 50 units glargine qAM and monitor BG.
   #ARF:
   BUN/Creatinine increased today in the presence of HD yesterday.  BUN/Cr
   71/5.0 today.  Follow-up renal recs for HD schedule.  Likely to be a
   long term HD patient.
   #Gallstone pancreatitis:
   S/P stent placement.  Amylase and lipase WNL.  Transaminases trending
   down (AST 31). Continue to trend LFTs.  CT showed possible early
   pseudocyst formation.  Will need follow-up for potential pseudocyst.
   Surgery has been re-consulted - most immediate concern is bleeding into
   the pancreas.  Will recheck a HCT to trend the level.
   #A-Fib:
   Now NSR.  Continue to monitor and may start home calcium channel
   blocker.
   #Anemia:
   Stable.  Continue to monitor Hct.  Transfuse if <21.
   #Bullous lesions, Left thigh:
   Lesions have resolved.
   ICU Care
   Nutrition:
   Glycemic Control:  50 Glargine qAM
 Insulin gtt off
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Health Care Proxy
 friend
   [**Name (NI) 156**] status: No CPR.  Re-intubation ok if necessary.
   Disposition: ICU
   11:52
   ------ Protected Section ------
   I agree with the MSIV Note above.  Briefly  55 y/o gentleman w/  HTN
   and asthma transferred from [**Hospital3 33**] Hospital for worsening gallstone
   pancreatitis leading to septic shock complicated by hypoxic respiratory
   failure and oliguric acute renal failure currently on HD.  Will attempt
   a trial of extubation today.  Will continue VAP coverage with
   vanc/zosyn/cipro.  He will undergo reintubation if trial of extubation
   fails after discussion with healthcare proxy.
   ------ Protected Section Addendum Entered By:[**Name (NI) 5057**] [**Name8 (MD) 3487**], MD
   on:[**2169-10-13**] 13:01 ------

2169-10-14 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2169-10-13**] 11:37 AM
   [**10-12**]:
   - HCP, ok to re-intubate if extubation trial fails
   - Gen surgery will give recommendation about rescanning abdomen with IV
   contrast
   - Vent: [**4-18**]
   - HD session with IV vanc 500 mg and epo, 2L removed
   [**10-13**]:
   - extubated
   [**10-14**]:
   - changed glargine from 50 units to 40 units since off tube feeds
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-12**] 12:45 PM
   Ciprofloxacin - [**2169-10-13**] 04:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-10-14**] 01:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-14**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 94 (77 - 99) bpm
   BP: 132/56(72) {97/43(57) - 132/84(87)} mmHg
   RR: 24 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.3 kg (admission): 120 kg
   Height: 71 Inch
    CVP: 6 (4 - 11)mmHg
   Total In:
                                                                  1,319 mL
                                                                    123 mL
   PO:
   TF:
                                                                    528 mL
   IVF:
                                                                    631 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    230 mL
   Urine:
                                                                    295 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    624 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 420 (420 - 420) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: More alert, intubated. Blinks eyes in response to
   commands.  Tries to mouth words.  Moves LE b/l in respond to commands,
   moves his head to answer questions yes or no. Now moving UE b/l as
   well.  Proximal muscles more so than distal.
   Eyes / Conjunctiva: PERRLA, icteric sclerae, some scleral edema b/l, L
   conj. injected
   Head, Ears, Nose, Throat: IJ and HD lines in place
   Cardiovascular: RRR, normal S1, S2 no murmurs appreciated
   Respiratory / Chest: anterior exam clear, slightly diminished breath
   sounds
   Abdominal:  normoactive bowel sounds, softer than previous exam,
   slightly less distended, tympanitic to percussion, unable to assess
   pain given patient
s mental status
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, no cyanosis or clubbing
   Skin: diffusely jaundiced
   Neurologic::  Able to blink eyes/close eyes, move head, UE and LE b/l.
   Responding to commands
   Labs / Radiology
   231 K/uL
   7.8 g/dL
   116 mg/dL
   6.7 mg/dL
   21 mEq/L
   4.3 mEq/L
   99 mg/dL
   96 mEq/L
   138 mEq/L
   22.5 %
   8.6 K/uL
        [image002.jpg]
                            [**2169-10-10**]  11:04 AM
                            [**2169-10-10**]  11:26 AM
                            [**2169-10-10**]  04:50 PM
                            [**2169-10-10**]  09:28 PM
                            [**2169-10-11**]  03:40 AM
                            [**2169-10-12**]  03:47 AM
                            [**2169-10-12**]  02:57 PM
                            [**2169-10-13**]  03:27 AM
                            [**2169-10-13**]  04:31 PM
                            [**2169-10-14**]  04:37 AM
   WBC
   9.2
   11.8
   8.1
   8.6
   Hct
   25.6
   25.1
   22.9
   23.2
   22.5
   Plt
   294
   281
   241
   231
   Cr
   2.3
   2.2
   2.3
   4.3
   5.0
   6.7
   TCO2
   30
   29
   Glucose
   300
   325
   334
   401
   190
   69
   116
   Other labs: PT / PTT / INR:16.6/29.7/1.5, ALT / AST:39/41, Alk Phos / T
   Bili:97/1.2, Amylase / Lipase:39/9, Differential-Neuts:77.6 %,
   Lymph:12.2 %, Mono:6.8 %, Eos:3.4 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:231 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:9.4 mg/dL
   Assessment and Plan
   55 yo gentleman w/  HTN and asthma transferred from [**Hospital3 33**] Hospital
   for worsening gallstone pancreatitis leading to septic shock
   complicated by hypoxic respiratory failure and oliguric acute renal
   failure currently on HD.
   # Hypoxic Respiratory failure:
   Patient vent requirement overnight was at PS 5 and PEEP 5, now at 5/0.
   More alert with improved neurological exam.  He is ready for extubation
   at this point.
   - Extubate
   #VAP:
   CT showed consolidations in the LLL, RML, and RLL.  Patient was started
   on Vancomycin, Cipro, and Zosyn [**2169-10-11**] for VAP coverage. Continue to
   monitor ventillator requirements. Afebrile since [**73**]:00 on [**10-12**].
   Monitor fevers. Dose vanc by levels.  Given 500mg yesterday after HD.
   Continue coverage now, and move toward peering back on coverage over
   the weekend if cultures are negative.
   #Hyperglycemia:
   Pt's BG this AM was 69 on chemistry. His drip requirement has decreased
   and is currently off. His AM glargine was increased to 50 units.
   Continue with 50 units glargine qAM and monitor BG.
   #ARF:
   BUN/Creatinine increased today in the presence of HD yesterday.  BUN/Cr
   71/5.0 today.  Follow-up renal recs for HD schedule.  Likely to be a
   long term HD patient.
   #Gallstone pancreatitis:
   S/P stent placement.  Amylase and lipase WNL.  Transaminases trending
   down (AST 31). Continue to trend LFTs.  CT showed possible early
   pseudocyst formation.  Will need follow-up for potential pseudocyst.
   Surgery has been re-consulted - most immediate concern is bleeding into
   the pancreas.  Will recheck a HCT to trend the level.
   #A-Fib:
   Now NSR.  Continue to monitor and may start home calcium channel
   blocker.
   #Anemia:
   Stable.  Continue to monitor Hct.  Transfuse if <21.
   #Bullous lesions, Left thigh:
   Lesions have resolved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-9-29**] 04:57 PM
   Dialysis Catheter - [**2169-9-29**] 04:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2169-10-15 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2169-10-14**] 03:15 PM
 MULTI LUMEN - STOP [**2169-10-14**] 05:32 PM
   placed in IR
 DIALYSIS CATHETER - STOP [**2169-10-14**] 11:04 PM
   placed in IR
   Dialysis catheter successfully pulled without incident or bleeding;
   catheter tip cultured. Patient remains extubated and improving in terms
   of strength, lab data and  neurological function.
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2169-10-13**] 04:45 PM
   Vancomycin - [**2169-10-14**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-10-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-10-14**] 09:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-15**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.9
   HR: 85 (77 - 108) bpm
   BP: 114/52(61) {97/43(56) - 139/82(88)} mmHg
   RR: 27 (19 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.3 kg (admission): 120 kg
   Height: 71 Inch
             Total In:
                                                                    830 mL
                                                                    245 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                     45 mL
   Urine:
                                                                    355 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,525 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: More alert, able to communicate, but voice is soft
   and hoarse, mouths words. Some speech in intelligable and appropriate
   ie patient asking for pepsi, asking me
will you come back?
 but
   disoriented at other times trying to
find the cat that ran under his
   bed
   Eyes / Conjunctiva: PERRLA, scleral icterus and edema markedly
   improved
   Head, Ears, Nose, Throat: HD line pulled, skin erythematous but no
   purulent draining or bleeding from site
   Cardiovascular: RRR, normal S1, S2 no murmurs appreciated
   Respiratory / Chest: anterior exam clear, slightly diminished breath
   sounds
   Abdominal:  normoactive bowel sounds, markedly softer than previous
   exam, slightly less distended, less  tympanitic to percussion,
   nontender as per patient
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, no cyanosis or clubbing
   Skin: jaundice improving, has rash on back and dry peeling skin on
   hands b/l
   Neurologic::  Able to blink eyes/close eyes, move head, UE and LE b/l.
   Responding to commands, not oriented
   Labs / Radiology
   264 K/uL
   8.3 g/dL
   131 mg/dL
   5.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   68 mg/dL
   99 mEq/L
   142 mEq/L
   24.4 %
   9.2 K/uL
        [image002.jpg]
                            [**2169-10-10**]  11:26 AM
                            [**2169-10-10**]  04:50 PM
                            [**2169-10-10**]  09:28 PM
                            [**2169-10-11**]  03:40 AM
                            [**2169-10-12**]  03:47 AM
                            [**2169-10-12**]  02:57 PM
                            [**2169-10-13**]  03:27 AM
                            [**2169-10-13**]  04:31 PM
                            [**2169-10-14**]  04:37 AM
                             [**2169-10-15**]  03:20 AM
   WBC
   9.2
   11.8
   8.1
   8.6
   9.2
   Hct
   25.6
   25.1
   22.9
   23.2
   22.5
   24.4
   Plt
   294
   281
   241
   231
   264
   Cr
   2.3
   2.2
   2.3
   4.3
   5.0
   6.7
   5.3
   TCO2
   30
   29
   Glucose
   [**Telephone/Fax (3) **]90
   69
   116
   131
   Other labs: PT / PTT / INR:16.6/29.7/1.5, ALT / AST:39/41, Alk Phos / T
   Bili:97/1.2, Amylase / Lipase:39/9, Differential-Neuts:77.6 %,
   Lymph:12.2 %, Mono:6.8 %, Eos:3.4 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:231 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   55 year-old gentleman w/  HTN and asthma transferred from [**Hospital3 33**]
   Hospital for worsening gallstone pancreatitis leading to septic shock
   complicated by hypoxic respiratory failure, now extubated and doing
   well although w/ altered MS [**First Name (Titles) **] [**Last Name (Titles) 9700**] acute renal failure currently
   on HD.
   1. Altered MS- likely due to combination of high-dose narcotics and
   sedation use over prolonged periods of time; would not attribute this
   to delerium as mental status is not waxing and [**Doctor Last Name 226**], patient is alert
   and cooperative.
   - patient extubated and doing well, perhaps some component of mental
   status change is possible VAP so  will continue treatment for VAP (as
   CT showed consolidations in the LLL, RML, and RLL) with Vancomycin,
   Cipro, and Zosyn (started [**2169-10-11**]) for 8 day course to end [**10-18**] .
   - dose vanc by levels, will cover for few days and f/u any pending BCx
   - minmize sedating meds, encourage interaction, minimize use of
   restraints although must make sure patient cannot hurt himself
   (probably too weak currently but could become potential problem once pt
   regains strength)
   -f/u SW recs
   - patient continues to improve, will consider floor call-out or rehab
   placement in the near future.
   2. Renal insufficiency- BUN/Cr slightly lower than yesterday 5.3 from
   6.7 and had HD yesterday.
   - pulled HD line yesterday, will give line holiday until IR-guided
   placement of tunneled line on Tuesday
   - plan for HD Tuesday
   - started nephrocaps in addition to phos binder
   - appreciate renal recs
   3. Hyperglycemia- due to necrotic poorly functioning pancreas. d/c
   insulin gtt
   -glargine at 40u in AM
   -added insulin sliding scale
   -ct monitor FS as protocol
   4. Gallstone pancreatitis: much improved, no longer need to trend LFTs,
   amylase and lipase
   Will need follow-up for potential pseudocyst. Surgery has been
   re-consulted - most immediate concern is bleeding into the pancreas.
   Surgery had no further recs at this time.
   ICU Care
   Nutrition: soft solids, clears
   Glycemic Control:  40u glargine and humalog sliding scale
   Lines:
   18 Gauge - [**2169-10-14**] 06:02 PM
   20 Gauge - [**2169-10-14**] 06:03 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:  lansoprazole
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR  (No compressions/ CPR) but would be OK to re-intubate
   if needed as per discussion w/ Dr. [**Last Name (STitle) 276**] and pt
s attorney who is his
   HCP
   Disposition: ICU

2169-10-15 11:02:00 Physician Attending Progress Note
Chief Complaint: pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2169-10-14**] 03:15 PM
 MULTI LUMEN - STOP [**2169-10-14**] 05:32 PM
   placed in IR
 DIALYSIS CATHETER - STOP [**2169-10-14**] 11:04 PM
   placed in IR
   Remained extubated.  Intermittent delirium.  Dialysis cathether and CVl
   removed without incident.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Indomethacin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2169-10-13**] 04:45 PM
   Vancomycin - [**2169-10-14**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-10-15**] 08:28 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-10-14**] 09:42 PM
   Other medications:
   zosyn, cipro, lopressor, PPI, bisacodyl, SQH, SQI, iron, vitamins,
   vanco after HD
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-15**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.5
C (99.5
   HR: 96 (77 - 108) bpm
   BP: 125/83(93) {97/43(56) - 139/83(93)} mmHg
   RR: 30 (19 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.3 kg (admission): 120 kg
   Height: 71 Inch
             Total In:
                                                                    830 mL
                                                                    410 mL
   PO:
                                                                    240 mL
                                                                    220 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                     65 mL
   Urine:
                                                                    355 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,525 mL
                                                                    345 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior)
   Abdominal: Soft, Non-tender, protuberant
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   264 K/uL
   131 mg/dL
   5.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   68 mg/dL
   99 mEq/L
   142 mEq/L
   24.4 %
   9.2 K/uL
        [image002.jpg]
                            [**2169-10-10**]  11:26 AM
                            [**2169-10-10**]  04:50 PM
                            [**2169-10-10**]  09:28 PM
                            [**2169-10-11**]  03:40 AM
                            [**2169-10-12**]  03:47 AM
                            [**2169-10-12**]  02:57 PM
                            [**2169-10-13**]  03:27 AM
                            [**2169-10-13**]  04:31 PM
                            [**2169-10-14**]  04:37 AM
                             [**2169-10-15**]  03:20 AM
   WBC
   9.2
   11.8
   8.1
   8.6
   9.2
   Hct
   25.6
   25.1
   22.9
   23.2
   22.5
   24.4
   Plt
   294
   281
   241
   231
   264
   Cr
   2.3
   2.2
   2.3
   4.3
   5.0
   6.7
   5.3
   TCO2
   30
   29
   Glucose
   [**Telephone/Fax (3) **]90
   69
   116
   131
   Other labs: PT / PTT / INR:16.6/29.7/1.5, ALT / AST:39/41, Alk Phos / T
   Bili:97/1.2, Amylase / Lipase:39/9, Differential-Neuts:77.6 %,
   Lymph:12.2 %, Mono:6.8 %, Eos:3.4 %, Fibrinogen:615 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:231 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   55-year-old man with
          Gallstone pancreatitis complicated by pseudocyst and splenic
   vein thrombosis
          Sepsis
 improved
          Acute renal failure
 now on hemodialysis, but UOP has
   picked up somewhat
          Encephalopathy
          Respiratory failure
 now extubated
          Probable VAP
   Continue rx for VAP for 8-day course since cx are negative but had
   received some antibiotics.  (Complete [**2169-10-20**]).
   Follow expectantly for delirium
   Anticipate that he will need tunnelled line tomorrow or next day, and
   HD on Tuesday.
   He has tolerated extubation.  Urine output is improving, suggesting
   that he may be entering recovery phase from ATN.  He remains
   encephalopathic, likely related to slow clearance of sedative
   medications and his generally ill state.  Today, we will attempt to get
   adequate peripheral IVs.  If able, will discontinue central line.  In
   addition, will discuss with renal about discontinuing temporary
   dialysis line (site looks red and has been in for quite a long time).
   If needs repeat HD, renal
s plan was for tunneled line anyway.  Will
   continue present antibiotics for VAP, but consider de-escalating if
   remains negative for 2-3 days.  As per Dr. [**Last Name (STitle) 276**]
s note yesterday, he
   is DNR (no CPR), but would be intubated if needed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-10-14**] 06:02 PM
   20 Gauge - [**2169-10-14**] 06:03 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR but OK to intubate
   Disposition :
   Total time spent: